2145-12-29 09:24:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: shock
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2145-12-28**] 11:45 PM
 EKG - At [**2145-12-29**] 12:00 AM
 BLOOD CULTURED - At [**2145-12-29**] 01:53 AM
 ARTERIAL LINE - START [**2145-12-29**] 01:54 AM
   Admitted to ICU.  Pressors titrated.
   Seen by surgery.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2145-12-29**] 12:10 AM
   Metronidazole - [**2145-12-29**] 08:09 AM
   Infusions:
   Norepinephrine - 0.3 mcg/Kg/min
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-12-29**] 03:51 AM
   Other medications:
   Flagyl, PPI, vitamins, lactulose, cefepime, vanco in ED
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-29**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.6
C (99.7
   HR: 115 (93 - 121) bpm
   BP: 83/55(65) {74/41(53) - 98/55(67)} mmHg
   RR: 18 (11 - 20) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  1,734 mL
                                                                  5,083 mL
   PO:
           TF:
   IVF:
                                                                     34 mL
                                                                  3,145 mL
   Blood products:
   1,938 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,734 mL
                                                                  5,083 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.47/32/99.[**Numeric Identifier 128**]/23/0
   Physical Examination
   Eyes / Conjunctiva: icteric
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: diffusely
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.9 g/dL
   75 K/uL
   112 mg/dL
   8.5 mg/dL
   23 mEq/L
   4.2 mEq/L
   15 mg/dL
   95 mEq/L
   134 mEq/L
   29.3 %
   12.2 K/uL
        [image002.jpg]
                            [**2145-12-29**]  01:48 AM
                            [**2145-12-29**]  02:14 AM
                            [**2145-12-29**]  04:37 AM
   WBC
   11.4
   12.2
   Hct
   27.3
   29.3
   Plt
   80
   75
   Cr
   7.8
   8.5
   TropT
   0.15
   TCO2
   24
   Glucose
   108
   112
   Other labs: PT / PTT / INR:20.5/40.8/1.9, CK / CKMB /
   Troponin-T:798/7/0.15, ALT / AST:45/80, Alk Phos / T Bili:143/8.1,
   Fibrinogen:111 mg/dL, Lactic Acid:2.8 mmol/L, LDH:369 IU/L, Ca++:8.9
   mg/dL, Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   57-year-old man with pressor-dependent shock.  Etiology appears most
   likely to be septic, with SBP being the most likely source but C diff,
   fistula-associated bacteremia.  Adrenal insufficiency is possible.
   Doubt cardiogenic but not fully excluded.  Improved lactate suggests we
   are reversing central hypoperfusion
          Shock, most likely septic
   o         No evidence of respiratory or cranial infection.  Biliary
   disease seems unlikely given CT findings.
   o         Localizing evidence to abdomen; SBP or C diff most likely.
   Ischemic colitis seems less likely.
   o         Doesn
t appear hypovolemic from bleeding at present.
   o         Broad antimicrobial therapy to cover SBP and C diff
   o         Fully culture
   o         Treat with albumin as if for SBP
   o         Discuss with patient: paracentesis would be appropriate
   o         Other evaluation
          Echo this morning
          Random cortisol
          Cirrhosis
   o         Consult hepatology
   o         Lactulose
   o         Serial Hct and coags, transfuse prn
   o         Does not seem to have UGIB at present
          Elevated troponin, mildly abnormal EKG
   o         Clearly not STEMI
   o         Troponin may be elevated from demand ischemia, from renal
   failure, or both.  No reason to suspect unstable plaque at present.
   o         Echo today
          ESRD
   o         Consult renal
   o         No acute need for dialysis right now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2145-12-28**] 11:45 PM
   20 Gauge - [**2145-12-28**] 11:45 PM
   Arterial Line - [**2145-12-29**] 01:54 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 45 min

2145-12-30 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2145-12-29**] 08:29 AM
   both arms to r/o dvt
 ANGIOGRAPHY - At [**2145-12-29**] 12:30 PM
   for line placement and paracentesis
 PARACENTESIS - At [**2145-12-29**] 01:30 PM
   in ir; cxs sent
 MULTI LUMEN - START [**2145-12-29**] 02:30 PM
   placed in ir
 CORDIS/INTRODUCER - STOP [**2145-12-30**] 04:43 AM
   - Had L subclavian CVL placed and R femoral line removed
   - Diagnostic paracentesis
   - UE u/s
   - ECHO not done as of 2200; called earlier in day to see if could be
   tomorrow and told them "no"
   - renal recs re: CVVH vs HD: no recs in chart or OMR
   - random cortisol level: at 1630 was 3.9; repeat this morning
   - repeat Hct and INR in afternoon; Hct dropped to 22 in evening,
   transfused 2 units.  INR up to 2.9 so 2 units FFP.  Another unit FFP
   and cryo
   - Hepatology: Getting flex sig tomorrow afternoon, so NPO p MN and 2
   tap water enemas 6am tomorrow morning (already ordered)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2145-12-30**] 12:03 AM
   Metronidazole - [**2145-12-30**] 12:03 AM
   Infusions:
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2145-12-29**] 01:37 PM
   Midazolam (Versed) - [**2145-12-29**] 01:50 PM
   Pantoprazole (Protonix) - [**2145-12-29**] 04:00 PM
   Morphine Sulfate - [**2145-12-30**] 04:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-30**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 105 (99 - 115) bpm
   BP: 96/50(66) {77/36(51) - 113/60(76)} mmHg
   RR: 28 (12 - 32) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 11 (11 - 19)mmHg
   Total In:
                                                                  8,335 mL
                                                                    925 mL
   PO:
                                                                    480 mL
   TF:
   IVF:
                                                                  4,008 mL
                                                                    369 mL
   Blood products:
                                                                  3,847 mL
                                                                    556 mL
   Total out:
                                                                  7,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                  7,000 mL
   Balance:
                                                                  1,335 mL
                                                                    925 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///21/
   Physical Examination
   General Appearance: Awake, in pain (shoulders, rectum) but not in
   distress, alert
   Cardiovascular: Tachy, S1 S2 clear no murmurs
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Slight expiratory light rhonchi, mid lung field on
   R
   Abdominal: Distended, tender to deep palpation, BS present
   Extremities: BLE with large amt of pitting edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   63 K/uL
   8.3 g/dL
   128 mg/dL
   9.4 mg/dL  RISING
   21 mEq/L
   4.1 mEq/L
   22 mg/dL
   96 mEq/L
   135 mEq/L
   24.8 %
   7.2 K/uL
        [image002.jpg]
                            [**2145-12-29**]  01:48 AM
                            [**2145-12-29**]  02:14 AM
                            [**2145-12-29**]  04:37 AM
                            [**2145-12-29**]  11:00 AM
                            [**2145-12-29**]  05:10 PM
                            [**2145-12-29**]  11:19 PM
                            [**2145-12-30**]  03:37 AM
   WBC
   11.4
   12.2
   7.2
   Hct
   27.3
   29.3
   26.5
   22.0
   25.1
   24.8
   Plt
   80
   75
   63
   Cr
   7.8
   8.5
   9.1
   9.4
   TropT
   0.15
   0.27
   TCO2
   24
   Glucose
   108
   112
   124
   128
   Other labs: PT / PTT / INR:21.8/47.7/2.0   THIS AM , CK / CKMB /
   Troponin-T:448/5/0.27   THIS AM, GOING UP , ALT / AST:29/52   THIS AM,
   FALLING , Alk Phos / T Bili:96/10.8  TBILI RISING ,
   Differential-Neuts:65.5 %, Band:0.0 %, Lymph:23.7 %, Mono:8.0 %,
   Eos:2.1 %, Fibrinogen:92 mg/dL   THIS AM, FALLING, Lactic Acid:3.3
   mmol/L  THIS AM <-- 3.0, 4.5, 2.8, LDH:268 IU/L   THIS AM, GOING DOWN ,
   Ca++:10.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   Fluid analysis / Other labs: [**12-29**]
   Para
   WBC 450  P1 L31 Mono22 Mesoth 42 Macro 4
   RBC 240
   Albumin <1
   iron studies c/w chronic disease
   TSH normal
   haptoglobin <20
   random cortisol yesterday 3.9, this am pending
   Imaging: [**12-29**] UE u/s
    1) No ultrasound evidence of deep venous thrombosis of the upper
   extremities.
   [**12-29**] CXR
   Marked widening of the mediastinum from the carina to the thoracic
   inlet
   accompanied by new distention of the azygos vein suggests generalized
   vascular
   engorgement. Patient's supine position is probably contributory and
   helps to
   explain interval increase in the apparent cardiac diameter, though
   still
   normal. Lung volumes are lower but there is no edema or consolidation
   and no definite pleural effusion. Nasogastric tube ends in the stomach.
   No pneumothorax.
   [**12-29**] CT abdomen/pelvis
   IMPRESSION:
   1. Diffuse pancolonic wall edema, most compatible with low protein
   state
   secondary to the underlying cirrhosis. No definite evidence of acute
   colitis.
   No evidence of bowel obstruction.
   2. Large amount of ascites, increased from prior.
   3. New 9-mm right lower lobe pulmonary nodule, which may be due to a
   neoplastic, infectious or inflammatory process. Dedicated chest CT is
   recommended for further evaluation.
   4. Cholelithiasis without evidence of acute cholecystitis.
   5. Unchanged atrophic kidneys with multiple subcentimeter
   hypodensities,
   likely cysts.
   Microbiology: Para fluid: Gstain with GPC's in pairs
   BCx negative to date x3
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   57M with Hep C cirrhosis, ESRD on HD, presenting with hypotension and
   shock, elevated lactate, and drop in hematocrit.
   # Hypotension/shock.  Differential includes hemorrhagic/volume
   depletion, septic, cardiogenic (ischemic/poor forward flow or
   obstructive/PE).  Of these, hemorrhagic (clear GI bleed) and septic or
   combination seem most likely.  Has had Hct drop in setting of gross
   blood on rectal exam, though his history suggests this might be more
   subacute.  Initially warm in ED but becoming more cool - ?pressor
   effect vs. underresuscitation of septic or hemorrhagic shock.  Mental
   status good; patient anuric.
   - Para fluid with evidence for infection, presumably Strep Pneumo,
   which would be covered with Cefepime
   - Continue to check on sensitivities and will tailor ABx accordingly
   - Continues on Cefepime and Flagyl
   - BCx's continue to be negative
   - Continues on Levophed and still hypotense
   - Will hold on fluid resuscitation for now as he is already fluid
   overloaded by CXR and exam, also doesn't make urine
   - Has received 3U PRBC's, 3U FFP, and 1U cryo for resuscitation
   - Needs echo today
   # SBP. Has GPC's in pairs on Gstain
   - f/u Cx's
   - Vanc/Cefepime/Flagyl as above
   # GIB/anemia.  With evidence of acute blood loss via GI tract.  Seems
   to be lower given no hematemesis, negative NGL here.  Liver aware and
   also feel low likelihood of UGIB.  Differential includes ischemic
   colitis (with hypotension from other etiology), diverticulosis,
   hemorrhoids, AVMs, polyps.
   - NGL was negative
   - No current evidence of gross blood
   - Concern for evolving DIC picture with falling fibrinogen, and
   elevated coags
   - Concerning for hemolysis given elevated Tbili, with increased
   indirect fraction, and low haptoglobin
   - Q4hrs Hct, coags, fibrinogen, plts
   - Hepatology plans flex sig this am, will need to get tap water enemas
   in
   - Cephalosporin for SBP ppx.
   - IV PPI.
   - If acute bleed, needs to go to bleeding scan
   # Lactic acidosis.  In setting of profound hypotension as above.
   Hypovolemic vs. sepsis vs. more isolated intestinal ischemia.  Is
   coming down some on subsequent check.
   - Recheck following further fluids.
   - f/u surgical recs.
   - f/u final CT report.
   # Abdominal pain/colitis.  Concerning for colitis on CT scan (vs. bowel
   wall edema with total body anasarca.
   - Surgery: no acute issues from surgical standpoint
   - vanc/cefepime/flagyl as above
   - check c.diff and culture.
   # Low cortisol
   - Repeat am cortisol pending this am --> f/u
   - Will stim test today
   # Cirrhosis.  LFTs relatively at baseline (bili slightly up compared to
   prior).  Mental status surprisingly good considering blood pressure -
   no current evidence of hepatic encephalopathy, though would be at risk
   with GIB.
   - Lactulose.
   - Check for SBP as above.  Covering for now.
   - Liver following.
   # ESRD.  On HD Tu/[**Doctor First Name **]/Sat.
   - Alert renal early AM - given borderline K in ED and inadequate HD
   today, may need start of CVVH.
   - Repeat lytes now.
   FEN: NPO, watch lytes.
   Prophylaxis: boots; hold HSQ for now. IV PPI.
   Access:  Now has subclavian CVL, R art line, and 20 gauge
   Code:  Full
   Communication: Patient, sister [**Name (NI) 163**] [**Name (NI) 5464**], Cell number:
   [**Telephone/Fax (1) 10878**].
   Disposition: pending clinical improvement

2145-12-30 09:50:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: shock, respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2145-12-29**] 08:29 AM
   both arms to r/o dvt
 ANGIOGRAPHY - At [**2145-12-29**] 12:30 PM
   for line placement and paracentesis
 PARACENTESIS - At [**2145-12-29**] 01:30 PM
   in ir; cxs sent
 MULTI LUMEN - START [**2145-12-29**] 02:30 PM
   placed in ir
 CORDIS/INTRODUCER - STOP [**2145-12-30**] 04:43 AM
   Line and paracentesis yesterday
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2145-12-30**] 12:03 AM
   Metronidazole - [**2145-12-30**] 08:01 AM
   Infusions:
   Norepinephrine - 0.28 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2145-12-29**] 01:37 PM
   Midazolam (Versed) - [**2145-12-29**] 01:50 PM
   Pantoprazole (Protonix) - [**2145-12-29**] 04:00 PM
   Morphine Sulfate - [**2145-12-30**] 06:00 AM
   Other medications:
   flagyl, PPI, levophed @ 0.24, vitamins, lactulose, cefepime, albumin
   (ysterday), morphine for abdominal pain
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-30**] 09:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (99
   HR: 106 (99 - 113) bpm
   BP: 70/29(43) {70/29(43) - 113/60(76)} mmHg
   RR: 25 (12 - 32) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 11 (11 - 19)mmHg
   Total In:
                                                                  8,635 mL
                                                                  1,099 mL
   PO:
                                                                    780 mL
   TF:
   IVF:
                                                                  4,008 mL
                                                                    543 mL
   Blood products:
                                                                  3,847 mL
                                                                    556 mL
   Total out:
                                                                  7,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                  7,000 mL
   Balance:
                                                                  1,635 mL
                                                                  1,099 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///21/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Abdominal: Soft, Tender: diffusely
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   8.3 g/dL
   63 K/uL
   128 mg/dL
   9.4 mg/dL
   21 mEq/L
   4.1 mEq/L
   22 mg/dL
   96 mEq/L
   135 mEq/L
   24.8 %
   7.2 K/uL
        [image002.jpg]
                            [**2145-12-29**]  01:48 AM
                            [**2145-12-29**]  02:14 AM
                            [**2145-12-29**]  04:37 AM
                            [**2145-12-29**]  11:00 AM
                            [**2145-12-29**]  05:10 PM
                            [**2145-12-29**]  11:19 PM
                            [**2145-12-30**]  03:37 AM
   WBC
   11.4
   12.2
   7.2
   Hct
   27.3
   29.3
   26.5
   22.0
   25.1
   24.8
   Plt
   80
   75
   63
   Cr
   7.8
   8.5
   9.1
   9.4
   TropT
   0.15
   0.27
   TCO2
   24
   Glucose
   108
   112
   124
   128
   Other labs: PT / PTT / INR:21.8/47.7/2.0, CK / CKMB /
   Troponin-T:448/5/0.27, ALT / AST:29/52, Alk Phos / T Bili:96/10.8,
   Differential-Neuts:65.5 %, Band:0.0 %, Lymph:23.7 %, Mono:8.0 %,
   Eos:2.1 %, Fibrinogen:92 mg/dL, Lactic Acid:3.3 mmol/L, LDH:268 IU/L,
   Ca++:10.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   57-year-old man with cirrhosis and ESRD now with
          Shock
          Apparent SBP (positive gram stain, but low neutrophil count
   in fluid)
          Acute anemia (likely mix of bleeding and hemolysis, at risk
   for DIC)
          Dyspnea and wheezing
          Elevated and rising troponin
          Increased parenchymal opacities on CXR (more c/w CHF)
          Adrenal insufficiency (hepato-adrenal syndrome
 see Crit
   Care Med [**2141**] [**Month (only) **];33(6):1254-59.)
   We will plan:
          Extend antibiotic coverage to include VRE
          Dialyze today.  I would favor a trial of intermittent HD,
   since CVVHD would require another line.
          Ask hematology to see him:  he has received 7 units of PRBCs
   without ongoing overt clinical bleeding.  ?DIC ?cryos
          Check EKG and echo.  If concern, discuss with cardiology
          Transfuse as needed
          Stress dose steroids
          Discuss with hepatology about timing of flex sig.  [**Month (only) 60**] be
   unable to tolerate.
          Pain control
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-12-28**] 11:45 PM
   Arterial Line - [**2145-12-29**] 01:54 AM
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   discussed with patient
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill

2145-12-31 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypotension
   24 Hour Events:
 ULTRASOUND - At [**2145-12-30**] 09:00 AM cardiac echo
 ULTRASOUND - At [**2145-12-30**] 03:15 PM le lenis
   - Had SOB in am, had repeat CXR showing new dense retrocardiac and
   right basal ill-defined opacification, perihilar
   opacification, cephalization of vessels and small left effusion
   suggests pulmonary edema. No pneumothorax.
   - Also had echo this morning showing LV is hyperdynamic at 75%,
   Dopplers suggest normal PCWP, mild resting LVOT obstruction, RV cavity
   is markedly dilated with depressed free wall contractility, which is
   new.
   - Concern for RV, sent for CTA: WET read showing no PE, no dissection,
   no aneurysm, but bilateral pleural effusions, multifocal PNA in RUL,
   superior RLL, and LLL; RV strain; large ascites.
   - Lab called and said that GPC's from para were not really there (?)
   and the Gstain is actually negative
   - Fractionation of elevated Tbili showing indirect bilirubinemia
   - started linezolid to cover possible VRE
   - started stress dose steroids
   - hepatology re ? flex sig
   - Q6hr hct stable through day
   - PM lactate slightly up at 3.8
   - Vanc trough low at 8.7, will likely need re-dose tomorrow/at next HD
   - EKG: Unchanged from prior.
   - LENI: WET read showing no LE DVT's.
   - Pain control currently with Morphine [**3-17**] IV q4
   - Started on [**Last Name (LF) 1686**], [**First Name3 (LF) **] now ABx regimen is: Cefepime, Flagyl, Linezolid,
   [**First Name3 (LF) 1686**]
   - Advanced diet
   - Heme recs: only occasional shistos seen on smear. DIC or hemolysis
   less likely. Indirect bilirubinemia likely from transfusions. Continue
   DIC labs daily, FFP for INR >2, Plts transfusion if under 50k +
   bleeding or 20k + not bleeding, transfuse RBC's for <25, and cryo for
   fibrinogen <100
   - Renal: Came by but fellow and pt decided no HD tonight, but should
   get first thing in the morning.
   - Hepatology: MELD 36
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2145-12-30**] 12:03 AM
   Ciprofloxacin - [**2145-12-30**] 04:00 PM
   Metronidazole - [**2145-12-30**] 10:00 PM
   Linezolid - [**2145-12-30**] 11:30 PM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2145-12-31**] 03:45 AM
   Pantoprazole (Protonix) - [**2145-12-31**] 03:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-31**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98.1
   HR: 91 (91 - 110) bpm
   BP: 86/54(65) {70/29(43) - 104/56(73)} mmHg
   RR: 19 (19 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (11 - 19)mmHg
   Total In:
                                                                  2,022 mL
                                                                     85 mL
   PO:
                                                                    480 mL
   TF:
   IVF:
                                                                    986 mL
                                                                     85 mL
   Blood products:
                                                                    556 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,022 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   56 K/uL
   9.0 g/dL
   182 mg/dL
   11.4 mg/dL
   18 mEq/L
   4.3 mEq/L
   29 mg/dL
   95 mEq/L
   134 mEq/L
   26.6 %
   10.7 K/uL
        [image002.jpg]
                            [**2145-12-29**]  01:48 AM
                            [**2145-12-29**]  02:14 AM
                            [**2145-12-29**]  04:37 AM
                            [**2145-12-29**]  11:00 AM
                            [**2145-12-29**]  05:10 PM
                            [**2145-12-29**]  11:19 PM
                            [**2145-12-30**]  03:37 AM
                            [**2145-12-30**]  10:00 AM
                            [**2145-12-30**]  03:15 PM
                            [**2145-12-31**]  03:28 AM
   WBC
   11.4
   12.2
   7.2
   10.7
   Hct
   27.3
   29.3
   26.5
   22.0
   25.1
   24.8
   26.0
   26.1
   26.6
   Plt
   80
   75
   63
   56
   Cr
   7.8
   8.5
   9.1
   9.4
   11.4
   TropT
   0.15
   0.27
   0.26
   TCO2
   24
   Glucose
   108
   112
   124
   128
   182
   Other labs: PT / PTT / INR:29.9/49.5/3.0, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:30/56, Alk Phos / T Bili:102/12.5,
   Differential-Neuts:65.5 %, Band:0.0 %, Lymph:23.7 %, Mono:8.0 %,
   Eos:2.1 %, Fibrinogen:92 mg/dL, Lactic Acid:3.8 mmol/L, LDH:268 IU/L,
   Ca++:10.0 mg/dL, Mg++:2.3 mg/dL, PO4:4.9 mg/dL
   Imaging: [**12-30**] CTA chest: No pulmonary embolism, aortic dissection or
   aneurysm.
   - New bilateral moderately large pleural effusions with overlying
   compressive
   atelectasis in combination with multifocal consolidation are most
   likely due to pneumonia.
   - Large intra-abdominal ascites.
   - Enlargement of right ventricle and atrium with straightening of the
   interventricular septum suggests right ventricular strain.
   [**12-30**] CXR: New dense retrocardiac and right basal ill-defined
   opacification, perihilar opacification, cephalization of vessels and
   small left effusion suggests
   pulmonary edema.
   [**12-31**] CXR: worsening pulmonary edema
   [**12-30**] LENI: no DVT
   Microbiology: [**12-30**] C diff negative
   [**12-29**] peritoneal fluid stain negative
   [**12-28**] +18 blood cx pending
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   57M with Hep C cirrhosis, ESRD on HD, presenting with hypotension and
   shock, elevated lactate, and drop in hematocrit.
   # Hypotension/shock.  Most likely septic shock due to infection.
   Concern yesterday for rising lactate, but unclear how serious that is
   in the setting of GFR of essentially zero.  Source is most likely
   pneumonia seen on CT scan.  Will cover for planned 7 day course.
   Currently on cefepime/[**Month/Year (2) **]/flagyl/vanco which will cover broadly for
   pneumonia with flagyl for possible intraabdominal source.
   - Para fluid with evidence for infection, presumably Strep Pneumo,
   which would be covered with Cefepime
   - Continue to check on sensitivities and will tailor ABx accordingly
   - Continues on Cefepime and Flagyl
   - BCx's continue to be negative
   - Continues on Levophed and still hypotense
   - Will hold on fluid resuscitation for now as he is already fluid
   overloaded by CXR and exam, also doesn't make urine
   - Has received 3U PRBC's, 3U FFP, and 1U cryo for resuscitation
   - Needs echo today
   # SBP. GPC
s were lab error, can stop linezolid.
   Has GPC's in pairs on Gstain
   - f/u Cx's
   - Vanc/Cefepime/Flagyl as above
   - Will add Linezolid to cover for VRE, which is not covered by above
   regimen
   # GIB/anemia.  Yesterday with 3 bowel movements w/o gross blood and
   stable hematocrits.  ? need for sigmoidoscopy.
   With evidence of acute blood loss via GI tract.  Seems to be lower
   given no hematemesis, negative NGL here.  Liver aware and also feel low
   likelihood of UGIB.  Differential includes ischemic colitis (with
   hypotension from other etiology), diverticulosis, hemorrhoids, AVMs,
   polyps. Liver had planned to do flex sigmoidoscopy this morning but pt
   did not tolerate tap water enemas well.
   - NGL was negative
   - No current evidence of gross blood
   - Concern for evolving DIC picture with falling fibrinogen, and
   elevated coags
   - Concerning for hemolysis given elevated Tbili, with increased
   indirect fraction, and low haptoglobin
 will consult heme today
   - Q6hrs Hct, coags, fibrinogen, plts
   - Will fractionate Tbili to direct/indirect
   - Hepatology plans flex sig this am, will need to get tap water enemas
   in
   - Cephalosporin for SBP ppx.
   - IV PPI.
   - If acute bleed, needs to go to bleeding scan
   # Elevated Troponin
 troponin stable this morning.
   Likely demand ischemia, pt without current chest pain
   - Will get EKG this morning
   - F/u echo
   - Trend Trops
   # ESRD.  On HD Tu/[**Doctor First Name **]/Sat. -> patient has fluid overload and widening
   anion gap. to get hopefully 3.5kg off today.
   - Will touch base with renal today to figure out when to start HD/CVVH
   # Lactic acidosis.  In setting of profound hypotension as above.
   Hypovolemic vs. sepsis vs. more isolated intestinal ischemia.  Is
   coming down some on subsequent check.
   - Trend lactates
   # Abdominal pain/colitis.  Concerning for colitis on CT scan (vs. bowel
   wall edema with total body anasarca.
   - Surgery: no acute issues from surgical standpoint
   - vanc/cefepime/flagyl as above
   - check c.diff and culture.
   # Low cortisol
   - Repeat am cortisol pending this am --> f/u
   - Will start stress dose steroids
   # Cirrhosis.  LFTs relatively at baseline (bili slightly up compared to
   prior).  Mental status surprisingly good considering blood pressure -
   no current evidence of hepatic encephalopathy, though would be at risk
   with GIB.
   - Lactulose.
   - Liver following.
   FEN: NPO, watch lytes.
   Prophylaxis: boots; hold HSQ for now. IV PPI.
   Access:  Now has subclavian CVL, R art line, and 20 gauge
   Code:  Full
   Communication: Patient, sister [**Name (NI) 163**] [**Name (NI) 5464**], Cell number:
   [**Telephone/Fax (1) 10878**].
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-12-28**] 11:45 PM
   Arterial Line - [**2145-12-29**] 01:54 AM
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2145-12-31 10:41:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: [** 1054**]
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2145-12-30**] 09:00 AM
   cardiac echo
 ULTRASOUND - At [**2145-12-30**] 03:15 PM
   le lenis
   Gram stain of peritoneal fluid corrected to negative
   Echo with dilated and hypokinetic RV.
   CTA without PE but with pneumonia
   Still on pressors
   Heme consult
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2145-12-30**] 12:03 AM
   Ciprofloxacin - [**2145-12-30**] 04:00 PM
   Linezolid - [**2145-12-30**] 11:30 PM
   Metronidazole - [**2145-12-31**] 08:05 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-12-31**] 03:51 AM
   Morphine Sulfate - [**2145-12-31**] 07:40 AM
   Other medications:
   flagyl, vanco, PPI, vitamins, lactulose, cefepime, hydrocort,
   fludrocort, linezolid, cipro. morphine prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-31**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 105 (91 - 107) bpm
   BP: 93/55(68) {78/41(56) - 102/56(73)} mmHg
   RR: 25 (19 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 11 (9 - 19)mmHg
   Total In:
                                                                  2,022 mL
                                                                    473 mL
   PO:
                                                                    480 mL
                                                                    220 mL
   TF:
   IVF:
                                                                    986 mL
                                                                    253 mL
   Blood products:
                                                                    556 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,022 mL
                                                                    473 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : )
   Abdominal: Soft, some tenderness
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   56 K/uL
   182 mg/dL
   11.4 mg/dL
   18 mEq/L
   4.3 mEq/L
   29 mg/dL
   95 mEq/L
   134 mEq/L
   26.6 %
   10.7 K/uL
        [image002.jpg]
                            [**2145-12-29**]  01:48 AM
                            [**2145-12-29**]  02:14 AM
                            [**2145-12-29**]  04:37 AM
                            [**2145-12-29**]  11:00 AM
                            [**2145-12-29**]  05:10 PM
                            [**2145-12-29**]  11:19 PM
                            [**2145-12-30**]  03:37 AM
                            [**2145-12-30**]  10:00 AM
                            [**2145-12-30**]  03:15 PM
                            [**2145-12-31**]  03:28 AM
   WBC
   11.4
   12.2
   7.2
   10.7
   Hct
   27.3
   29.3
   26.5
   22.0
   25.1
   24.8
   26.0
   26.1
   26.6
   Plt
   80
   75
   63
   56
   Cr
   7.8
   8.5
   9.1
   9.4
   11.4
   TropT
   0.15
   0.27
   0.26
   TCO2
   24
   Glucose
   108
   112
   124
   128
   182
   Other labs: PT / PTT / INR:29.9/49.5/3.0, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:30/56, Alk Phos / T Bili:102/12.5,
   Differential-Neuts:65.5 %, Band:0.0 %, Lymph:23.7 %, Mono:8.0 %,
   Eos:2.1 %, Fibrinogen:92 mg/dL, Lactic Acid:3.8 mmol/L, LDH:268 IU/L,
   Ca++:10.0 mg/dL, Mg++:2.3 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   57-year-old man with cirrhosis and ESRD now with
          [**Year (4 digits) **]
          Apparent multifocal pneumonia
          Right heart strain of unclear etiology
          Acute anemia (likely mix of bleeding and hemolysis, at risk
   for DIC)
          Elevated troponin
          Lactic acidosis
          Adrenal insufficiency (hepato-adrenal syndrome
 see Crit
   Care Med [**2141**] [**Month (only) **];33(6):1254-59.)
   Gram stain on peritoneal fluid was initially read as (+) but re-read as
   negative and low PMNs on ascites.
   We will plan:
          Stop linezolid and resume vanco (given change in ascites
   gram stain results)
          Dialysis today
 trial of fluid removal to see if his
   hemodynamics improve (?off Starling curve).  If not, recheck CVP after
   HD and consider albumin challenge.
          Given apparent dx of pneumonia, evaluate and treat for
   influenza
          Continue treatment for HCAP.  Mycoplasma also might cause CT
   picture and hemolysis
 will see if we can get cold agglutinins and
   serologies.
          Appreciate hematology
s recs
          Appreciate hepatology
s help
          Does not seem to be GI bleeding
          Stress dose steroids
          His right heart failure is perplexing.  [**Month (only) 60**] be related to
   pneumonia and portopulmonary hypertension.  Does not seem to be PE,
   which would need to be quite large to cause [**Month (only) 1054**].  Will check ScVO2
   and consider vigileo.  If still uncertain and in [**Last Name (LF) 1054**], [**First Name3 (LF) **] need to
   consider right heart cath but would not pursue right now, though will
   d/w patient.
   Other issues as per ICU team note.
   Critically ill: 40 min
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-12-28**] 11:45 PM
   Arterial Line - [**2145-12-29**] 01:54 AM
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2146-01-01 06:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypotension
   24 Hour Events:
   - flu - patient refused swab.  Started on tamiflu for five day course.
   - re-dosed vancomycin after dialysis
   - albumin -> patient refusing to take albumin, saying he's tired of
   "trying" things for today.  Will consider tomorrow.
   - thiamine started
   - CvO2 77%
   - mycoplasma test sent
   - had bloody bowel movement at 2pm and again at 7pm.  Saw 7pm BM which
   had maroon blood in liquid surrounding black stool.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2145-12-30**] 12:03 AM
   Ciprofloxacin - [**2145-12-30**] 04:00 PM
   Linezolid - [**2145-12-30**] 11:30 PM
   Metronidazole - [**2145-12-31**] 08:05 AM
   Vancomycin - [**2145-12-31**] 10:48 AM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2145-12-31**] 03:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-1**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.2
   HR: 98 (93 - 111) bpm
   BP: 77/46(56) {74/41(53) - 102/61(74)} mmHg
   RR: 14 (13 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 13 (5 - 13)mmHg
   Mixed Venous O2% Sat: 77 - 92
   Total In:
                                                                  1,982 mL
                                                                    230 mL
   PO:
                                                                  1,180 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    802 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  4,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                 -2,518 mL
                                                                    230 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: Awake, in pain (shoulders, rectum) but not in
   distress, alert
   Cardiovascular: Tachy, S1 S2 clear no murmurs
   Respiratory / Chest: Slight expiratory light rhonchi, mid lung field on
   R
   Abdominal: Distended, tender to deep palpation, BS present
   Extremities: BLE with large amt of pitting edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   56 K/uL
   9.0 g/dL
   199 mg/dL
   8.8 mg/dL
   22 mEq/L
   4.0 mEq/L
   23 mg/dL
   97 mEq/L
   138 mEq/L
   28.6 %
   10.7 K/uL
        [image002.jpg]
                            [**2145-12-29**]  05:10 PM
                            [**2145-12-29**]  11:19 PM
                            [**2145-12-30**]  03:37 AM
                            [**2145-12-30**]  10:00 AM
                            [**2145-12-30**]  03:15 PM
                            [**2145-12-31**]  03:28 AM
                            [**2145-12-31**]  12:00 PM
                            [**2145-12-31**]  02:00 PM
                            [**2145-12-31**]  04:10 PM
                            [**2145-12-31**]  08:23 PM
   WBC
   7.2
   10.7
   Hct
   22.0
   25.1
   24.8
   26.0
   26.1
   26.6
   28.0
   28.6
   Plt
   63
   56
   Cr
   9.1
   9.4
   11.4
   8.8
   TropT
   0.27
   0.26
   Glucose
   124
   128
   182
   230
   178
   199
   Other labs: PT / PTT / INR:29.9/49.5/3.0, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:30/56, Alk Phos / T Bili:102/12.5,
   Differential-Neuts:65.5 %, Band:0.0 %, Lymph:23.7 %, Mono:8.0 %,
   Eos:2.1 %, Fibrinogen:118 mg/dL, Lactic Acid:3.8 mmol/L, LDH:268 IU/L,
   Ca++:9.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Imaging: [**12-31**] CXR: No significant interval change in the radiographic
   findings of pulmonary edema.
   [**1-1**] CXR: Improvement in pulmonary edema
   Microbiology: [**12-30**] Cdiff negative
   [**12-29**] peritoneal fluid: no growth
   [**2054-12-27**] blood cx pending
   [**12-29**] MRSA negative
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   57M with Hep C cirrhosis, ESRD on HD, presenting with hypotension and
   shock, elevated lactate, and drop in hematocrit.
   # Hypotension/shock.  Most likely septic shock due to infection.
   Concern yesterday for rising lactate, but unclear how serious that is
   in the setting of GFR of essentially zero.  Source is most likely
   pneumonia seen on CT scan.  Will cover for planned 7 day course.
   Currently on cefepime/cipro/flagyl/vanco which will cover broadly for
   pneumonia with flagyl for possible intraabdominal source given colitis
   on CT scan.  Final read of paracentesis fluid yesterday showed no
   organisms on stain.  Echo perplexing.  No left-sided failure, but
   severe right sided hypokinesis.  No PE on CTA.  Unclear how the right
   sided failure contributes to his low blood pressures.
   - restart midodrine
   - BCx's continue to be negative and c diff negative.
   - Continues on Levophed and still hypotense
   - Will hold on fluid resuscitation for now as he is already fluid
   overloaded by CXR and exam.
   - Has received 3U PRBC's, 3U FFP, and 1U cryo for resuscitation.
   # GIB/anemia.  Patient had two bloody bowel movements yesterday with a
   stable Hct.  We need to discuss possible sigmoidosocopy with him to
   know what intervention he would be emenable to if her were to bleed
   emergently..  Likely source was hemorrhoids given rectal pain.  Other
   differential includes ischemic colitis (with hypotension from other
   etiology), diverticulosis, hemorrhoids, AVMs, polyps.
   - Continue to follow Q8hr Hct and daily coags, fibrinogen and
   platelets.
   - Heme feels that significant hemolysis and DIC are unlikely, but
   suggest following daily DIC labs.
   - Can switch to PO PPI.
   - If acute bleed, needs to go to bleeding scan
   # Right heart failure: Patient has right heart failure on echo without
   evidence of extreme pulmonary hypertension.  No PE seen on CTA.  This
   is new from [**2142**].  Possibilities include severe fluid overload (off
   starling curve) or old infarct.
   - Maybe this will improve with dialysis and taking fluid off.
   - Alternatively consider measuring CVP/SvO2 before and after an albumin
   challenge to assess for improvement with increased intravascular
   volume.
   - Could consider swan-ganz catheter or vigileo for clearer
   interpretation of heart function.
   - Could also consider a cardiology consult.
   - In the unlikely event that this is wet Beri-Beri, can start thiamine.
   # ESRD.  On HD Tu/[**Doctor First Name **]/Sat, but missed Tuesday due to hypotension ->
   patient has fluid overload and widening anion gap. Goal is to get
   hopefully 3.5kg off today.  Plan for now is for dialysis on a PRN basis
   based on fluid and electrolyte status.
   # Lactic acidosis.  In setting of profound hypotension as above.
   Hypovolemic vs. sepsis vs. more isolated intestinal ischemia.  Had been
   coming down in the setting of improved
   # Abdominal pain/colitis.  Concerning for colitis on CT scan vs. bowel
   wall edema with total body anasarca.  C diff negative
   - Surgery: no acute issues from surgical standpoint
   - flagyl for colitis as above
   # Low cortisol
 continue stress-dosed steroids with fludrocort and
   hydrocort.
   # Cirrhosis.  LFTs relatively at baseline (bili slightly up compared to
   prior).  Mental status surprisingly good considering blood pressure -
   no current evidence of hepatic encephalopathy, though would be at risk
   with GIB.
   - Lactulose.
   - Liver following.
   # Elevated Troponin
 troponin stable this morning.  Was likely demand
   ischemia, pt without current chest pain
   FEN: Regular renal diet, watch lytes.
   Prophylaxis: boots; SQ heparin. PO PPI.
   Access:  Subclavian CVL, R art line, and 20 gauge
   Code:  Full Code
   Communication: Patient, sister [**Name (NI) 163**] [**Name (NI) 5464**], Cell number:
   [**Telephone/Fax (1) 10878**].
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-12-29**] 01:54 AM
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2146-01-01 16:24:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Dialyzed yesterday.
   Increased levophed 0.08--> 0.1
   Refused flu swab.
                               History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2145-12-30**] 12:03 AM
   Ciprofloxacin - [**2145-12-30**] 04:00 PM
   Linezolid - [**2145-12-30**] 11:30 PM
   Vancomycin - [**2145-12-31**] 10:48 AM
   Metronidazole - [**2146-1-1**] 11:30 AM
   Infusions:
   Norepinephrine - 0.22 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems: Review of systems is unchanged from admission except
   as noted below. Continues to describe mild abdominal pain.
   Flowsheet Data as of  [**2146-1-1**] 04:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 105 (93 - 118) bpm
   BP: 92/52(65) {47/27(35) - 103/64(77)} mmHg
   RR: 24 (14 - 24) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 5 (5 - 13)mmHg
   Total In:
                                                                  1,982 mL
                                                                  1,305 mL
   PO:
                                                                  1,180 mL
                                                                    840 mL
   TF:
   IVF:
                                                                    802 mL
                                                                    465 mL
   Blood products:
   Total out:
                                                                  4,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                 -2,518 mL
                                                                  1,305 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   Appears comfortable, no resp distress, speaks in full sentances. Very
   interactive but slightly confusing. Responds appropriately to
   questions, commands.
   RRR.
   Clear at apices, crackles bilat bases.
   Abd distended, NABS, soft, mildly tender to palpation. No guarding.
   Symmetric pitting edema [**3-16**]+. No visible rashes.
   Radial pulses symmetric.
   Moves all extremities.
   Labs / Radiology
   9.2 g/dL
   63 K/uL
   161 mg/dL
   10.0 mg/dL
   22 mEq/L
   4.5 mEq/L
   30 mg/dL
   97 mEq/L
   139 mEq/L
   26.5 %
   15.4 K/uL
        [image002.jpg]
                            [**2145-12-30**]  03:37 AM
                            [**2145-12-30**]  10:00 AM
                            [**2145-12-30**]  03:15 PM
                            [**2145-12-31**]  03:28 AM
                            [**2145-12-31**]  12:00 PM
                            [**2145-12-31**]  02:00 PM
                            [**2145-12-31**]  04:10 PM
                            [**2145-12-31**]  08:23 PM
                            [**2146-1-1**]  05:45 AM
                            [**2146-1-1**]  12:30 PM
   WBC
   7.2
   10.7
   12.9
   15.4
   Hct
   24.8
   26.0
   26.1
   26.6
   28.0
   28.6
   26.3
   26.5
   Plt
   63
   56
   68
   63
   Cr
   9.4
   11.4
   8.8
   10.0
   TropT
   0.27
   0.26
   Glucose
   128
   182
   230
   178
   199
   161
   Other labs: PT / PTT / INR:29.9/49.5/3.0, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:37/64, Alk Phos / T Bili:107/10.6,
   Differential-Neuts:65.5 %, Band:0.0 %, Lymph:23.7 %, Mono:8.0 %,
   Eos:2.1 %, Fibrinogen:118 mg/dL, Lactic Acid:3.8 mmol/L, LDH:268 IU/L,
   Ca++:9.7 mg/dL, Mg++:2.0 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   57 y/o man with HCV cirrhosis and ESRD, with persistent hypotension.
   No infectious symptoms or resp sxs. No resp failure.
   Issues:
   Some blood in stool but no hematemesis and no melena.  Ended up on two
   pressors.  Paracentesis negative so far for SBP; some ?colitis on CT
   but c diff negative.  Also got 7 units PRBCs with underwhelming
   evidence of significant GI bleed, and some lab evidence of hemolysis.
   Echo showed new blown RV; CTA negative for PE
          Shock, with increased levophed dose: hypotension likely
   multifactorial, including: cirrhosis with baseline hypotension,
   infection, adrenal insufficiency, infected, likely PAH (portopulmonary
   hypertension) with RVF. Echo did not suggest significant PAH but these
   can be wildly inaccurate
          Right heart strain of unclear etiology
          Apparent multifocal pneumonia, though asymptomatic, remains
   on room air
          Acute anemia (likely mix of bleeding and hemolysis, at risk
   for DIC)
          Elevated troponin- in setting of renal failure
          Lactic acidosis
          Adrenal insufficiency
          GI bleed
          Gram stain on peritoneal fluid was initially read as (+) but
   re-read as negative and low PMNs on ascites.
   Plan:
          Cont vanc/cefipime/cipro/tamiflu for coverage HCAP and h1n1
   empirically
          Dialysis again today
          Mycoplasma serologies: IgM pending.
          Appreciate hematology
s recs
          Appreciate hepatology
s help
          I believe he has continued slow GI bleeding
          Stress dose steroids continue
          Shock and RH failure perplexing. ScVO2 77%, which does not
   suggest severe cardiogenic or septic shock. [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
t think a right heart
   cath would change our management at this point, nor do I think he would
   agree to the procedure.
   Other issues as per ICU team note.
   Critically ill: 50 min
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-12-29**] 01:54 AM
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2146-01-02 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2146-1-1**] 05:36 PM
   - Hct stable throughout the day 0600: 23.3,  1200: 23.5,  and 1800:
   23.3,  2100 23.9
   - INR was 3.9 with 1800 labs and had a bloody stool; was given FFP and
   vit K and his INR was rechecked.  Monitored crits and were stable.
   - Patient becoming increasingly confused.  Had been refusing lactulose,
   but was convinced to take and dose increased.
   - Problems with compliance
   5mg VitK and 2U FFP with 5mg and 2U more this am
   Hct down this am 26.9 --> 23.9
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2145-12-30**] 11:30 PM
   Vancomycin - [**2145-12-31**] 10:48 AM
   Metronidazole - [**2146-1-1**] 11:30 AM
   Ciprofloxacin - [**2146-1-2**] 01:08 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-2**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (97
   HR: 88 (88 - 118) bpm
   BP: 82/34(45) {41/24(30) - 108/67(74)} mmHg
   RR: 19 (11 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 5 (5 - 11)mmHg
   Total In:
                                                                  1,947 mL
                                                                    356 mL
   PO:
                                                                  1,320 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    627 mL
                                                                     76 mL
   Blood products:
                                                                     40 mL
   Total out:
                                                                  3,000 mL
                                                                    400 mL
   Urine:
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                              -1,053   +1.8 through LOS mL
                                                                    -44 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: Awaken, alert, answers appropriately
   Eyes / Conjunctiva: Anicteric
   Cardiovascular: 2/6 systolic murmur best at LUSB
   Respiratory / Chest: Lungs clear, good air movement
   Abdominal: Distended, tender to palpation but not acute abdomen
   Extremities: Gross bilateral anasarca to hips, shins worse than thighs
   Labs / Radiology
   54 K/uL
   7.7 g/dL
   153 mg/dL
   7.9 mg/dL
   27 mEq/L
   4.1 mEq/L
   29 mg/dL
   98 mEq/L
   141 mEq/L
   23.9 %
   11.5 K/uL
        [image002.jpg]
                            [**2145-12-31**]  03:28 AM
                            [**2145-12-31**]  12:00 PM
                            [**2145-12-31**]  02:00 PM
                            [**2145-12-31**]  04:10 PM
                            [**2145-12-31**]  08:23 PM
                            [**2146-1-1**]  05:45 AM
                            [**2146-1-1**]  12:30 PM
                            [**2146-1-1**]  05:25 PM
                            [**2146-1-1**]  08:32 PM
                            [**2146-1-2**]  03:32 AM
   WBC
   10.7
   12.9
   15.4
   13.5
   11.5
   Hct
   26.6
   28.0
   28.6
   26.3
   26.5
   26.3
   26.9
   23.9
   Plt
   56
   68
   63
   61
   54
   Cr
   11.4
   8.8
   10.0
   7.9
   TropT
   0.26
   Glucose
   182
   230
   178
   199
   161
   153
   Other labs: PT / PTT / INR:55.1/66.7/6.1   UP FROM 6.1 THIS AM , CK /
   CKMB / Troponin-T:357/5/0.26   SLIGHTLY DOWN FROM 2.7 , ALT /
   AST:40/78   SLIGHTLY UP THIS AM , Alk Phos / T Bili:107/9.1   T bili
   DECREASED , Amylase / Lipase:/63   UP THIS MORNING ,
   Differential-Neuts:65.5 %, Band:0.0 %, Lymph:23.7 %, Mono:8.0 %,
   Eos:2.1 %, Fibrinogen:109 mg/dL   THIS AM, STABLE , Lactic Acid:3.8
   mmol/L, Albumin:2.8 g/dL   THIS AM , LDH:268 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.1 mg/dL  ELEVATED
   Imaging: CXR this am about the same
   [**1-1**] CXR
   left costophrenic angle is excluded from the field of view. The left
   subclavian central line terminates within the SVC. There is marked
   improvement in pulmonary edema.
   Microbiology: Mycoplasma pending this am
   [**12-30**] Cdiff and stool Cx negative
   [**12-29**] Para negative
   BCx x3 negative to date
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   57M with Hep C cirrhosis, ESRD on HD, presenting with hypotension and
   shock, elevated lactate, and drop in hematocrit, now seen to have blown
   RV on echo, SBP with no microorganisms, bloody BM
s and falling Hct,
   labs concerning for DIC vs hemolysis, multifocal PNA
s on chest CT.
   # Hypotension/shock. Pt remains on Levophed and Midodrine and we will
   continue to try to wean Levophed.  Etiology most likely septic shock
   due to infection [**3-15**] pneumonia seen on CT scan. Covering with broad
   spectrum ABx for PNA with Flagyl to cover possible intraabdominal
   source given colitis on CT scan.  Negative paracentesis. Echo with RV
   strain and hypokinesis, but without left-sided failure, and CvO2 77%.
   No PE on CTA.
   - Cefepime and [**Last Name (un) 1412**] are day [**6-17**], Cipro is day [**5-18**], Flagyl and Tamiflu
   are day [**4-17**]
   - Continue Midodrine
   - F/u Cx's although continue to be negative and Cdiff negative
   - F/u Mycloplasma serology
   - Could consider a R heart cath / Cards consult on Monday to assess the
   physiology of his R heart failure
   - Continue to wean Levophed as tolerated
   - No IVF's for today
   # GIB/anemia. Pt having bloody BM's, with stable Hct although slightly
   down this morning. We need to discuss possible sigmoidosocopy with him
   to know what intervention he would be amenable to if her were to bleed
   emergently.  Likely source was hemorrhoids given rectal pain.  Other
   differential includes ischemic colitis (with hypotension from other
   etiology), diverticulosis, hemorrhoids, AVMs, polyps. Is s/p 3u PRBC's
   and 7U FFP to date in the MICU.
   - F/u with GI today about whether they will ultimately do flex sig or
   not.
   - Continue to follow Q8hr Hct and daily coags, fibrinogen and platelets
   - Will recheck DIC panel today including peripheral smear
   - Continue supportive transfusions --> repeat Hct this am for 26 --> 23
   drop this am and if continued to drop will give PRBC's this morning
   - Reassess INR later this pm after FFP transfusion and consider
   transfusing more
   - Heme feels that significant hemolysis and DIC are unlikely, but
   suggest following daily DIC labs.
   - Need to touch base with heme again given acute jump in INR overnight
   - If acute bleed, needs to go to bleeding scan
   # Mental status: Pt seen to be occasionally confused, saying odd
   things, and sometimes belligerent, making aggressive/rude comments to
   staff, and other times non-compliant, taking off BP cuff, pressing the
   pump buttons, not staying in bed, etc. Could be related to hepatic
   encephalopathy.
   - Currently getting PO Lactulose, but has been seen to refuse these
   occasionally
   - Frequent reorientation and re-explanation
   - Need to touch base with Dr. [**Name (STitle) 10911**] about what pt
s overall goals
   and plans are.
   # Right heart failure: Patient has right heart failure on echo without
   evidence of extreme pulmonary hypertension.  No PE seen on CTA.  This
   is new from [**2142**].  Possibilities include severe fluid overload (off
   starling curve) or old infarct.
   - F/u with HD today about gently taking some fluid off as he is 1.8L
   positive through LOS, but as tolerated due to hypoTN
   - Could consider swan-ganz catheter or vigileo for clearer
   interpretation of heart function.
   # ESRD.  On HD Tu/[**Doctor First Name **]/Sat as outpatient, but here plan is HD as needed
   based on fluid and electrolyte statu. Had HD on Friday with 4.5L
   removed, dramatic improvement on CXR, and also on Saturday.
   - F/u renal today to see if he will get HD, then will need Vanc dose
   afterwards
   # Abdominal pain/colitis.  Concerning for colitis on CT scan vs. bowel
   wall edema with total body anasarca.  C diff negative
   - Surgery: no acute issues from surgical standpoint
   - flagyl for colitis as above
   # Low cortisol
 continue stress-dosed steroids with fludrocort and
   hydrocort.
   # Cirrhosis.  LFTs relatively at baseline (bili slightly up compared to
   prior).  Mental status surprisingly good considering blood pressure -
   no current evidence of hepatic encephalopathy, though would be at risk
   with GIB.
   - monitor mental status
   - Lactulose.
   - Liver following.
   # Elevated Troponin
 troponin stable this morning.  Was likely demand
   ischemia, pt without current chest pain
   FEN: Regular renal diet, watch lytes.
   Prophylaxis: not on boots; SQ heparin has been stopped . PO PPI.
   Access:  Subclavian CVL
   Code:  Full Code
   Communication: Patient, sister [**Name (NI) 163**] [**Name (NI) 5464**], Cell number:
   [**Telephone/Fax (1) 10878**].
   Disposition: pending clinical improvement

2146-01-02 10:55:00 Physician Attending Progress Note
Chief Complaint: shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2146-1-1**] 05:36 PM
   INR increased from 3.9--> 6.1.
   Bloody BM.
   Given FFP 2U, vit K 2mg PO.
   hct 26--> 23%
   Given FFP 2U again and vit K 5mg PO this AM.
   Behavior suggests delerium-- waxing and [**Doctor Last Name 42**] confusion and
   uncooperation with care.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2145-12-30**] 11:30 PM
   Vancomycin - [**2145-12-31**] 10:48 AM
   Ciprofloxacin - [**2146-1-2**] 01:08 AM
   Metronidazole - [**2146-1-2**] 07:36 AM
   Infusions:
   Norepinephrine - 0.13 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: Abdominal pain
   Genitourinary: No(t) Dysuria
   Integumentary (skin): Jaundice
   Psychiatric / Sleep: admits to confusion
   Pain: [**4-14**] Mild
   Pain location: abd, LE pain chronic
   Flowsheet Data as of  [**2146-1-2**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 97 (88 - 118) bpm
   BP: 92/47(81) {41/24(30) - 108/67(81)} mmHg
   RR: 23 (11 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 5 (5 - 5)mmHg
   Total In:
                                                                  1,948 mL
                                                                    833 mL
   PO:
                                                                  1,320 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    628 mL
                                                                    292 mL
   Blood products:
                                                                    301 mL
   Total out:
                                                                  3,000 mL
                                                                    400 mL
   Urine:
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                 -1,052 mL
                                                                    433 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), loudest
   LUSB
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   apices, Diminished: right base)
   Extremities: anasarca
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): place, person, knows home address, Movement:
   Purposeful, all extremities, Tone: Not assessed, Has appropriate and
   inappropriate comments- some confusing speech
   Labs / Radiology
   7.7 g/dL
   54 K/uL
   153 mg/dL
   7.9 mg/dL
   27 mEq/L
   4.1 mEq/L
   29 mg/dL
   98 mEq/L
   141 mEq/L
   23.9 %
   11.5 K/uL
        [image002.jpg]
                            [**2145-12-31**]  03:28 AM
                            [**2145-12-31**]  12:00 PM
                            [**2145-12-31**]  02:00 PM
                            [**2145-12-31**]  04:10 PM
                            [**2145-12-31**]  08:23 PM
                            [**2146-1-1**]  05:45 AM
                            [**2146-1-1**]  12:30 PM
                            [**2146-1-1**]  05:25 PM
                            [**2146-1-1**]  08:32 PM
                            [**2146-1-2**]  03:32 AM
   WBC
   10.7
   12.9
   15.4
   13.5
   11.5
   Hct
   26.6
   28.0
   28.6
   26.3
   26.5
   26.3
   26.9
   23.9
   Plt
   56
   68
   63
   61
   54
   Cr
   11.4
   8.8
   10.0
   7.9
   TropT
   0.26
   Glucose
   182
   230
   178
   199
   161
   153
   Other labs: PT / PTT / INR:55.1/66.7/6.1, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:40/78, Alk Phos / T Bili:107/9.1,
   Amylase / Lipase:/63, Differential-Neuts:65.5 %, Band:0.0 %, Lymph:23.7
   %, Mono:8.0 %, Eos:2.1 %, Fibrinogen:109 mg/dL, Lactic Acid:3.8 mmol/L,
   Albumin:2.8 g/dL, LDH:268 IU/L, Ca++:9.2 mg/dL, Mg++:2.0 mg/dL, PO4:5.1
   mg/dL
   Fluid analysis / Other labs: hct drifting down
   Microbiology: mycoplasma serology pending
   [**12-30**] CDiff, stool cx neg
   [**12-29**] para neg
   BC x 3 NGTD
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   57 y/o man with HCV cirrhosis and ESRD, with persistent hypotension.
   No infectious symptoms or resp sxs. No resp failure.
   Issues:
   Some blood in stool but no hematemesis and no melena.  Ended up on two
   pressors.  Paracentesis negative so far for SBP; some ?colitis on CT
   but c diff negative.  Also got 7 units PRBCs with underwhelming
   evidence of significant GI bleed, and some lab evidence of hemolysis.
   Echo showed new blown RV; CTA negative for PE
          Shock, with stable levophed dose: hypotension likely
   multifactorial, including: cirrhosis with baseline hypotension,
   infection, adrenal insufficiency, infected, likely PAH (portopulmonary
   hypertension) with RVF. Echo did not suggest significant PAH but these
   can be inaccurate
          Right heart failure of unclear etiology
          Apparent multifocal pneumonia, though asymptomatic, remains
   on room air
          Elevated troponin- in setting of renal failure
          Lactic acidosis
          Adrenal insufficiency
          GI bleed
          Gram stain on peritoneal fluid was initially read as (+) but
   re-read as negative and low PMNs on ascites.
   Plan:
          Cont vanc/cefipime/cipro/tamiflu for coverage HCAP and h1n1
   empirically
          Shock and RH failure perplexing. ScVO2 77%, which does not
   suggest severe cardiogenic or septic shock. [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
t think a right heart
   cath would change our management at this point, nor do I think he would
   agree to the procedure.
   1.       Hypotension. Multifactorial. Timing does not make sense for
   infection and pulm
infiltrates
 improved with HD. Empirically treated
   for PNA (abnl CT), SBP.
   Vanc, cefipime day 5, cipro day 4, flagyl and tamiflu day 3. Mycoplasma
   serologies: IgM pending.
   Remains pressor-dependent.
   RV failure- unclear etiology- echo on this admission showed RV kinetic
   failure but only mild PAH.
   Need to discuss further search for etiology with RHC to better
   understand pulmonary vasc disease, obtain cardiac index which will be
   useful diagnostically and prognostically.
   2.       GI bleed. Need to discuss with Dr [**Doctor Last Name 10910**] how to pursue
   workup/management for slow GI bleed.
   3.       Coagulopathy. Unclear etiology. INR sig rise. Supporting with
   vit K x 3d, FFP as needed for GI bleed. Repeat DIC panel, repeat
   peripheral smear. Discuss with hematology.
   4.       Adrenal insufficiency. Continue stress dose steroids.
   5.       HD likely tomorrow- renal guiding.
   6.       Cirrhosis, hepatic encephalopathy. Lactulose.
   7.       Compliance, self-destructive behavior. Not cooperating with
   care intermittently. Seems a danger to himself (turning off
   drips
pushing buttons on pumps- turned of levophed, gets out of bed).
   High fall risk. Removes all leads, BP cuff. Refused lactulose yesterday
   until evening dose. Tough situation because we can
t sedate or restrain
   him. Need plan with Dr [**Doctor Last Name 10910**].
   ICU Care
   Nutrition:
   Comments: Good PO intake
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2146-01-03 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypotension
   24 Hour Events:
   - Need to touch base with Heme about the coagulopathy, touch base with
   [**Doctor Last Name 10911**] re: flex sig or c-scope?
   - This am, disconnected his Levophed IV and reconnected it to his BP
   cuff. BP's down to 52/10 but asymptomatic. Now back on Levo
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-12-31**] 10:48 AM
   Ciprofloxacin - [**2146-1-2**] 02:57 PM
   Metronidazole - [**2146-1-2**] 08:17 PM
   Cefipime - [**2146-1-3**] 12:00 AM
   Infusions:
   Norepinephrine - 0.11 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-3**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.1
   HR: 88 (79 - 98) bpm
   BP: 103/59(69) {50/20(40) - 108/81(86)} mmHg
   RR: 9 (9 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,636 mL
                                                                    163 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    615 mL
                                                                    163 mL
   Blood products:
                                                                    301 mL
   Total out:
                                                                    400 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,236 mL
                                                                    163 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance:  On dialysis, awake, alert, answers appropriately
m going to the floor today at 10am
   Eyes / Conjunctiva: Anicteric
   Cardiovascular: 2/6 systolic murmur best at LUSB
   Respiratory / Chest: Lungs clear, good air movement
   Abdominal: Distended, tender to palpation but not acute abdomen
   Extremities: Gross bilateral anasarca to hips, shins worse than thighs
   Labs / Radiology
   63 K/uL
   7.9 g/dL
   153 mg/dL
   7.9 mg/dL
   27 mEq/L
   4.1 mEq/L
   29 mg/dL
   98 mEq/L
   141 mEq/L
   24.3 %
   13.0 K/uL
        [image002.jpg]
                            [**2145-12-31**]  02:00 PM
                            [**2145-12-31**]  04:10 PM
                            [**2145-12-31**]  08:23 PM
                            [**2146-1-1**]  05:45 AM
                            [**2146-1-1**]  12:30 PM
                            [**2146-1-1**]  05:25 PM
                            [**2146-1-1**]  08:32 PM
                            [**2146-1-2**]  03:32 AM
                            [**2146-1-2**]  11:20 AM
                            [**2146-1-2**]  09:14 PM
   WBC
   12.9
   15.4
   13.5
   11.5
   12.7
   13.0
   Hct
   28.0
   28.6
   26.3
   26.5
   26.3
   26.9
   23.9
   24.1
   24.3
   Plt
   68
   63
   61
   54
   72
   63
   Cr
   8.8
   10.0
   7.9
   Glucose
   178
   199
   161
   153
   Other labs: PT / PTT / INR:29.4/47.9/2.9, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:40/78, Alk Phos / T Bili:107/9.1,
   Amylase / Lipase:/63, Differential-Neuts:77.5 %, Band:0.0 %, Lymph:12.9
   %, Mono:9.2 %, Eos:0.1 %, Fibrinogen:100 mg/dL, Lactic Acid:3.8 mmol/L,
   Albumin:2.8 g/dL, LDH:268 IU/L, Ca++:9.2 mg/dL, Mg++:2.0 mg/dL, PO4:5.1
   mg/dL
   Imaging: [**1-2**] CXR: no focal consolidation
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   57M with Hep C cirrhosis, ESRD on HD, presenting with hypotension and
   shock, elevated lactate, and drop in hematocrit, now seen to have blown
   RV on echo, SBP with no microorganisms, bloody BM
s and falling Hct,
   labs concerning for DIC vs hemolysis, multifocal PNA
s on chest CT.
   # Hypotension/shock. Pt remains on Levophed and Midodrine and we will
   continue to try to wean Levophed.  Etiology most likely septic shock
   due to infection [**3-15**] pneumonia seen on CT scan. Covering with broad
   spectrum ABx for PNA with Flagyl to cover possible intraabdominal
   source given colitis on CT scan.  Negative paracentesis. Echo with RV
   strain and hypokinesis, but without left-sided failure, and CvO2 77%.
   No PE on CTA.
   - consult cardiology, though it will be difficult if patient not
   amenable.
   - Cefepime and [**Last Name (un) 1412**] are day [**7-18**], Cipro and Flagyl day [**6-17**], Tamiflu are
   day [**5-16**]
   - Continue Midodrine
   - F/u Cx's although continue to be negative and Cdiff negative
   - F/u Mycloplasma serology
   - Could consider a R heart cath / Cards consult on Monday to assess the
   physiology of his R heart failure
   - Continue to wean Levophed as tolerated
   - No IVF's for today
   # GIB/anemia. Pt having bloody BM's, with stable Hct although slightly
   down this morning. We need to discuss possible sigmoidosocopy with him
   to know what intervention he would be amenable to if her were to bleed
   emergently.  Likely source was hemorrhoids given rectal pain.  Other
   differential includes ischemic colitis (with hypotension from other
   etiology), diverticulosis, hemorrhoids, AVMs, polyps. Is s/p 3u PRBC's
   and 7U FFP to date in the MICU.
   - F/u with GI today about whether they will ultimately do flex sig or
   not.
   - Continue to follow Q8hr Hct and daily coags, fibrinogen and platelets
   - Will recheck DIC panel today including peripheral smear
   - Continue supportive transfusions --> repeat Hct this am for 26 --> 23
   drop this am and if continued to drop will give PRBC's this morning
   - Reassess INR later this pm after FFP transfusion and consider
   transfusing more
   - Heme feels that significant hemolysis and DIC are unlikely, but
   suggest following daily DIC labs.
   - Need to touch base with heme again given acute jump in INR overnight
   - If acute bleed, needs to go to bleeding scan
   # Mental status: Pt seen to be occasionally confused, saying odd
   things, and sometimes belligerent, making aggressive/rude comments to
   staff, and other times non-compliant, taking off BP cuff, pressing the
   pump buttons, not staying in bed, etc. Could be related to hepatic
   encephalopathy.
   - Currently getting PO Lactulose, but has been seen to refuse these
   occasionally
   - Frequent reorientation and re-explanation
   - Need to touch base with Dr. [**Name (STitle) 10911**] about what pt
s overall goals
   and plans are.
   # Right heart failure: Patient has right heart failure on echo without
   evidence of extreme pulmonary hypertension.  No PE seen on CTA.  This
   is new from [**2142**].  Possibilities include severe fluid overload (off
   starling curve) or old infarct.
   - F/u with HD today about gently taking some fluid off as he is 1.8L
   positive through LOS, but as tolerated due to hypoTN
   - Could consider swan-ganz catheter or vigileo for clearer
   interpretation of heart function.
   # ESRD.  On HD Tu/[**Doctor First Name **]/Sat as outpatient, but here plan is HD as needed
   based on fluid and electrolyte statu. Had HD on Friday with 4.5L
   removed, dramatic improvement on CXR, and also on Saturday.
   - F/u renal today to see if he will get HD, then will need Vanc dose
   afterwards
   # Abdominal pain/colitis.  Concerning for colitis on CT scan vs. bowel
   wall edema with total body anasarca.  C diff negative
   - Surgery: no acute issues from surgical standpoint
   - flagyl for colitis as above
   # Low cortisol
 continue stress-dosed steroids with fludrocort and
   hydrocort.
   # Cirrhosis.  LFTs relatively at baseline (bili slightly up compared to
   prior).  Mental status surprisingly good considering blood pressure -
   no current evidence of hepatic encephalopathy, though would be at risk
   with GIB.
   - monitor mental status
   - Lactulose.
   - Liver following.
   # Elevated Troponin
 troponin stable this morning.  Was likely demand
   ischemia, pt without current chest pain
   FEN: Regular renal diet, watch lytes.
   Prophylaxis: not on boots; SQ heparin has been stopped . PO PPI.
   Access:  Subclavian CVL
   Code:  Full Code
   Communication: Patient, sister [**Name (NI) 163**] [**Name (NI) 5464**], Cell number:
   [**Telephone/Fax (1) 10878**].
   Disposition: pending clinical improvement

2146-01-03 12:56:00 Physician Attending Progress Note
Chief Complaint: HOTN
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man with with HCV cirrhosis and ARF, admitted with HOTN.  Has had
   persistent HOTN requiring levophed.   Is asymptomatic even when SBP
   drops to 50s.  No clear cause of HOTN.  No evidence of ongoing
   infection for sepsis.  Also had BRBPR on admission and required total
   7U of PRBCs, but no other evidence of large bleed.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2146-1-2**] 02:57 PM
   Metronidazole - [**2146-1-2**] 08:17 PM
   Cefipime - [**2146-1-3**] 12:00 AM
   Vancomycin - [**2146-1-3**] 09:29 AM
   Infusions:
   Norepinephrine - 0.13 mcg/Kg/min
   Other ICU medications:
   Other medications:
   hydrocort/fludricort
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-3**] 12:56 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36
C (96.8
   HR: 77 (77 - 97) bpm
   BP: 91/52(61) {50/20(26) - 117/73(86)} mmHg
   RR: 17 (9 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,636 mL
                                                                    697 mL
   PO:
                                                                    720 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    615 mL
                                                                    457 mL
   Blood products:
                                                                    301 mL
   Total out:
                                                                    400 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,236 mL
                                                                    697 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   66 K/uL
   129 mg/dL
   9.9 mg/dL
   23 mEq/L
   4.1 mEq/L
   45 mg/dL
   98 mEq/L
   141 mEq/L
   26.5 %
   13.9 K/uL
        [image002.jpg]
                            [**2145-12-31**]  04:10 PM
                            [**2145-12-31**]  08:23 PM
                            [**2146-1-1**]  05:45 AM
                            [**2146-1-1**]  12:30 PM
                            [**2146-1-1**]  05:25 PM
                            [**2146-1-1**]  08:32 PM
                            [**2146-1-2**]  03:32 AM
                            [**2146-1-2**]  11:20 AM
                            [**2146-1-2**]  09:14 PM
                            [**2146-1-3**]  08:04 AM
   WBC
   12.9
   15.4
   13.5
   11.5
   12.7
   13.0
   13.9
   Hct
   28.0
   28.6
   26.3
   26.5
   26.3
   26.9
   23.9
   24.1
   24.3
   26.5
   Plt
   68
   63
   61
   54
   72
   63
   66
   Cr
   8.8
   10.0
   7.9
   9.9
   Glucose
   199
   161
   153
   129
   Other labs: PT / PTT / INR:29.4/47.9/2.9, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:50/83, Alk Phos / T Bili:131/9.4,
   Amylase / Lipase:/63, Differential-Neuts:78.5 %, Band:0.0 %, Lymph:12.2
   %, Mono:9.1 %, Eos:0.1 %, Fibrinogen:100 mg/dL, Lactic Acid:3.8 mmol/L,
   Albumin:2.8 g/dL, LDH:268 IU/L, Ca++:10.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:6.5 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   HOTN:  unclear etiology.  [**Month (only) 60**] be due to gross fluid overload causing RV
   dysfunction.
   Anemia:  BRBPR may be due to hemorrhoids.  Hct has been stable.
   Continued blood BMs.
   ESRD:  On HD
   Abd pain on admission:  Has been stable
   HCV cirrhosis:  continue lactulose
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2146-01-04 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypotension, liver failure, and GI bleed
   24 Hour Events:
   - This am, disconnected his Levophed IV and reconnected it to his BP
   cuff. BP's down to 52/10 but asymptomatic. Now back on Levo
   - Got dialysis yesterday, 3.5L removed, planned next HD for Wednesday.
   Renal will consider doing ultrafiltration tomorrow to remove extra
   fluid.
   - Leg pressure 127/65 while arm pressure 93/51. Maybe we should
   tolerate lower arm pressures?
   - Patient complaining of 'blurry' vision while levophed at 0.1, later
   tolerated that amount, but not lower. ?confused at 0.08.
   - hepatology: add rifaximin, no scope for now, not a good transplant
   candidate for time being.
   - dialysis center says dry weight is 112kg.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2146-1-2**] 02:57 PM
   Vancomycin - [**2146-1-3**] 09:29 AM
   Metronidazole - [**2146-1-3**] 08:41 PM
   Cefipime - [**2146-1-4**] 12:59 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-4**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 90 (77 - 103) bpm
   BP: 96/37(49) {65/34(41) - 127/69(79)} mmHg
   RR: 12 (9 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,777 mL
                                                                    249 mL
   PO:
                                                                  1,080 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    697 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  3,200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,423 mL
                                                                    249 mL
   Respiratory support
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   52 K/uL
   8.0 g/dL
   151 mg/dL
   7.4 mg/dL
   30 mEq/L
   3.7 mEq/L
   36 mg/dL
   98 mEq/L
   140 mEq/L
   25.5 %
   15.9 K/uL
        [image002.jpg]
                            [**2145-12-31**]  08:23 PM
                            [**2146-1-1**]  05:45 AM
                            [**2146-1-1**]  12:30 PM
                            [**2146-1-1**]  05:25 PM
                            [**2146-1-1**]  08:32 PM
                            [**2146-1-2**]  03:32 AM
                            [**2146-1-2**]  11:20 AM
                            [**2146-1-2**]  09:14 PM
                            [**2146-1-3**]  08:04 AM
                            [**2146-1-4**]  03:34 AM
   WBC
   12.9
   15.4
   13.5
   11.5
   12.7
   13.0
   13.9
   15.9
   Hct
   28.6
   26.3
   26.5
   26.3
   26.9
   23.9
   24.1
   24.3
   26.5
   25.5
   Plt
   68
   63
   61
   54
   72
   63
   66
   52
   Cr
   10.0
   7.9
   9.9
   7.4
   Glucose
   161
   153
   129
   151
   Other labs: PT / PTT / INR:42.7/55.9/4.5, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:52/75, Alk Phos / T Bili:125/9.7,
   Amylase / Lipase:/63, Differential-Neuts:78.5 %, Band:0.0 %, Lymph:12.2
   %, Mono:9.1 %, Eos:0.1 %, Fibrinogen:100 mg/dL, Lactic Acid:3.8 mmol/L,
   Albumin:3.0 g/dL, LDH:268 IU/L, Ca++:10.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:5.0 mg/dL
   Imaging: No new imaging.
   Microbiology: All cultures of stool, peritoneal fluid, and blood are
   negative to date
   Assessment and Plan
   57M with Hep C cirrhosis, ESRD on HD, presenting with hypotension and
   shock, elevated lactate, and drop in hematocrit, now seen to have blown
   RV on echo, SBP with no microorganisms, bloody BM
s and falling Hct,
   labs concerning for DIC vs hemolysis, multifocal PNA
s on chest CT.
   .
   # Hypotension/shock. Pt remains on Levophed and Midodrine and we have
   been limited in our ability to wean Levophed.  Our initial thought was
   that the hypotension was due to sepsis from a pulmonary source, based
   on CT scan.  We are giving Vanc/Cefepime/Cipro for PNA and Flagyl to
   cover possible intraabdominal source given colitis on CT scan.  With
   his dilated, hypokinetic RV on echo, another possibility would be poor
   cardiac output secondary to fluid overload causing RV dilatation.  He
   could be preload dependent and not getting enough output from his right
   ventricle.  Negative paracentesis. CvO2 77%.  No PE on CTA.  Mycoplasma
   IgM negative.
   - Talk to renal about doing ultrafiltration between dialysis days to
   have more fluid removed.
   - Cefepime and Vanc are day [**8-17**], Cipro and Flagyl day [**7-18**], Tamiflu are
   day [**6-15**]
   - Increase midodrine to 10mg TID so that levophed can hopefully be
   weaned further.
   - Infectious work-up negative to date.
   - We will hold off on R heart cath / Cards consult to assess the
   physiology of his R heart failure for now as this would probably not
   change management.
   - No IVF's for today
   .
   # GIB/anemia. Pt having intermittently bloody BM's, with stable Hct.
   Likely source was hemorrhoids given rectal pain.  No plan for
   sigmoidoscopy by hepatology for the time being.  Other differential
   includes ischemic colitis (with hypotension from other etiology),
   diverticulosis, hemorrhoids, AVMs, polyps.
   - Continue to follow daily Hct and coags, fibrinogen and platelets
   - Heme feels that significant hemolysis and DIC are unlikely, but
   suggest following daily DIC labs.
   - If acute bleed, needs to go to bleeding scan
   .
    # Mental status: Pt seen to be occasionally confused, saying odd
   things, and sometimes belligerent, making aggressive/rude comments to
   staff, and other times non-compliant, taking off BP cuff, pressing the
   pump buttons, not staying in bed, etc. Could be related to hepatic
   encephalopathy vs personality disorder.
   - Psych consult
   - Currently getting PO Lactulose, but has been intermittently refusing.
   - Start TID rifaximin 400mg.
   .
   # Right heart failure: Patient has right heart failure on echo without
   evidence of extreme pulmonary hypertension.  No PE seen on CTA.  This
   is new from [**2142**].  Possibilities include severe fluid overload (off
   starling curve) or old infarct.  It would be useful to get him drier to
   see if his RV function improves.  He had 3.5L off during dialysis
   today, but it will be difficult to make him significantly negative with
   QOD dialysis.  We would prefer to do ultrafiltration on non-dialysis
   days to get more fluid off.
   - f/u whether he could get ultrafiltration today
   - can consider another paracentesis for fluid removal.
   - Could consider swan-ganz catheter or vigileo for clearer
   interpretation of heart function.
   .
   # ESRD.  On HD Tu/[**Doctor First Name **]/Sat as outpatient, but here plan is HD as needed
   based on fluid and electrolyte status. Had HD on Friday, Saturday and
   today.
   - f/u renal recs.
   - vanco dosed after dialysis.
   .
   # Abdominal pain/colitis.  Concerning for colitis on CT scan vs. bowel
   wall edema with total body anasarca.  C diff negative
   - flagyl for colitis as above
   .
   # Low cortisol
 continue stress-dosed steroids with fludrocort and
   hydrocort.  Plan to wean once blood pressures improved.
   .
   # Cirrhosis.  LFTs relatively at baseline (bili slightly up compared to
   prior).  Mental status surprisingly good considering blood pressure -
   no current evidence of hepatic encephalopathy, though would be at risk
   with GIB.
   - monitor mental status
   - Lactulose and rifaximin
   - Liver following.
   .
   # Elevated Troponin
 troponin stabilized.  Was likely demand ischemia,
   pt without current chest pain
   FEN: Regular renal diet, watch lytes.
   Prophylaxis: not on boots; SQ heparin has been stopped as patient was
   refusing. PO PPI.
   Access:  Subclavian CVL
   Code:  Full Code
   Communication: Patient, sister [**Name (NI) 163**] [**Name (NI) 5464**], Cell number:
   [**Telephone/Fax (1) 10878**].
   Disposition: pending weaning levophed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2146-01-04 12:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man with HCV cirrhosis, ESRD on HD, admitted with persistent
   asymptomatic HOTN.  Getting daily UF for a few days.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2146-1-2**] 02:57 PM
   Vancomycin - [**2146-1-3**] 09:29 AM
   Metronidazole - [**2146-1-3**] 08:41 PM
   Cefipime - [**2146-1-4**] 12:59 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   nephrocaps
   cefepim
   hydrocort
   PPI
   tamiflu
   flagyl
   lactulose
   midrodine
   rifaxamin
   vit K.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-4**] 12:52 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 76 (76 - 103) bpm
   BP: 90/46(58) {61/34(41) - 127/65(79)} mmHg
   RR: 16 (9 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,777 mL
                                                                    663 mL
   PO:
                                                                  1,080 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    697 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                  3,200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,423 mL
                                                                    663 mL
   Respiratory support
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   52 K/uL
   151 mg/dL
   7.4 mg/dL
   30 mEq/L
   3.7 mEq/L
   36 mg/dL
   98 mEq/L
   140 mEq/L
   25.5 %
   15.9 K/uL
        [image002.jpg]
                            [**2145-12-31**]  08:23 PM
                            [**2146-1-1**]  05:45 AM
                            [**2146-1-1**]  12:30 PM
                            [**2146-1-1**]  05:25 PM
                            [**2146-1-1**]  08:32 PM
                            [**2146-1-2**]  03:32 AM
                            [**2146-1-2**]  11:20 AM
                            [**2146-1-2**]  09:14 PM
                            [**2146-1-3**]  08:04 AM
                            [**2146-1-4**]  03:34 AM
   WBC
   12.9
   15.4
   13.5
   11.5
   12.7
   13.0
   13.9
   15.9
   Hct
   28.6
   26.3
   26.5
   26.3
   26.9
   23.9
   24.1
   24.3
   26.5
   25.5
   Plt
   68
   63
   61
   54
   72
   63
   66
   52
   Cr
   10.0
   7.9
   9.9
   7.4
   Glucose
   161
   153
   129
   151
   Other labs: PT / PTT / INR:42.7/55.9/4.5, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:52/75, Alk Phos / T Bili:125/9.7,
   Amylase / Lipase:/63, Differential-Neuts:78.5 %, Band:0.0 %, Lymph:12.2
   %, Mono:9.1 %, Eos:0.1 %, Fibrinogen:100 mg/dL, Lactic Acid:3.8 mmol/L,
   Albumin:3.0 g/dL, LDH:268 IU/L, Ca++:10.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:5.0 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD).
   HOTN:  Trying to get fluid off with UF in between HD, to assess whether
   this improves HD function and BP.
   ID:  Tamiflu completed today.
   Vanco/Cefepime to be completed today.  Cipro flagyl completed tomorrow
   all empiric coverage.
   Anemia: Place on EPO if he is not getting.
   ESRD:  More aggressive fluid removal.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2146-01-05 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Renal: UF today 3.3kg off; plan for HD tomorrow (Wed), UF again on
   Fri; HD again on Sat.
   - Paracentesis on Thursday
   - Stopped Vanc, Cefepime, Tamiflu
   - Renal notes state he has been getting EPO with dialysis.  Can check
   with them tomorrow and see if he is actually doing this.
   - Increased Midodrine to 15mg tid
   - D/c flu precautions, VRE precautions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2146-1-2**] 02:57 PM
   Vancomycin - [**2146-1-3**] 09:29 AM
   Metronidazole - [**2146-1-3**] 08:41 PM
   Cefipime - [**2146-1-4**] 12:59 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-5**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 73 (70 - 103) bpm
   BP: 88/37(48) {51/24(31) - 107/85(67)} mmHg
   RR: 11 (9 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,591 mL
                                                                    194 mL
   PO:
                                                                  1,320 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    271 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  3,300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -1,709
                                                        LOS is approx even
                                                                    194 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   Physical Examination
   Sleeping, awoken. Lungs clear. Heart with systolic murmur at LSB. Abd
   distended and tender to palpation but not an acute abdomen.
   Anasarcatous legs and arms.
   Labs / Radiology
   55 K/uL
   8.1 g/dL
   151 mg/dL
   7.4 mg/dL
   30 mEq/L
   3.7 mEq/L
   36 mg/dL
   98 mEq/L
   140 mEq/L
   24.8 %
   17.7 K/uL
        [image002.jpg]
                            [**2146-1-1**]  05:45 AM
                            [**2146-1-1**]  12:30 PM
                            [**2146-1-1**]  05:25 PM
                            [**2146-1-1**]  08:32 PM
                            [**2146-1-2**]  03:32 AM
                            [**2146-1-2**]  11:20 AM
                            [**2146-1-2**]  09:14 PM
                            [**2146-1-3**]  08:04 AM
                            [**2146-1-4**]  03:34 AM
                            [**2146-1-5**]  06:11 AM
   WBC
   12.9
   15.4
   13.5
   11.5
   12.7
   13.0
   13.9
   15.9
   17.7
   Hct
   26.3
   26.5
   26.3
   26.9
   23.9
   24.1
   24.3
   26.5
   25.5
   24.8
   Plt
   68
   63
   61
   54
   72
   63
   66
   52
   55
   Cr
   10.0
   7.9
   9.9
   7.4
   Glucose
   161
   153
   129
   151
   Other labs: PT / PTT / INR:42.7/55.9/4.5      PENDING THIS AM , CK /
   CKMB / Troponin-T:357/5/0.26, ALT / AST:52/75, Alk Phos / T
   Bili:125/9.7, Amylase / Lipase:/63, Differential-Neuts:78.5 %, Band:0.0
   %, Lymph:12.2 %, Mono:9.1 %, Eos:0.1 %, Fibrinogen:100 mg/dL   OLD ,
   Lactic Acid:3.8 mmol/L, Albumin:3.0 g/dL, LDH:268 IU/L, Ca++:10.0
   mg/dL, Mg++:2.0 mg/dL, PO4:5.0 mg/dL
   Fluid analysis / Other labs: CHEMS AND LFTS PENDING THIS AM
   Imaging:
   Last CXR [**1-2**]:
   Cardiomediastinal contours are normal. There is almost resolution of
   pulmonary edema. Minimal areas of atelectases are in the left perihilar
   region. There is no evidence of focal consolidation concerning for
   pneumonia. There is no large pleural effusion or pneumothorax. Left
   subclavian catheter and right IJ remain in place with tips in the mid
   SVC.
   Microbiology: No new microbiology data.
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   57M with Hep C cirrhosis, ESRD on HD, presenting with hypotension and
   shock, elevated lactate, and drop in hematocrit, now seen to have blown
   RV on echo, SBP with no microorganisms, bloody BM
s and falling Hct,
   labs concerning for DIC vs hemolysis, multifocal PNA
s on chest CT.
   # Hypotension/shock. Pt remains on Levophed and Midodrine and we have
   been limited in our ability to wean Levophed.  Our initial thought was
   that the hypotension was due to sepsis from a pulmonary source, based
   on CT scan.  We are giving Vanc/Cefepime/Cipro for PNA and Flagyl to
   cover possible intra-abdominal source given colitis on CT scan.  With
   his dilated, hypokinetic RV on echo, another possibility would be poor
   cardiac output secondary to fluid overload causing RV dilatation.  He
   could be preload dependent and not getting enough output from his right
   ventricle. Renal has agreed to try ultrafiltration. Paracentesis to be
   considered. CvO2 77%.  No PE on CTA.  Mycoplasma IgM negative.
   - Continues on Levo but can try to d/c this per Renal recs today
   - Renal to do ultrafiltration today, HD Wed, Thurs break, Fri
   ultrafilt.  Sat HD
   - Has now completed 7d course of Vanc and Cefepime and have been
   stopped. Also has completed 5d course of Tamiflu.
   - Today to complete 7d course of Cipro and Flagyl
   - Increase midodrine to 15mg TID so that levophed can hopefully be
   weaned further.
   - We will hold off on R heart cath / Cards consult to assess the
   physiology of his R heart failure for now as this would probably not
   change management.
   - No IVF's for today
   # GIB/anemia. Pt having intermittently bloody BM's, with stable Hct.
   Likely source was hemorrhoids given rectal pain.  No plan for
   sigmoidoscopy by hepatology for the time being.  Other differential
   includes ischemic colitis (with hypotension from other etiology),
   diverticulosis, hemorrhoids, AVMs, polyps.
   - Continue to follow daily Hct and coags, fibrinogen and platelets
   - Heme feels that significant hemolysis and DIC are unlikely, but
   suggest following daily DIC labs.
   - If acute bleed, needs to go to bleeding scan
    # Mental status: Pt seen to be occasionally confused, saying odd
   things, and sometimes belligerent, making aggressive/rude comments to
   staff, and other times non-compliant, taking off BP cuff, pressing the
   pump buttons, not staying in bed, etc. Could be related to hepatic
   encephalopathy vs personality disorder.
   - Social work consult if needed
   - Currently getting PO Lactulose, but has been intermittently refusing.
   - Start TID rifaximin 400mg.
   # Right heart failure: Patient has right heart failure on echo without
   evidence of extreme pulmonary hypertension.  No PE seen on CTA.  This
   is new from [**2142**].  Possibilities include severe fluid overload (off
   starling curve) or old infarct.  It would be useful to get him drier to
   see if his RV function improves.
   - UF yesterday took off 3.3kg
   - HD today
   - Paracentesis for fluid removal on Thursday?
   - Could consider swan-ganz catheter or vigileo for clearer
   interpretation of heart function.
   # ESRD.  On HD Tu/[**Doctor First Name **]/Sat as outpatient, but here plan is HD as needed
   based on fluid and electrolyte status. - UF yesterday and HD today. Per
   renal, plan to do repeat UF/HD on Fri/Sat
   - f/u renal recs.
   - vanco dosed after dialysis.
   # Abdominal pain/colitis.  Concerning for colitis on CT scan vs. bowel
   wall edema with total body anasarca.  C diff negative
   - flagyl for colitis as above
   # Low cortisol
 continue stress-dosed steroids with fludrocort and
   hydrocort.  Plan to wean once blood pressures improved.
   # Cirrhosis.  LFTs relatively at baseline (bili slightly up compared to
   prior).  Mental status surprisingly good considering blood pressure -
   no current evidence of hepatic encephalopathy, though would be at risk
   with GIB.
   - monitor mental status
   - Lactulose and rifaximin
   - Liver following.
   # Elevated Troponin
 troponin stabilized.  Was likely demand ischemia,
   pt without current chest pain
   FEN: Regular renal diet, watch lytes.
   Prophylaxis: not on boots; SQ heparin has been stopped as patient was
   refusing. PO PPI.
   Access:  Subclavian CVL
   Code:  Full Code
   Communication: Patient, sister [**Name (NI) 163**] [**Name (NI) 5464**], Cell number:
   [**Telephone/Fax (1) 10878**].
   Disposition: pending weaning levophed

2146-01-05 12:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man with HCV cirrhosis, ESRD on HD, admitted for persistent HOTN.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2146-1-2**] 02:57 PM
   Vancomycin - [**2146-1-3**] 09:29 AM
   Metronidazole - [**2146-1-3**] 08:41 PM
   Cefipime - [**2146-1-4**] 12:59 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   nephrocaps
   calcium acetate
   hydrocortisone 50mg IV q6h
   fludricortisone
   prevacid
   flagyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-5**] 12:32 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 82 (70 - 97) bpm
   BP: 79/39(49) {51/24(31) - 104/85(62)} mmHg
   RR: 21 (9 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,591 mL
                                                                    248 mL
   PO:
                                                                  1,320 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    271 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                  3,300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,709 mL
                                                                    248 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   55 K/uL
   178 mg/dL
   9.4 mg/dL
   24 mEq/L
   4.2 mEq/L
   52 mg/dL
   95 mEq/L
   138 mEq/L
   24.8 %
   17.7 K/uL
        [image002.jpg]
                            [**2146-1-1**]  05:45 AM
                            [**2146-1-1**]  12:30 PM
                            [**2146-1-1**]  05:25 PM
                            [**2146-1-1**]  08:32 PM
                            [**2146-1-2**]  03:32 AM
                            [**2146-1-2**]  11:20 AM
                            [**2146-1-2**]  09:14 PM
                            [**2146-1-3**]  08:04 AM
                            [**2146-1-4**]  03:34 AM
                            [**2146-1-5**]  06:11 AM
   WBC
   12.9
   15.4
   13.5
   11.5
   12.7
   13.0
   13.9
   15.9
   17.7
   Hct
   26.3
   26.5
   26.3
   26.9
   23.9
   24.1
   24.3
   26.5
   25.5
   24.8
   Plt
   68
   63
   61
   54
   72
   63
   66
   52
   55
   Cr
   10.0
   7.9
   9.9
   7.4
   9.4
   Glucose
   161
   153
   129
   151
   178
   Other labs: PT / PTT / INR:46.7/56.2/5.0, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:51/63, Alk Phos / T Bili:127/8.6,
   Amylase / Lipase:/63, Differential-Neuts:78.5 %, Band:0.0 %, Lymph:12.2
   %, Mono:9.1 %, Eos:0.1 %, Fibrinogen:100 mg/dL, Lactic Acid:3.8 mmol/L,
   Albumin:3.0 g/dL, LDH:268 IU/L, Ca++:10.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:6.2 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   HOTN:  still unclear cause.  He is completely asymptomatic whils SBP is
   in 50s.  Will try and check thigh pressure again, and see
   if we can titrate levophed.
   Cortisol:  can stop steroids has he likely does not have adrenal
   insufficiency.
   Coaguloapathy:  INR drifting up, not responsive to vitamin K.  likely
   due to liver disease
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2146-01-07 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypotension
   24 Hour Events:
   - patient lightheaded sitting on commode while levophed wasn't running
   (drip ran out).  Still symptomatic afterwards at similar pressures to
   usual, levophed increased to 0.16 with improvement.
   - with increased hypotension, some worry for new infection.  Blood cx
   and cdiff sent.  New CXR.
   - Patient refused paracentesis.
   - U/S showed cirrhotic liver, ascites, patent hepatic vasculature,
   cholelithiasis with gallbladder edema likely [**3-15**] to ascites.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2146-1-5**] 08:00 PM
   Infusions:
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-7**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 85 (83 - 96) bpm
   BP: 95/42(54) {62/33(40) - 97/58(65)} mmHg
   RR: 11 (10 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.5 kg (admission): 112.5 kg
             Total In:
                                                                  1,004 mL
                                                                    170 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    404 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,004 mL
                                                                    170 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   56 K/uL
   7.6 g/dL
   170 mg/dL
   10.0 mg/dL
   25 mEq/L
   3.9 mEq/L
   64 mg/dL
   96 mEq/L
   139 mEq/L
   24.1 %
   15.4 K/uL
        [image002.jpg]
                            [**2146-1-1**]  08:32 PM
                            [**2146-1-2**]  03:32 AM
                            [**2146-1-2**]  11:20 AM
                            [**2146-1-2**]  09:14 PM
                            [**2146-1-3**]  08:04 AM
                            [**2146-1-4**]  03:34 AM
                            [**2146-1-5**]  06:11 AM
                            [**2146-1-6**]  02:59 AM
                            [**2146-1-6**]  01:08 PM
                            [**2146-1-7**]  05:02 AM
   WBC
   11.5
   12.7
   13.0
   13.9
   15.9
   17.7
   19.9
   15.4
   Hct
   26.9
   23.9
   24.1
   24.3
   26.5
   25.5
   24.8
   23.6
   25.1
   24.1
   Plt
   54
   72
   63
   66
   52
   55
   53
   56
   Cr
   7.9
   9.9
   7.4
   9.4
   7.9
   10.0
   Glucose
   153
   129
   151
   178
   119
   170
   Other labs: PT / PTT / INR:44.4/58.7/4.8, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:53/72, Alk Phos / T Bili:119/8.4,
   Amylase / Lipase:/63, Differential-Neuts:78.5 %, Band:0.0 %, Lymph:12.2
   %, Mono:9.1 %, Eos:0.1 %, Fibrinogen:67 mg/dL, Lactic Acid:4.6 mmol/L,
   Albumin:3.0 g/dL, LDH:268 IU/L, Ca++:10.6 mg/dL, Mg++:2.3 mg/dL,
   PO4:6.4 mg/dL
   Imaging: [**2146-1-6**] CXR
   IMPRESSION: No evidence of acute cardiopulmonary process is present.
   Improvement of widespread parenchymal abnormalities compared to
   [**2145-12-30**] is remarkable.
   Abdominal U/S [**2146-1-6**]
   FINDINGS: Grayscale examination demonstrates diffuse echogenic texture
   to the
   liver with a nodular contour, consistent with patient's known history
   of
   cirrhosis. No focal lesions are identified. There is no intra or extra
   hepatic biliary dilatation. The gallbladder demonstrates hyperechoic
   structures adjacent to the wall without internal vascularity, likely
   gallstones as seen on the prior CT. The patient was not moved due to
   discomfort. The gallbladder is relatively contracted and contains
   thickened
   edematous wall, likely from ascites and/or liver disease. The head of
   the
   pancreas is within normal limits. Portions of the body and tail are not
   visualized due to overlying bowel gas. A moderate amount of ascites is
   noted
   throughout the abdomen. A spot was marked overlying the right lower
   quadrant
   for paracentesis. The spleen is normal in size.
   DOPPLER EVALUATION: The main portal vein is patent with hepatopetal
   flow.
   The left and anterior and posterior right portal veins are patent with
   appropriate direction of flow. The hepatic veins are also patent. The
   main
   hepatic artery is patent with appropriate waveforms.
   IMPRESSION:
   1. Cirrhotic liver with moderate amount of ascites. A spot for
   paracentesis
   was marked overlying the right lower quadrant by the son[**Name (NI) 2139**].
   2. Patent hepatic vasculature.
   3. Cholelithiasis. Gallbladder wall edema likely secondary to ascites
   and/or
   liver dysfunction.
   Microbiology: Blood and stool cultures negative
   Assessment and Plan
   57M with Hep C cirrhosis, ESRD on HD, presenting with hypotension and
   shock, elevated lactate, and drop in hematocrit, now seen to have blown
   RV on echo, SBP with no microorganisms, bloody BM
s and falling Hct,
   labs concerning for DIC vs hemolysis, multifocal PNA
s on chest CT.
   .
    # Hypotension/shock. Pt remains on Levophed and Midodrine and we have
   been limited in our ability to wean Levophed.  Our initial thought was
   that the hypotension was due to sepsis from a pulmonary source, based
   on CT scan.  We treated with Vanc/Cefepime/Cipro for PNA and Flagyl to
   cover possible intra-abdominal source given colitis on CT scan.  With
   his dilated, hypokinetic RV on echo, another possibility would be poor
   cardiac output secondary to fluid overload causing RV dilatation.  He
   could be preload dependent and not getting enough output from his right
   ventricle. Renal has agreed to try ultrafiltration.. CvO2 67%.  No PE
   on CTA.  Mycoplasma IgM negative.  Abdominal u/s negative.
   - f/u blood, sputum, and c.diff
   - Continues on Levo ; try to wean as able.
   - Renal to do ultrafiltration on Fri,  Sat HD
 fluid off to see if
   improves RH function and hypotension
   - Paracentesis next week.  Patient refused procedure yesterday
   - Has now completed 7d course of Vanc, Cefepime, Cipro, Flagyl and have
   been stopped. Also has completed 5d course of Tamiflu.
   - Increased Midodrine to 20mg tid --> called by pharmacy: max dose/day
   of Midodrine is 40, sides include: paresthesias, dysurias, urinary
   retention, pruritis. Will keep as is for now and wait to see if any
   effects, if not would drop it back down.
   - We will hold off on R heart cath / Cards consult to assess the
   physiology of his R heart failure for now as this would probably not
   change management.
   - Consider bladder/prostate analysis
   - Consider neurology consult for autonomic neuropathy.
   .
   # GIB/anemia. Pt having intermittently bloody BM's, with stable Hct.
   Likely source was hemorrhoids given rectal pain.  No plan for
   sigmoidoscopy by hepatology for the time being.  Other differential
   includes ischemic colitis (with hypotension from other etiology),
   diverticulosis, hemorrhoids, AVMs, polyps.
    - Hep recs: therapeutic and Dx paracentesis, get lactate with
   arterial/venous blood gas,
   - Continue to follow daily Hct and coags, fibrinogen and platelets
   - Heme feels that significant hemolysis and DIC are unlikely, but
   suggest following daily DIC labs.
   - If acute bleed, needs to go to bleeding scan
   .
    # Mental status: Pt seen to be occasionally confused, saying odd
   things, and sometimes belligerent, making aggressive/rude comments to
   staff, and other times non-compliant, taking off BP cuff, pressing the
   pump buttons, not staying in bed, etc. Could be related to hepatic
   encephalopathy vs personality disorder.
   - Social work consult if needed
   - Currently getting PO Lactulose, but has been intermittently refusing.
   - Start TID rifaximin 400mg.
   .
   # Right heart failure: Patient has right heart failure on echo without
   evidence of extreme pulmonary hypertension.  No PE seen on CTA.  This
   is new from [**2142**].  Possibilities include severe fluid overload (off
   starling curve) or old infarct.  It would be useful to get him drier to
   see if his RV function improves.   HD removed 1.1L yesterday.
   - Continue ultrafiltration/ HD/ paracentesis for fluid removal.
   - Could consider swan-ganz catheter or vigileo for clearer
   interpretation of heart function.
   .
   # ESRD.  On HD Tu/[**Doctor First Name **]/Sat as outpatient, but here plan is HD as needed
   based on fluid and electrolyte status. - UF yesterday and HD today. Per
   renal, plan to do repeat UF/HD on Fri/Sat
   - Renal recs: Can d/c Fluorinef, stop pressors and out of ICU if
   possible.
   .
   # Abdominal pain/colitis.  Concerning for colitis on CT scan vs. bowel
   wall edema with total body anasarca.  C diff negative.  Pain likely d/t
   fluid
   .
   # Low cortisol
 continue stress-dosed steroids with fludrocort and
   hydrocort.  Plan to wean once blood pressures improved.
   .
   # Cirrhosis.  LFTs relatively at baseline (bili slightly up compared to
   prior).  Mental status surprisingly good considering blood pressure -
   no current evidence of hepatic encephalopathy, though would be at risk
   with GIB.
   - monitor mental status
   - Lactulose and rifaximin
   - Liver following.
   .
   # Elevated Troponin
 troponin stabilized.  Was likely demand ischemia,
   pt without current chest pain
   .
   FEN: Regular renal diet, watch lytes.
   Prophylaxis: not on boots; SQ heparin has been stopped as patient was
   refusing. PO PPI.
   Access:  Subclavian CVL
   Code:  Full Code
   Communication: Patient, sister [**Name (NI) 163**] [**Name (NI) 5464**], Cell number:
   [**Telephone/Fax (1) 10878**].
   Disposition: pending weaning levophed

2146-01-07 11:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man with ESRD on HD and ESLD, persistent HOTN.  Refused
   paracentesis yesterday.  Had to abort HD today due to HOTN.
   24 Hour Events:
 STOOL CULTURE - At [**2146-1-6**] 01:00 PM
 BLOOD CULTURED - At [**2146-1-6**] 01:00 PM
 ULTRASOUND - At [**2146-1-6**] 02:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2146-1-5**] 08:00 PM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   prevacid
   lactulose
   rifaxamin
   midodrine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-7**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.2
   HR: 85 (84 - 96) bpm
   BP: 84/40(48) {62/33(40) - 97/58(65)} mmHg
   RR: 14 (10 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.5 kg (admission): 112.5 kg
             Total In:
                                                                  1,004 mL
                                                                    388 mL
   PO:
                                                                    600 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    404 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,004 mL
                                                                    388 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   56 K/uL
   170 mg/dL
   10.0 mg/dL
   25 mEq/L
   3.9 mEq/L
   64 mg/dL
   96 mEq/L
   139 mEq/L
   24.1 %
   15.4 K/uL
        [image002.jpg]
                            [**2146-1-1**]  08:32 PM
                            [**2146-1-2**]  03:32 AM
                            [**2146-1-2**]  11:20 AM
                            [**2146-1-2**]  09:14 PM
                            [**2146-1-3**]  08:04 AM
                            [**2146-1-4**]  03:34 AM
                            [**2146-1-5**]  06:11 AM
                            [**2146-1-6**]  02:59 AM
                            [**2146-1-6**]  01:08 PM
                            [**2146-1-7**]  05:02 AM
   WBC
   11.5
   12.7
   13.0
   13.9
   15.9
   17.7
   19.9
   15.4
   Hct
   26.9
   23.9
   24.1
   24.3
   26.5
   25.5
   24.8
   23.6
   25.1
   24.1
   Plt
   54
   72
   63
   66
   52
   55
   53
   56
   Cr
   7.9
   9.9
   7.4
   9.4
   7.9
   10.0
   Glucose
   153
   129
   151
   178
   119
   170
   Other labs: PT / PTT / INR:44.4/58.7/4.8, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:53/72, Alk Phos / T Bili:119/8.4,
   Amylase / Lipase:/63, Differential-Neuts:78.5 %, Band:0.0 %, Lymph:12.2
   %, Mono:9.1 %, Eos:0.1 %, Fibrinogen:67 mg/dL, Lactic Acid:4.6 mmol/L,
   Albumin:3.0 g/dL, LDH:268 IU/L, Ca++:10.6 mg/dL, Mg++:2.3 mg/dL,
   PO4:6.4 mg/dL
   Microbiology: all negative thus far
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 CIRRHOSIS OF LIVER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   HOTN:  Is looking more confused, potentially septic.  Will do
   paracentesis for SBP, pan cx.  Start empiric vanco/zosyn and give 50mg
   albumin.
   ESRD on DH
   Cirrhosis: rifaxamin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2146-01-08 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2146-1-7**] 12:59 PM
   diagnostic paracentesis, fluid sent for cx's
   - paracentesis results: 85WBC; no PMN or orgs on gm stn.
   - renal: BP not tolerating UF so was stopped.  HD tomorrow per routine
   and vanc will be dose then.  Notify renal in pRBC or abio changes forHD
   tomorrow.
   - liver recs: nothing new
   - patient increasingly symptomatic and given 50g of albumin total.
   - started on Vanc/Zosyn for fevers, increased confusion/potentially
   septic
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2146-1-5**] 08:00 PM
   Vancomycin - [**2146-1-7**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-1-7**] 08:04 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-8**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 91 (85 - 106) bpm
   BP: 93/35(49) {80/26(38) - 151/112(122)} mmHg
   RR: 10 (10 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.5 kg (admission): 112.5 kg
    CVP: 8 (8 - 25)mmHg
   Total In:
                                                                  1,410 mL
                                                                    312 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    970 mL
                                                                    192 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                    1,410 --> 3.5L positive through LOS mL
                                                                    312 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   Awake, alert, complaining this morning. Lungs clear. Tachycardic with
   prominent systolic murmur. Abd distended, no BS
s heard. Gross anasarca
   in BLE
s and some in BUE
   Labs / Radiology
   50 K/uL
   7.6 g/dL
   112 mg/dL
   11.4 mg/dL
   25 mEq/L
   4.4 mEq/L
   72 mg/dL
   95 mEq/L
   140 mEq/L
   22.8 %
   13.9 K/uL
        [image002.jpg]
                            [**2146-1-2**]  03:32 AM
                            [**2146-1-2**]  11:20 AM
                            [**2146-1-2**]  09:14 PM
                            [**2146-1-3**]  08:04 AM
                            [**2146-1-4**]  03:34 AM
                            [**2146-1-5**]  06:11 AM
                            [**2146-1-6**]  02:59 AM
                            [**2146-1-6**]  01:08 PM
                            [**2146-1-7**]  05:02 AM
                            [**2146-1-8**]  05:55 AM
   WBC
   11.5
   12.7
   13.0
   13.9
   15.9
   17.7
   19.9
   15.4
   13.9
   Hct
   23.9
   24.1
   24.3
   26.5
   25.5
   24.8
   23.6
   25.1
   24.1
   22.8
   Plt
   54
   72
   63
   66
   52
   55
   53
   56
   50
   Cr
   7.9
   9.9
   7.4
   9.4
   7.9
   10.0
   11.4
   Glucose
   153
   129
   151
   178
   119
   170
   112
   Other labs: PT / PTT / INR:43.0/63.5/4.6   THIS AM , CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:46/83   THIS AM , Alk Phos / T
   Bili:102/10.4   TRENDING UP Dbili 4.6 I bili 5.8, Amylase / Lipase:/63,
   Differential-Neuts:65.1 %, Band:0.0 %, Lymph:22.6 %, Mono:8.0 %,
   Eos:4.0 %, Fibrinogen:67 mg/dL, Lactic Acid:4.6 mmol/L   [**1-6**] ,
   Albumin:3.0 g/dL, LDH:279 IU/L, Ca++:11.1 mg/dL   ELEVATED , Mg++:2.4
   mg/dL, PO4:7.4 mg/dL   ELEVATED
   Fluid analysis / Other labs: [**1-6**] fibrino 67 FDP 40-80
   [**1-8**] Vanc 21.8
   [**1-7**]  para WBC 85  P2 L14 Mono 0 Mesoth1 Macro81 Other 2
   RBC [**2091**]
   Tprot 0.4 Glucose 147 LDH 50 Alb <1
   SAAG >1.1 AFTP c/w cirrhosis
   Imaging: [**1-6**] CXR
   IMPRESSION: No evidence of acute cardiopulmonary process is present.
   Improvement of widespread parenchymal abnormalities compared to
   [**2145-12-30**] is remarkable.
   [**1-6**] Abd u/s
   1. Cirrhotic liver with moderate amount of ascites. A spot for
   paracentesis
   was marked overlying the right lower quadrant by the son[**Name (NI) 2139**].
   2. Patent hepatic vasculature.
   3. Cholelithiasis. Gallbladder wall edema likely secondary to ascites
   and/or liver dysfunction.
   Microbiology: [**1-8**] BCx pending
   [**1-7**] para fluid negative
   [**1-6**] Cdiff negative
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 CIRRHOSIS OF LIVER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   57M with Hep C cirrhosis, ESRD on HD, presenting with hypotension and
   shock, elevated lactate, and drop in hematocrit with initial concern
   for LGIB, now seen to have blown RV on echo, SBP with no
   microorganisms, labs concerning for DIC vs hemolysis, multifocal PNA
   on chest CT, and hypotension dependent on pressors.
    # Hypotension/shock. Pt remains on Levophed and Midodrine and we have
   been limited in our ability to wean Levophed.  Our initial thought was
   that the hypotension was due to sepsis from a pulmonary source, based
   on CT scan.  We treated with Vanc/Cefepime/Cipro for PNA and Flagyl to
   cover possible intra-abdominal source given colitis on CT scan. He
   finished these courses and was pulled off ABx, only to be restarted
   yesterday for spiking a fever. With his dilated, hypokinetic RV on
   echo, another possibility would be poor cardiac output secondary to
   fluid overload causing RV dilatation.  He could be preload dependent
   and not getting enough output from his right ventricle. Renal has
   agreed to try ultrafiltration. CvO2 67%.  No PE on CTA.  Mycoplasma IgM
   negative.  Abdominal u/s negative.
   - f/u blood, sputum, and c.diff
   - Continues on Levo, and will add Vasopressin today as well.
   - Was started on 2nd round of ABx with Vanc/Zosyn but after discussion
   his low likelihood of infection, will d/c these ABx and just watch for
   now
   - Will drop Midodrine back down to 15mg tid, as 20 tid was more than
   the maximum dose per day.
   - Consult Cardiology today to assess how much a part his RV failure is
   playing in his persistent hypotension.
   - Repeat full [**Last Name (un) 45**] stim test today
   # ESRD.  On HD Tu/[**Doctor First Name **]/Sat as outpatient, but here plan is HD as needed
   based on fluid and electrolyte status. HD had to be stopped the other
   day due to hypotension.
   - HD today with plan to pull some fluid off
   - Renal recs: Can d/c Fluorinef, stop pressors and out of ICU if
   possible.
   # GIB/anemia. Pt having intermittently bloody BM's, with stable Hct.
   Likely source was hemorrhoids given rectal pain.  No plan for
   sigmoidoscopy by hepatology for the time being.  Other differential
   includes ischemic colitis (with hypotension from other etiology),
   diverticulosis, hemorrhoids, AVMs, polyps.
   - Transfuse 1U PRBC
s today
   - Continue to follow daily Hct and coags, fibrinogen and platelets
   - Heme feels that significant hemolysis and DIC are unlikely, but
   suggest following daily DIC labs.
   - If acute bleed, needs to go to bleeding scan
   Other less active or stable issues:
    # Mental status: Pt was seen to be occasionally confused, saying odd
   things, and sometimes belligerent, making aggressive/rude comments to
   staff, and other times non-compliant, taking off BP cuff, pressing the
   pump buttons, not staying in bed, etc. Could be related to hepatic
   encephalopathy vs personality disorder. This seems to be less of an
   issue lately, with the pt just tired of being in the hospital, but
   still refusing some treatments and meds occasionally.
   - Currently getting PO Lactulose and Rifaximin, but has been
   intermittently refusing.
   # Right heart failure: Patient has right heart failure on echo without
   evidence of extreme pulmonary hypertension.  No PE seen on CTA.  This
   is new from [**2142**].  Possibilities include severe fluid overload (off
   starling curve) or old infarct.  It would be useful to get him drier to
   see if his RV function improves.
   - Continue ultrafiltration/ HD/ paracentesis for fluid removal.
   - Could consider swan-ganz catheter or vigileo for clearer
   interpretation of heart function.
   - Cards consult as above
   # Low cortisol
 Pt had gone through short stress-dosed steroids course
   due to low cortisol, with fludrocort and hydrocort but these were
   stopped after they did not make much difference. Will repeat full [**Last Name (un) 45**]
   stim test today.
   # Cirrhosis.  LFTs relatively at baseline (bili slightly up compared to
   prior).  Mental status surprisingly good considering blood pressure -
   no current evidence of hepatic encephalopathy, though would be at risk
   with GIB.
   - monitor mental status
   - Lactulose and rifaximin
   - Liver following.
   # Elevated Troponin
 troponin stabilized.  Was likely demand ischemia,
   pt without current chest pain
   FEN: Regular renal diet, watch lytes.
   Prophylaxis: not on boots due to bilateral leg pain from anasarca; SQ
   heparin has been stopped as patient was refusing. PO PPI.
   Access:  Subclavian CVL
   Code:  Full Code
   Communication: Patient, sister [**Name (NI) 163**] [**Name (NI) 5464**], Cell number:
   [**Telephone/Fax (1) 10878**].
   Disposition: pending weaning levophed

2146-01-08 13:09:00 Physician Attending Progress Note
Chief Complaint: Hypotension, cirrhosis, acute renal failure,
   coagulopathy, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had dialysis today.
   Paracentesis yesterday - 86 WBC's present.
   FDP elevated several days ago. Hct drifting down. Antibiotics started
   yesterday for presumed altered mental status.
   24 Hour Events:
 PARACENTESIS - At [**2146-1-7**] 12:59 PM
   diagnostic paracentesis, fluid sent for cx's
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2146-1-5**] 08:00 PM
   Vancomycin - [**2146-1-7**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-1-8**] 08:00 AM
   Infusions:
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2146-1-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-8**] 01:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 99 (88 - 106) bpm
   BP: 87/36(48) {79/26(38) - 151/112(122)} mmHg
   RR: 12 (9 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.5 kg (admission): 112.5 kg
   CVP: 13 (8 - 25)mmHg
   Total In:
                                                                  1,410 mL
                                                                    832 mL
   PO:
                                                                    240 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    970 mL
                                                                    472 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                      0 mL
                                                                  2,000 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,410 mL
                                                                 -1,168 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, Pupils dilated, No(t) Conjunctiva pale,
   No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), III/VI blowing systolic murmur at left base
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 3+ edema, Left lower
   extremity edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   50 K/uL
   112 mg/dL
   11.4 mg/dL
   25 mEq/L
   4.4 mEq/L
   72 mg/dL
   95 mEq/L
   140 mEq/L
   22.8 %
   13.9 K/uL
        [image002.jpg]
                            [**2146-1-2**]  03:32 AM
                            [**2146-1-2**]  11:20 AM
                            [**2146-1-2**]  09:14 PM
                            [**2146-1-3**]  08:04 AM
                            [**2146-1-4**]  03:34 AM
                            [**2146-1-5**]  06:11 AM
                            [**2146-1-6**]  02:59 AM
                            [**2146-1-6**]  01:08 PM
                            [**2146-1-7**]  05:02 AM
                            [**2146-1-8**]  05:55 AM
   WBC
   11.5
   12.7
   13.0
   13.9
   15.9
   17.7
   19.9
   15.4
   13.9
   Hct
   23.9
   24.1
   24.3
   26.5
   25.5
   24.8
   23.6
   25.1
   24.1
   22.8
   Plt
   54
   72
   63
   66
   52
   55
   53
   56
   50
   Cr
   7.9
   9.9
   7.4
   9.4
   7.9
   10.0
   11.4
   Glucose
   153
   129
   151
   178
   119
   170
   112
   Other labs: PT / PTT / INR:43.0/63.5/4.6, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:46/83, Alk Phos / T Bili:102/10.4,
   Amylase / Lipase:/63, Differential-Neuts:65.1 %, Band:0.0 %, Lymph:22.6
   %, Mono:8.0 %, Eos:4.0 %, Fibrinogen:67 mg/dL, Lactic Acid:4.6 mmol/L,
   Albumin:3.0 g/dL, LDH:279 IU/L, Ca++:11.1 mg/dL, Mg++:2.4 mg/dL,
   PO4:7.4 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 CIRRHOSIS OF LIVER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ==================================
   Hypotension worse following dialysis; dose of levophed increased.
   Patient asymptomatic. Will begin vasopressin. Patient has been treated
   in past with steroids without benefit. Will proceed with [**Last Name (un) 45**]
   stimulation test. Ask cardiology to consult re: Right heart failure.
   Acting preload dependent.
   FDP elevanted and fibrinogen down when last checked; repeat today. INR
   stable. Platelets low chronically; down slightly from recent baseline.
   Hct down - near transfusion threshold; will transfuse now in light of
   hypotension.
   Continues on lactulose re: hepatic encephalopathy. Mental status clear
   now. Will stop antibiotics
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments: Not applicable
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2146-01-09 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Refractory hypotension, ?DIC
   24 Hour Events:
   - discontinued vancomycin and zosyn
   - decreased midodrine to 15mg tid
   - started vasopressin
   - cards consult (re: right heart) --> would not rec PA cath, suggest
   repeat echo bc with resolution of acute pulm process (edema/PNA) may
   allow further characterization of RV and possible recovery. If still
   dysfxnal, rec cardiac MRI.  (TTE ordered)
   - [**Last Name (un) 45**]. stim. test --> normal [**Last Name (un) 45**] stim.
   - 3pm cbc and coags and dic panel: Ddimer 5593, hapto <20, FDP 10-40,
   fibrino 57.
   - Pt refused blood transfusions and cryo transfusions, couldn't be
   convinced
   - Heme re-consulted: acanthocytes on smear c/w chronic liver and renal
   disease. Occ. shistos and RBC fragments but not convincing for TTP. [**Month (only) 60**]
   have low grade DIC, may be result of occult infxn or sepsis. Recs: add
   on Coombs and retic count (done), get smear in am to eval for evolving
   TTP (done), check [**Hospital1 **]: hemolysis, DIC labs, fibrinogen, CBC, coags,
   bilirubin;  FFP for INR >2 (not done), cryo for fibrino <100, encourage
   him to accept transfusions.
   - Renal: HD today and next HD Tuesday per routine. Dose Vanc after HD.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-1-7**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-1-8**] 08:00 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2146-1-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-9**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 95 (83 - 107) bpm
   BP: 93/42(54) {66/35(45) - 101/55(66)} mmHg
   RR: 12 (9 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.5 kg (admission): 112.5 kg
    CVP: 6 (6 - 18)mmHg
   Total In:
                                                                  1,745 mL
                                                                    142 mL
   PO:
                                                                    960 mL
   TF:
   IVF:
                                                                    785 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                    500 mL
   Urine:
   NG:
   Stool:
                                                                    400 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                 -1,155 mL
                                                                   -358 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   Awake, alert.  Refused exam, saying he will only have physical exams by
   more senior doctors.
   Labs / Radiology
   25 K/uL
   6.9 g/dL
   161 mg/dL
   8.6 mg/dL
   30 mEq/L
   3.7 mEq/L
   45 mg/dL
   97 mEq/L
   141 mEq/L
   21.4 %
   11.6 K/uL
        [image002.jpg]
                            [**2146-1-2**]  09:14 PM
                            [**2146-1-3**]  08:04 AM
                            [**2146-1-4**]  03:34 AM
                            [**2146-1-5**]  06:11 AM
                            [**2146-1-6**]  02:59 AM
                            [**2146-1-6**]  01:08 PM
                            [**2146-1-7**]  05:02 AM
                            [**2146-1-8**]  05:55 AM
                            [**2146-1-8**]  03:29 PM
                            [**2146-1-9**]  03:30 AM
   WBC
   13.0
   13.9
   15.9
   17.7
   19.9
   15.4
   13.9
   11.8
   11.6
   Hct
   24.3
   26.5
   25.5
   24.8
   23.6
   25.1
   24.1
   22.8
   22.6
   21.4
   Plt
   63
   66
   52
   55
   53
   56
   50
   33
   25
   Cr
   9.9
   7.4
   9.4
   7.9
   10.0
   11.4
   8.6
   Glucose
   129
   151
   178
   119
   170
   112
   161
   Other labs: PT / PTT / INR:45.0/66.5/4.8, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:46/89, Alk Phos / T Bili:107/10.2,
   Amylase / Lipase:/63, Differential-Neuts:65.1 %, Band:0.0 %, Lymph:22.6
   %, Mono:8.0 %, Eos:4.0 %, D-dimer:5593 ng/mL, Fibrinogen:54 mg/dL,
   Lactic Acid:4.6 mmol/L, Albumin:3.0 g/dL, LDH:289 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.5 mg/dL  Cortisol 16.1->23.7->25.9
   Imaging: [**1-9**] CXR: unchanged
   Microbiology: [**2065-1-5**] blood cx pending
   Assessment and Plan
 COAGULOPATHY
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 CIRRHOSIS OF LIVER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   57M with Hep C cirrhosis, ESRD on HD, presenting with hypotension and
   shock, elevated lactate, and drop in hematocrit with initial concern
   for LGIB, now seen to have blown RV on echo, SBP with no
   microorganisms, labs concerning for DIC vs hemolysis, multifocal PNA
   on chest CT, and hypotension dependent on pressors.
    # Hypotension/shock. Patient now on levophed, vasopressin and
   midodrine, and we are still unable to wean off levophed completely.  We
   do not have a good explanation for his hypotension.  Our initial
   thought was sepsis from a pulmonary source, based on CT scan.  Got
   Vanc/Cefepime/Cipro for PNA and Flagyl to cover colitis on CT scan. He
   finished these courses and was pulled off ABx, only to be restarted 3
   days ago for spiking a fever, and then taken back off yesterday b/c
   there was no clear source. With his dilated, hypokinetic RV on echo,
   another possibility would be poor cardiac output secondary to fluid
   overload causing RV dilatation making him preload dependent, but he did
   not improve with 4 days of aggressive dialysis/ultrafiltration.  No PE
   on CTA.  [**Last Name (un) **] stim test within normal limits.  Cardiology consulted
   yesterday, recommended repeat echo after diuresis but no right heart
   cath for now.  Mr. [**Known lastname 5562**] is frustrated and would like to go home,
   saying he does not believe he can be totally dependent on a medication
   he didn
t take until 12 days ago.  In an attempt to respect his wishes,
   we stopped his vasopressors.  His pressures dropped to 60s/20s and he
   stopped mentating, simply repeating that he was
tired
 and not
   answering questions clearly.
   - Needs to continue on Levophed and Vasopressin.  If he stops IV
   pressors at this point, he would be at high risk of dying.
   - Considering his possible DIC picture, we would prefer to restart
   Vanc/Zosyn but the patient refused.  We will readdress this tomorrow
   with one more day of data to assess if he indeed appears infected.
   - Continue midodrine 15mg daily.
   - Repeat echo tomorrow.
   - Meeting with hepatology, heme, our team and patient to discuss goals
   of care tomorrow
   # ESRD.  On HD Tu/[**Doctor First Name **]/Sat as outpatient, but here we had been dialyzing
   as needed based on fluid and electrolyte status. We will return to his
   usual routine for now.
   - f/u renal recs.
   # GIB/anemia. His picture is concerning, with his very elevated INR,
   low fibrinogen, low platelets and low hematocrit.  If he were to bleed,
   he has very little reserve and he has recently had BRBPR.  Likely
   source of that blood was hemorrhoids given rectal pain.  No plan for
   sigmoidoscopy by hepatology for the time being.  Yesterday we wanted to
   transfuse 1U PRBC
s but he refused.
   - Readdress issue of transfusions with patient.
   - Continue to follow daily Hct and coags, fibrinogen and platelets
   - If acute bleed, needs to go to bleeding scan/try to give
   transfusions.
    # Mental status: Pt was seen to be occasionally confused, saying odd
   things, and sometimes belligerent, making aggressive/rude comments to
   staff, and other times non-compliant, taking off BP cuff, pressing the
   pump buttons, not staying in bed, etc. Could be related to hepatic
   encephalopathy vs personality disorder. This seems to be less of an
   issue lately, with the pt just tired of being in the hospital, but
   still refusing some treatments and meds occasionally.
   - Currently getting PO Lactulose and Rifaximin, but has been
   intermittently refusing.
   # Right heart failure: Patient has right heart failure on echo without
   evidence of extreme pulmonary hypertension.  No PE seen on CTA.  This
   is new from [**2142**].  Possibilities include severe fluid overload (off
   starling curve) or old infarct.  It would be useful to get him drier to
   see if his RV function improves.
   - f/u cards recs.
   - repeat echo tomorrow.
   # Low cortisol
 Pt had gone through short stress-dosed steroids course
   due to low cortisol, with fludrocort and hydrocort but these were
   stopped after they did not make much difference. [**Last Name (un) **] stim test normal.
   # Cirrhosis.  LFTs relatively at baseline (bili slightly up compared to
   prior).  Mental status surprisingly good considering blood pressure -
   no current evidence of hepatic encephalopathy, though would be at risk
   with GIB.
   - monitor mental status
   - Lactulose and rifaximin
   - Liver following.
   # Elevated Troponin
 troponin stabilized.  Was likely demand ischemia,
   pt without current chest pain
   FEN: Regular renal diet, watch lytes.
   Prophylaxis: not on boots due to bilateral leg pain from anasarca; no
   SQ heparin given low platelets/high INR. PO lansoprazole.
   Access:  Subclavian CVL
   Code:  Full Code
   Communication: Patient, sister [**Name (NI) 163**] [**Name (NI) 5464**], Cell number:
   [**Telephone/Fax (1) 10878**], daughter [**Name (NI) 5563**] [**Name (NI) 5564**] [**Telephone/Fax (1) 10920**].
   Disposition: pending weaning levophed

2146-01-09 14:46:00 Physician Attending Progress Note
Chief Complaint: Cirrhosis, hypotension, right heart failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   ACTH stimulation test WNL.
   Heme consulted re: possible DiC picture on labs. Patient refused
   transfusions. Fibrinogen down below 100 but patient refusing
   cryoprecipitate and blood transfusions.
   Dialysis limited by hypotension and patient's stated wishes to have
   only 2L off.
   Vasopressin started yesterday. Continues on levophed.
   WBC trending down. Hct and platelet count also down.
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-1-7**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-1-8**] 08:00 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2146-1-9**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-9**] 02:45 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 82 (82 - 107) bpm
   BP: 77/40(48) {66/37(45) - 101/77(81)} mmHg
   RR: 11 (10 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.5 kg (admission): 112.5 kg
   CVP: 6 (6 - 6)mmHg
   Total In:
                                                                  1,745 mL
                                                                    513 mL
   PO:
                                                                    960 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    785 mL
                                                                    273 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                    500 mL
   Urine:
   NG:
   Stool:
                                                                    400 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                 -1,155 mL
                                                                     13 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, No(t) Poor dentition,
   No(t) Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), III/VI systolic murmur throughout the precordium
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Scattered bilaterally, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Extremities: Right lower extremity edema: 3+ edema, Left lower
   extremity edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   6.9 g/dL
   25 K/uL
   161 mg/dL
   8.6 mg/dL
   30 mEq/L
   3.7 mEq/L
   45 mg/dL
   97 mEq/L
   141 mEq/L
   21.4 %
   11.6 K/uL
        [image002.jpg]
                            [**2146-1-2**]  09:14 PM
                            [**2146-1-3**]  08:04 AM
                            [**2146-1-4**]  03:34 AM
                            [**2146-1-5**]  06:11 AM
                            [**2146-1-6**]  02:59 AM
                            [**2146-1-6**]  01:08 PM
                            [**2146-1-7**]  05:02 AM
                            [**2146-1-8**]  05:55 AM
                            [**2146-1-8**]  03:29 PM
                            [**2146-1-9**]  03:30 AM
   WBC
   13.0
   13.9
   15.9
   17.7
   19.9
   15.4
   13.9
   11.8
   11.6
   Hct
   24.3
   26.5
   25.5
   24.8
   23.6
   25.1
   24.1
   22.8
   22.6
   21.4
   Plt
   63
   66
   52
   55
   53
   56
   50
   33
   25
   Cr
   9.9
   7.4
   9.4
   7.9
   10.0
   11.4
   8.6
   Glucose
   129
   151
   178
   119
   170
   112
   161
   Other labs: PT / PTT / INR:45.0/66.5/4.8, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:46/89, Alk Phos / T Bili:107/10.2,
   Amylase / Lipase:/63, Differential-Neuts:65.1 %, Band:0.0 %, Lymph:22.6
   %, Mono:8.0 %, Eos:4.0 %, D-dimer:5593 ng/mL, Fibrinogen:54 mg/dL,
   Lactic Acid:4.6 mmol/L, Albumin:3.0 g/dL, LDH:289 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 COAGULOPATHY
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 CIRRHOSIS OF LIVER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ===============================
   Patient feels that being in the hospital is not helping him and he is
   frustrated with the fact that we cannot give him definitive answers for
   what is wrong with him. He appears to have DIC now, and possibly a bone
   [**Last Name **] problem (although high retic count argues somewhat against a
   myelodysplastic syndrome). Antibiotics have not made a clear difference
   in his blood pressure or the DIC picture. After a lengthy discussion
   with him today, we have decided with him to stop the IV vasopressors
   (Midadrin will continue) to see if he will be symptomatic with
   hypotension. The patient was advised that he needs transfusions and
   that he is at risk for bleeding. He is adamant that he does not want
   transfusions (it seems in part related to the fact that his hepatitis
   may have been from an infection), and I have informed him that he could
   have spontaneous bleeding as his platelet count drop and his fibrinogen
   drops. I also told him that his Hct is half normal and if he has a
   signficant bleed, he may not have sufficient delivery of oxygen to his
   brain and heart to avoid organ damage.
   The team will contact the patient's sister who has been designated as
   his healthcare proxy to inform her of what is happening.
   I suggest that a meeting be arranged with the patient and his family
   tomorrow with the team and the patient's hepatologist, with whom the
   patient seems to have a close relationship, to discuss treatment goals
   further.
   I am trying to be responsive to the patient's autonomy and provide him
   with information to help him understand the implications of his
   decisions.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2146-01-10 06:47:00 Physician Resident Progress Note
Chief Complaint: Hypotension
   24 Hour Events:
   - during rounds did trial of stopping pressors.  Pressures dropped to
   60/20s and patient somnolent and confused.  Pressors re-started.
   - spoke with patient and sister about goals of care and our
   frustrations when he refuses treatments.  He wants more 'linear' care
   where we try one plan at a time instead of 'trying' multiple things out
   on him.  Does not want to stop aggressive care.
   - He would like to participate in a group meeting with all of his
   doctors.  Should include heme-onc and Dr. [**Name (NI) 9194**].  Asked patient
   to find a time when his daughter (HCP) can come, he had not heard back
   from her at 11:30pm.  Should f/u in AM.
   - refusing antibiotics because he already had a course of antibiotics.
   Will wait until after meeting.
   - pt complaining of GERD, already on lansoprazole.  Gave TUMS.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-1-7**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-1-8**] 08:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.25 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2146-1-9**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-10**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (96.9
   HR: 106 (71 - 106) bpm
   BP: 108/51(64) {48/28(33) - 110/77(81)} mmHg
   RR: 11 (10 - 22) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.5 kg (admission): 112.5 kg
             Total In:
                                                                  1,005 mL
                                                                    147 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    405 mL
                                                                    147 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                    505 mL
                                                                    147 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   47 K/uL
   7.2 g/dL
   119 mg/dL
   10.3 mg/dL
   27 mEq/L
   3.4 mEq/L
   50 mg/dL
   97 mEq/L
   141 mEq/L
   22.6 %
   13.9 K/uL
        [image002.jpg]
                            [**2146-1-3**]  08:04 AM
                            [**2146-1-4**]  03:34 AM
                            [**2146-1-5**]  06:11 AM
                            [**2146-1-6**]  02:59 AM
                            [**2146-1-6**]  01:08 PM
                            [**2146-1-7**]  05:02 AM
                            [**2146-1-8**]  05:55 AM
                            [**2146-1-8**]  03:29 PM
                            [**2146-1-9**]  03:30 AM
                            [**2146-1-10**]  03:09 AM
   WBC
   13.9
   15.9
   17.7
   19.9
   15.4
   13.9
   11.8
   11.6
   13.9
   Hct
   26.5
   25.5
   24.8
   23.6
   25.1
   24.1
   22.8
   22.6
   21.4
   22.6
   Plt
   66
   52
   55
   53
   56
   50
   33
   25
   47
   Cr
   9.9
   7.4
   9.4
   7.9
   10.0
   11.4
   8.6
   10.3
   Glucose
   129
   151
   178
   119
   170
   112
   161
   119
   Other labs: PT / PTT / INR:44.6/67.8/4.8, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:47/92, Alk Phos / T Bili:133/9.7,
   Amylase / Lipase:/63, Differential-Neuts:65.1 %, Band:0.0 %, Lymph:22.6
   %, Mono:8.0 %, Eos:4.0 %, D-dimer:5593 ng/mL, Fibrinogen:60 mg/dL,
   Lactic Acid:4.6 mmol/L, Albumin:3.0 g/dL, LDH:315 IU/L, Ca++:10.3
   mg/dL, Mg++:2.3 mg/dL, PO4:5.3 mg/dL
   Imaging:  CXR [**1-9**]
   One view. Comparison with [**2146-1-8**]. The lungs remain clear. Mediastinal
   structures are unchanged. A left subclavian catheter remains in place.
   Microbiology: All cultures NTD including those that were sent
   yesterday.
   Assessment and Plan
   57M with Hep C cirrhosis, ESRD on HD, presenting with hypotension and
   shock, elevated lactate, and drop in hematocrit with initial concern
   for LGIB, now seen to have blown RV on echo, SBP with no
   microorganisms, labs concerning for DIC vs hemolysis, multifocal PNA
   on chest CT, and hypotension dependent on pressors.
   .
    # Hypotension/shock. Patient now on levophed, vasopressin and
   midodrine, and we are still unable to wean off levophed completely.  We
   do not have a good explanation for his hypotension.  Our initial
   thought was sepsis from a pulmonary source, based on CT scan.  Got
   Vanc/Cefepime/Cipro for PNA and Flagyl to cover colitis on CT scan. He
   finished these courses and was pulled off ABx, only to be restarted 3
   days ago for spiking a fever, and then taken back off yesterday b/c
   there was no clear source. With his dilated, hypokinetic RV on echo,
   another possibility would be poor cardiac output secondary to fluid
   overload causing RV dilatation making him preload dependent, but he did
   not improve with 4 days of aggressive dialysis/ultrafiltration.  No PE
   on CTA.  [**Last Name (un) **] stim test within normal limits.  Cardiology consulted
   yesterday, recommended repeat echo after diuresis but no right heart
   cath for now.  Mr. [**Known lastname 5562**] is frustrated and would like to go home,
   saying he does not believe he can be totally dependent on a medication
   he didn
t take until 12 days ago.  In an attempt to respect his wishes,
   we stopped his vasopressors.  His pressures dropped to 60s/20s and he
   stopped mentating, simply repeating that he was
tired
 and not
   answering questions clearly.
   - Needs to continue on Levophed and Vasopressin.  If he stops IV
   pressors at this point, he would be at high risk of dying.
   - Considering his possible DIC picture, we would prefer to restart
   Vanc/Zosyn but the patient refused.  We will readdress this tomorrow
   with one more day of data to assess if he indeed appears infected.
   - Continue midodrine 15mg daily.
   - Repeat echo today
   - Meeting with hepatology, heme, our team and patient to discuss goals
   of care tomorrow
   - Albumin g/kg today
   .
   # ESRD.  On HD Tu/[**Doctor First Name **]/Sat as outpatient, but here we had been dialyzing
   as needed based on fluid and electrolyte status. We will return to his
   usual routine for now.
   - f/u renal recs.
   .
   # GIB/anemia. His picture is concerning, with his very elevated INR,
   low fibrinogen, low platelets and low hematocrit.  If he were to bleed,
   he has very little reserve and he has recently had BRBPR.  Likely
   source of that blood was hemorrhoids given rectal pain.  No plan for
   sigmoidoscopy by hepatology for the time being.  Yesterday we wanted to
   transfuse 1U PRBC
s but he refused.
   - Readdress issue of transfusions with patient.
   - Continue to follow daily Hct and coags, fibrinogen and platelets
   - If acute bleed, needs to go to bleeding scan/try to give
   transfusions.
   .
    # Mental status: Pt was seen to be occasionally confused, saying odd
   things, and sometimes belligerent, making aggressive/rude comments to
   staff, and other times non-compliant, taking off BP cuff, pressing the
   pump buttons, not staying in bed, etc. Could be related to hepatic
   encephalopathy vs personality disorder. This seems to be less of an
   issue lately, with the pt just tired of being in the hospital, but
   still refusing some treatments and meds occasionally.
   - Currently getting PO Lactulose and Rifaximin, but has been
   intermittently refusing.
   .
   # Right heart failure: Patient has right heart failure on echo without
   evidence of extreme pulmonary hypertension.  No PE seen on CTA.  This
   is new from [**2142**].  Possibilities include severe fluid overload (off
   starling curve) or old infarct.  It would be useful to get him drier to
   see if his RV function improves.  This did not seem to help
   - f/u cards recs.
   - repeat echo tomorrow.
   .
   # Low cortisol
 Pt had gone through short stress-dosed steroids course
   due to low cortisol, with fludrocort and hydrocort but these were
   stopped after they did not make much difference. [**Last Name (un) **] stim test normal.
   .
   # Cirrhosis.  LFTs relatively at baseline (bili slightly up compared to
   prior).  Mental status starting to decompensate.  [**Month (only) 60**] have hepatic
   encephalopathyand would be at risk with GIB.
   - monitor mental status
   - Lactulose and rifaximin
   - Liver following.
   .
   # Elevated Troponin
 troponin stabilized.  Was likely demand ischemia,
   pt without current chest pain
   .
   FEN: Regular renal diet, watch lytes.
   Prophylaxis: not on boots due to bilateral leg pain from anasarca; no
   SQ heparin given low platelets/high INR. PO lansoprazole.
   Access:  Subclavian CVL
   Code:  Full Code
   Communication: Patient, sister [**Name (NI) 163**] [**Name (NI) 5464**], Cell number:
   [**Telephone/Fax (1) 10878**], daughter [**Name (NI) 5563**] [**Name (NI) 5564**] [**Telephone/Fax (1) 10920**].
   Disposition: pending weaning levophed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-01-10 12:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man with cirrhosis, chronic renal failure on HD, persistent HOTN.
   24 Hour Events:
 BLOOD CULTURED - At [**2146-1-9**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-1-8**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   nephrocap
   levophed 0.25
   prevacid
   lactulose (refusing)
   rifaxamin
   thiamine
   midodrine 15mg tid
   vasopressin
   oxycodone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-10**] 12:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 107 (71 - 110) bpm
   BP: 92/28(43) {48/28(33) - 110/59(70)} mmHg
   RR: 12 (10 - 22) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.5 kg (admission): 112.5 kg
             Total In:
                                                                  1,005 mL
                                                                    245 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    405 mL
                                                                    245 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                    505 mL
                                                                    245 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.2 g/dL
   47 K/uL
   119 mg/dL
   10.3 mg/dL
   27 mEq/L
   3.4 mEq/L
   50 mg/dL
   97 mEq/L
   141 mEq/L
   22.6 %
   13.9 K/uL
        [image002.jpg]
                            [**2146-1-3**]  08:04 AM
                            [**2146-1-4**]  03:34 AM
                            [**2146-1-5**]  06:11 AM
                            [**2146-1-6**]  02:59 AM
                            [**2146-1-6**]  01:08 PM
                            [**2146-1-7**]  05:02 AM
                            [**2146-1-8**]  05:55 AM
                            [**2146-1-8**]  03:29 PM
                            [**2146-1-9**]  03:30 AM
                            [**2146-1-10**]  03:09 AM
   WBC
   13.9
   15.9
   17.7
   19.9
   15.4
   13.9
   11.8
   11.6
   13.9
   Hct
   26.5
   25.5
   24.8
   23.6
   25.1
   24.1
   22.8
   22.6
   21.4
   22.6
   Plt
   66
   52
   55
   53
   56
   50
   33
   25
   47
   Cr
   9.9
   7.4
   9.4
   7.9
   10.0
   11.4
   8.6
   10.3
   Glucose
   129
   151
   178
   119
   170
   112
   161
   119
   Other labs: PT / PTT / INR:44.6/67.8/4.8, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:47/92, Alk Phos / T Bili:133/9.7,
   Amylase / Lipase:/63, Differential-Neuts:65.1 %, Band:0.0 %, Lymph:22.6
   %, Mono:8.0 %, Eos:4.0 %, D-dimer:5593 ng/mL, Fibrinogen:60 mg/dL,
   Lactic Acid:4.6 mmol/L, Albumin:3.0 g/dL, LDH:315 IU/L, Ca++:10.3
   mg/dL, Mg++:2.3 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
 COAGULOPATHY
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 CIRRHOSIS OF LIVER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   refusing examination this morning.
   HOTN:  still unclear cause.  [**Last Name (un) 45**] stim test
   has been refusing antibiotics, albumin.
   will check echo results.
   ESRD:  HD tomorrow.
   family meeting today to discuss goals of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2146-01-11 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - plan for 2-3 units of blood as getting dialysis this morning and want
   to bump up intravascular volume
   - albumin started
   - family meeting was yesterday
   - ECHO normal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-1-8**] 08:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.28 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-11**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 103 (90 - 115) bpm
   BP: 89/54(62) {79/28(41) - 118/96(102)} mmHg
   RR: 13 (11 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.5 kg (admission): 112.5 kg
           Total In:
                                                                  2,100 mL
                                                                    762 mL
   PO:
                                                                  1,180 mL
                                                                    430 mL
   TF:
   IVF:
                                                                    712 mL
                                                                    229 mL
   Blood products:
                                                                    208 mL
                                                                    103 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,100 mL
                                                                    762 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   GEN: nad, resting in bed
   CV; rrr, no m/r/g
   Pulm: ctab
   Abd; distended, non-tender
   Extr: no edema
   Labs / Radiology
   72 K/uL
   7.1 g/dL
   143 mg/dL
   11.4 mg/dL
   25 mEq/L
   3.8 mEq/L
   59 mg/dL
   93 mEq/L
   137 mEq/L
   22.1 %
   17.0 K/uL
        [image002.jpg]
                            [**2146-1-4**]  03:34 AM
                            [**2146-1-5**]  06:11 AM
                            [**2146-1-6**]  02:59 AM
                            [**2146-1-6**]  01:08 PM
                            [**2146-1-7**]  05:02 AM
                            [**2146-1-8**]  05:55 AM
                            [**2146-1-8**]  03:29 PM
                            [**2146-1-9**]  03:30 AM
                            [**2146-1-10**]  03:09 AM
                             [**2146-1-11**]  03:43 AM
   WBC
   15.9
   17.7
   19.9
   15.4
   13.9
   11.8
   11.6
   13.9
   17.0
   Hct
   25.5
   24.8
   23.6
   25.1
   24.1
   22.8
   22.6
   21.4
   22.6
   22.1
   Plt
   52
   55
   53
   56
   50
   33
   25
   47
   72
   Cr
   7.4
   9.4
   7.9
   10.0
   11.4
   8.6
   10.3
   11.4
   Glucose
   151
   178
   119
   170
   112
   161
   119
   143
   Other labs: PT / PTT / INR:35.4/57.9/3.6 (down from 4.8), CK / CKMB /
   Troponin-T:357/5/0.26,
   (LFT
s stable elevated): ALT / AST:50/78, Alk Phos / T Bili:144/10.6,
   Amylase / Lipase:/63, Differential-Neuts:65.1 %, Band:0.0 %, Lymph:22.6
   %, Mono:8.0 %, Eos:4.0 %, D-dimer:5593 ng/mL, Fibrinogen:60 mg/dL,
   Lactic Acid:4.6 mmol/L, Albumin:3.0 g/dL, LDH:317 IU/L, Ca++:10.4
   mg/dL, Mg++:2.2 mg/dL, PO4:6.4 mg/dL
   No new micro
   No new CXR today or yesterday
   Assessment and Plan
 COAGULOPATHY
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 CIRRHOSIS OF LIVER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   57M with Hep C cirrhosis, ESRD on HD, presenting with hypotension and
   shock, elevated lactate, and drop in hematocrit with initial concern
   for LGIB, now seen to have blown RV on echo, SBP with no
   microorganisms, labs concerning for DIC vs hemolysis, multifocal PNA
   on chest CT, and hypotension dependent on pressors.
   .
    # Hypotension/shock. Patient now on levophed, vasopressin and
   midodrine, and we are still unable to wean off levophed completely.  We
   do not have a good explanation for his hypotension.  Our initial
   thought was sepsis from a pulmonary source, based on CT scan.  Got
   Vanc/Cefepime/Cipro for PNA and Flagyl to cover colitis on CT scan. He
   finished these courses and was pulled off ABx, only to be restarted 3
   days ago for spiking a fever, and then taken back off yesterday b/c
   there was no clear source. With his dilated, hypokinetic RV on echo,
   another possibility would be poor cardiac output secondary to fluid
   overload causing RV dilatation making him preload dependent, but he did
   not improve with 4 days of aggressive dialysis/ultrafiltration.  No PE
   on CTA.  [**Last Name (un) **] stim test within normal limits.  Cardiology consulted
   yesterday, recommended repeat echo after diuresis but no right heart
   cath for now.  Mr. [**Known lastname 5562**] is frustrated and would like to go home,
   saying he does not believe he can be totally dependent on a medication
   he didn
t take until 12 days ago.  In an attempt to respect his wishes,
   we stopped his vasopressors.  His pressures dropped to 60s/20s and he
   stopped mentating, simply repeating that he was
tired
 and not
   answering questions clearly. This morning, patient
s BP dropped to 60s
   during dialysis and he was confused, but then with an increase in
   pressors his BP went back up to the 90s.
   - Needs to continue on Levophed and Vasopressin.  If he stops IV
   pressors at this point, he would be at high risk of dying.
   - Pressors are higher now during dialysis; plan to wean back down
   post-dialysis. Try to turn off vasopressin, if tolerated.
   - Continue midodrine 15mg daily.
   - Albumin 25g IV daily for 3 days ([**1-10**], [**1-11**], [**1-12**])
   .
   # ESRD.  On HD Tu/[**Doctor First Name **]/Sat as outpatient, but here we had been dialyzing
   as needed based on fluid and electrolyte status. We will return to his
   usual routine for now.
   - HD today
   - f/u renal recs.
   - patient with forearm cramping, so follow electrolytes closely and
   replete prn, also PT consult
   .
   # GIB/anemia. His picture is concerning, with his very elevated INR,
   low fibrinogen, low platelets and low hematocrit.  If he were to bleed,
   he has very little reserve and he has recently had BRBPR.  Likely
   source of that blood was hemorrhoids given rectal pain.  No plan for
   sigmoidoscopy by hepatology for the time being.  Previously we wanted
   to transfuse 1U PRBC
s but he refused.
   - Readdress issue of transfusions with patient.
   - Continue to follow daily Hct. coags, fibrinogen and platelets (do not
   need daily hapto or FDP
   - If acute bleed, needs to go to bleeding scan/try to give
   transfusions.
   .
    # Mental status: Pt was seen to be occasionally confused, saying odd
   things, and sometimes belligerent, making aggressive/rude comments to
   staff, and other times non-compliant, taking off BP cuff, pressing the
   pump buttons, not staying in bed, etc. Could be related to hepatic
   encephalopathy vs personality disorder. This seems to be less of an
   issue lately, with the pt just tired of being in the hospital, but
   still refusing some treatments and meds occasionally.
   - Currently getting PO Lactulose and Rifaximin, but has been
   intermittently refusing.
   .
   # Right heart failure: Patient has right heart failure on echo without
   evidence of extreme pulmonary hypertension.  No PE seen on CTA.  This
   is new from [**2142**].  Possibilities include severe fluid overload (off
   starling curve) or old infarct.  It would be useful to get him drier to
   see if his RV function improves.  This did not seem to help
   - f/u cards recs.
   .
   # Low cortisol
 Pt had gone through short stress-dosed steroids course
   due to low cortisol, with fludrocort and hydrocort but these were
   stopped after they did not make much difference. [**Last Name (un) **] stim test normal.
   .
   # Cirrhosis.  LFTs relatively at baseline (bili slightly up compared to
   prior).  Mental status starting to decompensate.  [**Month (only) 60**] have hepatic
   encephalopathyand would be at risk with GIB.
   - monitor mental status
   - Lactulose and rifaximin
   - Liver following.
   .
   # Elevated Troponin
 troponin stabilized.  Was likely demand ischemia,
   pt without current chest pain
   .
   # Chronic pain
 oxycodone prn (increase frequency from q6h to q4h)
   - PT consult
   .
   FEN: Regular renal diet, watch lytes.
   Prophylaxis: not on boots due to bilateral leg pain from anasarca; no
   SQ heparin given low platelets/high INR. PO lansoprazole.
   Access:  Subclavian CVL
   Code:  Full Code
   Communication: Patient, sister [**Name (NI) 163**] [**Name (NI) 5464**], Cell number:
   [**Telephone/Fax (1) 10878**], daughter [**Name (NI) 5563**] [**Name (NI) 5564**] [**Telephone/Fax (1) 10920**].
   Disposition: pending weaning levophed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-01-11 12:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man with HCV cirrhosis and renal failure.  Admitted with
   persistent HOTN.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.32 mcg/Kg/min
   Other ICU medications:
   Other medications:
   calcium acetate
   thiamin
   rifaxamin
   midodrine 15mg tid
   albumin 25gm time 3 doses
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-11**] 12:44 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 109 (90 - 112) bpm
   BP: 109/74(80) {79/30(41) - 118/96(101)} mmHg
   RR: 13 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.5 kg (admission): 112.5 kg
           Total In:
                                                                  2,100 mL
                                                                  2,102 mL
   PO:
                                                                  1,180 mL
                                                                    610 mL
   TF:
   IVF:
                                                                    712 mL
                                                                    439 mL
   Blood products:
                                                                    208 mL
                                                                  1,053 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,100 mL
                                                                  2,102 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Distended, Tender: diffusely, firm
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   72 K/uL
   143 mg/dL
   11.4 mg/dL
   25 mEq/L
   3.8 mEq/L
   59 mg/dL
   93 mEq/L
   137 mEq/L
   22.1 %
   17.0 K/uL
        [image002.jpg]
                            [**2146-1-4**]  03:34 AM
                            [**2146-1-5**]  06:11 AM
                            [**2146-1-6**]  02:59 AM
                            [**2146-1-6**]  01:08 PM
                            [**2146-1-7**]  05:02 AM
                            [**2146-1-8**]  05:55 AM
                            [**2146-1-8**]  03:29 PM
                            [**2146-1-9**]  03:30 AM
                            [**2146-1-10**]  03:09 AM
                             [**2146-1-11**]  03:43 AM
   WBC
   15.9
   17.7
   19.9
   15.4
   13.9
   11.8
   11.6
   13.9
   17.0
   Hct
   25.5
   24.8
   23.6
   25.1
   24.1
   22.8
   22.6
   21.4
   22.6
   22.1
   Plt
   52
   55
   53
   56
   50
   33
   25
   47
   72
   Cr
   7.4
   9.4
   7.9
   10.0
   11.4
   8.6
   10.3
   11.4
   Glucose
   151
   178
   119
   170
   112
   161
   119
   143
   Other labs: PT / PTT / INR:35.4/57.9/3.6, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:50/78, Alk Phos / T Bili:144/10.6,
   Amylase / Lipase:/63, Differential-Neuts:65.1 %, Band:0.0 %, Lymph:22.6
   %, Mono:8.0 %, Eos:4.0 %, D-dimer:5593 ng/mL, Fibrinogen:113 mg/dL,
   Lactic Acid:4.6 mmol/L, Albumin:3.0 g/dL, LDH:317 IU/L, Ca++:10.4
   mg/dL, Mg++:2.2 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
 COAGULOPATHY
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 CIRRHOSIS OF LIVER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   HCV cirrhosis:  Increased ascites today.  consider paracentesis today
   or tomorrow.
   HOTN:  repleting with blood and albumin to see if his BP improves so we
   can wean down levophed and maybe wean off vasopressin.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2146-01-12 09:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   3 units of blood at dialysis
   Albumin given
   Vasopressin off, weaning Levophed off
    Oxycodone increased to q4h
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.28 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-12**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 110 (98 - 126) bpm
   BP: 89/51(60) {81/41(50) - 117/74(80)} mmHg
   RR: 15 (12 - 21) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.5 kg (admission): 112.5 kg
             Total In:
                                                                  3,282 mL
                                                                    472 mL
   PO:
                                                                  1,150 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    804 mL
                                                                    272 mL
   Blood products:
                                                                  1,328 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,282 mL
                                                                    472 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   Gen: Alert and oriented X3
   Chest: CTAB
   Heart: NRRR; no murmurs
   Abdomen: Distended and tender
   Ext: Anasarcatous ext; tender to palpation; warm and well perfused.
   Labs / Radiology
   56 K/uL
   8.8 g/dL
   128 mg/dL
   8.5 mg/dL
   29 mEq/L
   3.5 mEq/L
   33 mg/dL
   94 mEq/L
   139 mEq/L
   25.9 %
   15.3 K/uL
        [image002.jpg]
                            [**2146-1-5**]  06:11 AM
                            [**2146-1-6**]  02:59 AM
                            [**2146-1-6**]  01:08 PM
                            [**2146-1-7**]  05:02 AM
                            [**2146-1-8**]  05:55 AM
                            [**2146-1-8**]  03:29 PM
                            [**2146-1-9**]  03:30 AM
                            [**2146-1-10**]  03:09 AM
                             [**2146-1-11**]  03:43 AM
                             [**2146-1-12**]  04:01 AM
   WBC
   17.7
   19.9
   15.4
   13.9
   11.8
   11.6
   13.9
   17.0
   15.3
   Hct
   24.8
   23.6
   25.1
   24.1
   22.8
   22.6
   21.4
   22.6
   22.1
   25.9
   Plt
   55
   53
   56
   50
   33
   25
   47
   72
   56
   Cr
   9.4
   7.9
   10.0
   11.4
   8.6
   10.3
   11.4
   8.5
   Glucose
   178
   119
   170
   112
   161
   119
   143
   128
   Other labs: PT / PTT / INR:38.0/62.9/3.9, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:44/67, Alk Phos / T Bili:138/14.3,
   Amylase / Lipase:/63, Differential-Neuts:65.1 %, Band:0.0 %, Lymph:22.6
   %, Mono:8.0 %, Eos:4.0 %, D-dimer:5593 ng/mL, Fibrinogen:101 mg/dL,
   Lactic Acid:4.6 mmol/L, Albumin:3.0 g/dL, LDH:293 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Microbiology: [**2146-1-10**] 8:55 am CRE Screen
                               **FINAL REPORT [**2146-1-12**]**
      Carbapenase Resistant Enterobacteriaceae Screen (Final [**2146-1-12**]):
         No Carbapenem-Resistant or Carbapenemase-Producing
   Enterobacteriaceae
         Isolated.
   Assessment and Plan
   57M with Hep C cirrhosis, ESRD on HD, presenting with hypotension and
   shock, elevated lactate, and drop in hematocrit with initial concern
   for LGIB, now seen to have blown RV on echo, SBP with no
   microorganisms, labs concerning for DIC vs hemolysis, multifocal PNA
   on chest CT, and hypotension dependent on pressors.
   .
    # Hypotension/shock. Patient now on levophed, vasopressin and
   midodrine, and we are still unable to wean off levophed completely.  We
   do not have a good explanation for his hypotension.  Our initial
   thought was sepsis from a pulmonary source, based on CT scan.  Got
   Vanc/Cefepime/Cipro for PNA and Flagyl to cover colitis on CT scan. He
   finished these courses and was pulled off ABx, only to be restarted 3
   days ago for spiking a fever, and then taken back off yesterday b/c
   there was no clear source. With his dilated, hypokinetic RV on echo,
   another possibility would be poor cardiac output secondary to fluid
   overload causing RV dilatation making him preload dependent, but he did
   not improve with 4 days of aggressive dialysis/ultrafiltration.  No PE
   on CTA.  [**Last Name (un) **] stim test within normal limits.  Cardiology consulted
   yesterday, recommended repeat echo after diuresis but no right heart
   cath for now.  Mr. [**Known lastname 5562**] is frustrated and would like to go home,
   saying he does not believe he can be totally dependent on a medication
   he didn
t take until 12 days ago.  In an attempt to respect his wishes,
   we stopped his vasopressors.  His pressures dropped to 60s/20s and he
   stopped mentating, simply repeating that he was
tired
 and not
   answering questions clearly. This morning, patient
s BP dropped to 60s
   during dialysis and he was confused, but then with an increase in
   pressors his BP went back up to the 90s.
   - Needs to continue on Levophed.  Vasopressin stopped. If he stops IV
   pressors at this point, he would be at high risk of dying.
   - Pressors are higher now during dialysis; plan to wean back down
   post-dialysis.
   - Continue midodrine 15mg daily.
   - Albumin 25g IV daily for 3 days ([**1-10**], [**1-11**], [**1-12**])
   .
   # ESRD.  On HD Tu/[**Doctor First Name **]/Sat as outpatient, but here we had been dialyzing
   as needed based on fluid and electrolyte status. We will return to his
   usual routine for now.
   - HD today
   - f/u renal recs.
   - patient with forearm cramping, so follow electrolytes closely and
   replete prn, also PT consult
   .
   # GIB/anemia. His picture is concerning, with his very elevated INR,
   low fibrinogen, low platelets and low hematocrit.  If he were to bleed,
   he has very little reserve and he has recently had BRBPR.  Likely
   source of that blood was hemorrhoids given rectal pain.  No plan for
   sigmoidoscopy by hepatology for the time being.  Previously we wanted
   to transfuse 1U PRBC
s but he refused.
   - Readdress issue of transfusions with patient.
   - Continue to follow daily Hct. coags, fibrinogen and platelets (do not
   need daily hapto or FDP
   - If acute bleed, needs to go to bleeding scan/try to give
   transfusions.
   .
    # Mental status: Pt was seen to be occasionally confused, saying odd
   things, and sometimes belligerent, making aggressive/rude comments to
   staff, and other times non-compliant, taking off BP cuff, pressing the
   pump buttons, not staying in bed, etc. Could be related to hepatic
   encephalopathy vs personality disorder. This seems to be less of an
   issue lately, with the pt just tired of being in the hospital, but
   still refusing some treatments and meds occasionally.
   - Currently getting PO Lactulose and Rifaximin, but has been
   intermittently refusing.
   .
   # Right heart failure: Patient has right heart failure on echo without
   evidence of extreme pulmonary hypertension.  No PE seen on CTA.  This
   is new from [**2142**].  Possibilities include severe fluid overload (off
   starling curve) or old infarct.  His repeat ECHO did not show RH
   failure.
   - f/u cards recs.
   .
   # Low cortisol
 Pt had gone through short stress-dosed steroids course
   due to low cortisol, with fludrocort and hydrocort but these were
   stopped after they did not make much difference. [**Last Name (un) **] stim test normal.
   .
   # Cirrhosis.  LFTs relatively at baseline (bili slightly up compared to
   prior).  Mental status starting to decompensate.  [**Month (only) 60**] have hepatic
   encephalopathyand would be at risk with GIB.
   - monitor mental status
   - Lactulose and rifaximin
   - Liver following.
   .
   # Elevated Troponin
 troponin stabilized.  Was likely demand ischemia,
   pt without current chest pain
   .
   # Chronic pain
 oxycodone prn (increase frequency from q6h to q4h)
   - PT consult
   .
   FEN: Regular renal diet, watch lytes.
   Prophylaxis: not on boots due to bilateral leg pain from anasarca; no
   SQ heparin given low platelets/high INR. PO lansoprazole.
   Access:  Subclavian CVL
   Code:  Full Code
   Communication: Patient, sister [**Name (NI) 163**] [**Name (NI) 5464**], Cell number:
   [**Telephone/Fax (1) 10878**], daughter [**Name (NI) 5563**] [**Name (NI) 5564**] [**Telephone/Fax (1) 10920**].
   Disposition: pending weaning levophed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-01-12 12:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man with HCV cirrhosis, persistent HOTN.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.28 mcg/Kg/min
   Other ICU medications:
   Other medications:
   prevacid
   lactulose
   rifaxamin
   thiamine
   midodrine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-12**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 109 (98 - 137) bpm
   BP: 104/56(68) {77/40(49) - 110/74(80)} mmHg
   RR: 18 (12 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.5 kg (admission): 112.5 kg
             Total In:
                                                                  3,282 mL
                                                                    554 mL
   PO:
                                                                  1,150 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    804 mL
                                                                    354 mL
   Blood products:
                                                                  1,328 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,282 mL
                                                                    554 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Distended, Tender:
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.8 g/dL
   56 K/uL
   128 mg/dL
   8.5 mg/dL
   29 mEq/L
   3.5 mEq/L
   33 mg/dL
   94 mEq/L
   139 mEq/L
   25.9 %
   15.3 K/uL
        [image002.jpg]
                            [**2146-1-5**]  06:11 AM
                            [**2146-1-6**]  02:59 AM
                            [**2146-1-6**]  01:08 PM
                            [**2146-1-7**]  05:02 AM
                            [**2146-1-8**]  05:55 AM
                            [**2146-1-8**]  03:29 PM
                            [**2146-1-9**]  03:30 AM
                            [**2146-1-10**]  03:09 AM
                             [**2146-1-11**]  03:43 AM
                             [**2146-1-12**]  04:01 AM
   WBC
   17.7
   19.9
   15.4
   13.9
   11.8
   11.6
   13.9
   17.0
   15.3
   Hct
   24.8
   23.6
   25.1
   24.1
   22.8
   22.6
   21.4
   22.6
   22.1
   25.9
   Plt
   55
   53
   56
   50
   33
   25
   47
   72
   56
   Cr
   9.4
   7.9
   10.0
   11.4
   8.6
   10.3
   11.4
   8.5
   Glucose
   178
   119
   170
   112
   161
   119
   143
   128
   Other labs: PT / PTT / INR:38.0/62.9/3.9, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:44/67, Alk Phos / T Bili:138/14.3,
   Amylase / Lipase:/63, Differential-Neuts:65.1 %, Band:0.0 %, Lymph:22.6
   %, Mono:8.0 %, Eos:4.0 %, D-dimer:5593 ng/mL, Fibrinogen:101 mg/dL,
   Lactic Acid:4.6 mmol/L, Albumin:3.0 g/dL, LDH:293 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 COAGULOPATHY
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 CIRRHOSIS OF LIVER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   Persistent HOTN:  will expand intravascular volume with additional 2U
   of blood.
   Plan on paracentesis and will give albumin with it.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2146-01-13 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2146-1-12**] 05:00 PM
   - parcentesis, 7L off, pressure held in 100s
   - received 2 units blood
   - renal: HD tomorrow, cont midodrine, cont phoslo
   - hepatology: give colloid if/when remove fluid by para, given
   hypotension
   - On 0.32 mcg/kg/hr Levophed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.32 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-13**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 107 (94 - 137) bpm
   BP: 99/45(58) {77/39(49) - 128/63(99)} mmHg
   RR: 14 (11 - 24) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.5 kg (admission): 112.5 kg
           Total In:
                                                                  1,887 mL
                                                                    285 mL
   PO:
                                                                    460 mL
           TF:
   IVF:
                                                                    677 mL
                                                                    235 mL
   Blood products:
                                                                    750 mL
                                                                     50 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,887 mL
                                                                    285 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   GEN: nad, resting in bed
   CV; rrr, no m/r/g
   Pulm: ctab
   Abd; distended, R sided and epigastric tenderness
   Extr: 2+ edema
   Labs / Radiology
   62 K/uL
   10.4 g/dL
   154 mg/dL
   10.0 mg/dL
   26 mEq/L
   3.6 mEq/L
   38 mg/dL
   95 mEq/L
   139 mEq/L
   30.7 %
   16.2 K/uL
        [image002.jpg]
                            [**2146-1-6**]  01:08 PM
                            [**2146-1-7**]  05:02 AM
                            [**2146-1-8**]  05:55 AM
                            [**2146-1-8**]  03:29 PM
                            [**2146-1-9**]  03:30 AM
                            [**2146-1-10**]  03:09 AM
                             [**2146-1-11**]  03:43 AM
                             [**2146-1-12**]  04:01 AM
                             [**2146-1-12**]  10:19 PM
                             [**2146-1-13**]  02:51 AM
   WBC
   15.4
   13.9
   11.8
   11.6
   13.9
   17.0
   15.3
   16.2
   Hct
   25.1
   24.1
   22.8
   22.6
   21.4
   22.6
   22.1
   25.9
   30.6
   30.7
   Plt
   56
   50
   33
   25
   47
   72
   56
   62
   Cr
   10.0
   11.4
   8.6
   10.3
   11.4
   8.5
   10.0
   Glucose
   170
   112
   161
   119
   143
   128
   154
   Other labs: PT / PTT / INR:39.9/63.9/4.2, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:44/67, Alk Phos / T Bili:149/14.7,
   Amylase / Lipase:/63, Differential-Neuts:65.1 %, Band:0.0 %, Lymph:22.6
   %, Mono:8.0 %, Eos:4.0 %, D-dimer:5593 ng/mL, Fibrinogen:74 mg/dL,
   Lactic Acid:4.6 mmol/L, Albumin:3.0 g/dL, LDH:322 IU/L, Ca++:10.4
   mg/dL, Mg++:2.1 mg/dL, PO4:5.3 mg/dL
   Fluid analysis / Other labs: Fibrinogen: 74
   Microbiology: [**1-12**] Peritoneal fluid:
      GRAM STAIN (Final [**2146-1-12**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      FLUID CULTURE (Preliminary):
      ANAEROBIC CULTURE (Preliminary):
   BCx [**1-8**], [**1-9**], [**1-10**] ntd
   M. PNEUMONIAE AB IGG, EIA     3.55  H
   M. PNEUMONIAE AB IGM, EIA     427 (nl)
   Assessment and Plan
 COAGULOPATHY
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 CIRRHOSIS OF LIVER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   57M with Hep C cirrhosis, ESRD on HD, presenting with hypotension and
   shock, elevated lactate, and drop in hematocrit with initial concern
   for LGIB, now seen to have blown RV on echo, SBP with no
   microorganisms, labs concerning for DIC vs hemolysis, multifocal PNA
   on chest CT, and hypotension dependent on pressors.
   .
    # Hypotension/shock. Patient now on levophed, vasopressin and
   midodrine, and we are still unable to wean off levophed completely.  We
   do not have a good explanation for his hypotension.  Our initial
   thought was sepsis from a pulmonary source, based on CT scan.  Got
   Vanc/Cefepime/Cipro for PNA and Flagyl to cover colitis on CT scan. He
   finished these courses and was pulled off ABx, only to be restarted 3
   days ago for spiking a fever, and then taken back off yesterday b/c
   there was no clear source. With his dilated, hypokinetic RV on echo,
   another possibility would be poor cardiac output secondary to fluid
   overload causing RV dilatation making him preload dependent, but he did
   not improve with 4 days of aggressive dialysis/ultrafiltration.  No PE
   on CTA.  [**Last Name (un) **] stim test within normal limits.  Cardiology consulted
   yesterday, recommended repeat echo after diuresis but no right heart
   cath for now.  Mr. [**Known lastname 5562**] is frustrated and would like to go home,
   saying he does not believe he can be totally dependent on a medication
   he didn
t take until 12 days ago.  In an attempt to respect his wishes,
   we stopped his vasopressors.  His pressures dropped to 60s/20s and he
   stopped mentating, simply repeating that he was
tired
 and not
   answering questions clearly. This morning, patient
s BP dropped to 60s
   during dialysis and he was confused, but then with an increase in
   pressors his BP went back up to the 90s.
   - Continue on Levophed, wean as tolerated with goal MAP >55.
   - Pressors are higher now during dialysis; plan to wean back down
   post-dialysis. Try to turn off vasopressin, if tolerated.
   - Continue midodrine 15mg daily.
   - Give Albumin 50g today.  Completed 3 days of Albumin 25g IV daily for
   3 days ([**1-10**], [**1-11**], [**1-12**])
   .
   # ESRD.  On HD Tu/[**Doctor First Name **]/Sat as outpatient, but here we had been dialyzing
   as needed based on fluid and electrolyte status. We will return to his
   usual routine for now.
   - HD today
   - f/u renal recs.
   - patient with forearm cramping, so follow electrolytes closely and
   replete prn, also PT consult
   .
   # Leukocytosis:  No known cause, will r/o C. diff with repeat stool
   study though suspicion low.
   - C. diff stool study
   .
   Forearm cramps:  Quinine, which patient has been on previously for
   cramps with good results.
   .
   # GIB/anemia. His picture is concerning, with his very elevated INR,
   low fibrinogen, low platelets and low hematocrit.  If he were to bleed,
   he has very little reserve and he has recently had BRBPR.  Likely
   source of that blood was hemorrhoids given rectal pain.  No plan for
   sigmoidoscopy by hepatology for the time being.  Previously we wanted
   to transfuse 1U PRBC
s but he refused.
   - Readdress issue of transfusions with patient.
   - Continue to follow daily Hct. coags, fibrinogen and platelets (do not
   need daily hapto or FDP
   - If acute bleed, needs to go to bleeding scan/try to give
   transfusions.
   .
    # Mental status: Pt was seen to be occasionally confused, saying odd
   things, and sometimes belligerent, making aggressive/rude comments to
   staff, and other times non-compliant, taking off BP cuff, pressing the
   pump buttons, not staying in bed, etc. Could be related to hepatic
   encephalopathy vs personality disorder. This seems to be less of an
   issue lately, with the pt just tired of being in the hospital, but
   still refusing some treatments and meds occasionally.
   - Currently getting PO Lactulose and Rifaximin, but has been
   intermittently refusing.
   .
   # Right heart failure: Patient has right heart failure on echo without
   evidence of extreme pulmonary hypertension.  No PE seen on CTA.  This
   is new from [**2142**].  Possibilities include severe fluid overload (off
   starling curve) or old infarct.  It would be useful to get him drier to
   see if his RV function improves.  This did not seem to help
   - f/u cards recs.
   .
   # Cirrhosis.  LFTs relatively at baseline (bili slightly up compared to
   prior).  Mental status starting to decompensate.  [**Month (only) 60**] have hepatic
   encephalopathyand would be at risk with GIB.
   - monitor mental status
   - Lactulose and rifaximin
   - Liver following.
   .
   # Chronic pain
 oxycodone prn (increase frequency from q6h to q4h)
   - PT consult.
   .
   # Low cortisol
 Pt had gone through short stress-dosed steroids course
   due to low cortisol, with fludrocort and hydrocort but these were
   stopped after they did not make much difference. [**Last Name (un) **] stim test normal.
   .
   # Elevated Troponin
 troponin stabilized.  Was likely demand ischemia,
   pt without current chest pain
   .
   # Social:  Patient requests alternatives and medical records, wishes to
   speak to patient relations.
   - Call patient relations.
   .
   FEN: Regular renal diet, watch lytes.
   Prophylaxis: not on boots due to bilateral leg pain from anasarca; no
   SQ heparin given low platelets/high INR. PO lansoprazole.
   Access:  Subclavian CVL
   Code:  Full Code
   Communication: Patient, sister [**Name (NI) 163**] [**Name (NI) 5464**], Cell number:
   [**Telephone/Fax (1) 10878**], daughter [**Name (NI) 5563**] [**Name (NI) 5564**] [**Telephone/Fax (1) 10920**].
   Disposition: pending weaning levophed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-01-13 12:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man with HCV cirrhosis and persistent HOTN
   24 Hour Events:
 PARACENTESIS - At [**2146-1-12**] 05:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   rifaxamin
   midodrine
   levophed 0.32
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-13**] 12:48 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.5
C (97.7
   HR: 105 (94 - 120) bpm
   BP: 101/53(65) {82/39(52) - 112/63(99)} mmHg
   RR: 11 (11 - 20) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.5 kg (admission): 112.5 kg
           Total In:
                                                                  1,887 mL
                                                                    286 mL
   PO:
                                                                    460 mL
           TF:
   IVF:
                                                                    677 mL
                                                                    236 mL
   Blood products:
                                                                    750 mL
                                                                     50 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,887 mL
                                                                    286 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   10.4 g/dL
   62 K/uL
   154 mg/dL
   10.0 mg/dL
   26 mEq/L
   3.6 mEq/L
   38 mg/dL
   95 mEq/L
   139 mEq/L
   30.7 %
   16.2 K/uL
        [image002.jpg]
                            [**2146-1-6**]  01:08 PM
                            [**2146-1-7**]  05:02 AM
                            [**2146-1-8**]  05:55 AM
                            [**2146-1-8**]  03:29 PM
                            [**2146-1-9**]  03:30 AM
                            [**2146-1-10**]  03:09 AM
                             [**2146-1-11**]  03:43 AM
                             [**2146-1-12**]  04:01 AM
                             [**2146-1-12**]  10:19 PM
                             [**2146-1-13**]  02:51 AM
   WBC
   15.4
   13.9
   11.8
   11.6
   13.9
   17.0
   15.3
   16.2
   Hct
   25.1
   24.1
   22.8
   22.6
   21.4
   22.6
   22.1
   25.9
   30.6
   30.7
   Plt
   56
   50
   33
   25
   47
   72
   56
   62
   Cr
   10.0
   11.4
   8.6
   10.3
   11.4
   8.5
   10.0
   Glucose
   170
   112
   161
   119
   143
   128
   154
   Other labs: PT / PTT / INR:39.9/63.9/4.2, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:44/67, Alk Phos / T Bili:149/14.7,
   Amylase / Lipase:/63, Differential-Neuts:65.1 %, Band:0.0 %, Lymph:22.6
   %, Mono:8.0 %, Eos:4.0 %, D-dimer:5593 ng/mL, Fibrinogen:74 mg/dL,
   Lactic Acid:4.6 mmol/L, Albumin:3.0 g/dL, LDH:322 IU/L, Ca++:10.4
   mg/dL, Mg++:2.1 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
 COAGULOPATHY
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 CIRRHOSIS OF LIVER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   HOTN is still perplexing.  Will give another 50gm of albumin given
   paracentesis.
   leukocytosis:  will recheck C. diff.
   cramps:  quinine for leg cramps.
   will call patient relations.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2146-01-14 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - HD today
   - contact[**Name (NI) **] social work about patient relations issues.  Are aware that
   team would like assistance with this.  [**Location (un) 4316**] will come by in the
   morning to help.
   - quinine started for muscle cramping
   - starting methylene blue as experimental therapy
   - patient claiming that wants to go home.  Overnight attending
   convinced him to stay until the morning.  Do not think ending care is
   unreasonable option for him, but needs to understand he might not make
   it home if we stop pressors.  Need to consult [**First Name8 (NamePattern2) 566**] [**Last Name (NamePattern1) 567**] and
   palliative care team early to see if can help us come up with a way to
   get him home in most comfortable, safe way possible. Need to check on
   patient
s clarity of thought regarding this issue.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-14**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 106 (99 - 143) bpm
   BP: 104/53(65) {78/45(42) - 134/67(80)} mmHg
   RR: 14 (11 - 23) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.5 kg (admission): 112.5 kg
             Total In:
                                                                  1,315 mL
                                                                    217 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    765 mL
                                                                    217 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,315 mL
                                                                    217 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   58 K/uL
   9.6 g/dL
   133 mg/dL
   7.2 mg/dL
   27 mEq/L
   3.5 mEq/L
   24 mg/dL
   96 mEq/L
   140 mEq/L
   28.5 %
   13.9 K/uL
        [image002.jpg]
                            [**2146-1-7**]  05:02 AM
                            [**2146-1-8**]  05:55 AM
                            [**2146-1-8**]  03:29 PM
                            [**2146-1-9**]  03:30 AM
                            [**2146-1-10**]  03:09 AM
                             [**2146-1-11**]  03:43 AM
                             [**2146-1-12**]  04:01 AM
                             [**2146-1-12**]  10:19 PM
                             [**2146-1-13**]  02:51 AM
                             [**2146-1-14**]  05:01 AM
   WBC
   15.4
   13.9
   11.8
   11.6
   13.9
   17.0
   15.3
   16.2
   13.9
   Hct
   24.1
   22.8
   22.6
   21.4
   22.6
   22.1
   25.9
   30.6
   30.7
   28.5
   Plt
   56
   50
   33
   25
   47
   72
   56
   62
   58
   Cr
   10.0
   11.4
   8.6
   10.3
   11.4
   8.5
   10.0
   7.2
   Glucose
   170
   112
   161
   119
   143
   128
   154
   133
   Other labs: PT / PTT / INR:39.9/63.9/4.2, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:44/67, Alk Phos / T Bili:149/14.7,
   Amylase / Lipase:/63, Differential-Neuts:65.1 %, Band:0.0 %, Lymph:22.6
   %, Mono:8.0 %, Eos:4.0 %, D-dimer:5593 ng/mL, Fibrinogen:67 mg/dL,
   Lactic Acid:4.6 mmol/L, Albumin:3.0 g/dL, LDH:322 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 COAGULOPATHY
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 CIRRHOSIS OF LIVER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   57M with Hep C cirrhosis, ESRD on HD, presenting with hypotension and
   shock, elevated lactate, and drop in hematocrit with initial concern
   for LGIB, now seen to have blown RV on echo, SBP with no
   microorganisms, labs concerning for DIC vs hemolysis, multifocal PNA
   on chest CT, and hypotension dependent on pressors.
   .
   #
   Goals of care: Patient wishes to go home today. Plan to discuss with
   social work, palliative care. Need to ensure patient has clarity of
   thought to safely make this important decision.
   .
    # Hypotension/shock. Patient now on levophed, vasopressin and
   midodrine, and we are still unable to wean off levophed completely.  We
   do not have a good explanation for his hypotension.  Our initial
   thought was sepsis from a pulmonary source, based on CT scan.  Got
   Vanc/Cefepime/Cipro for PNA and Flagyl to cover colitis on CT scan. He
   finished these courses and was pulled off ABx, only to be restarted 3
   days ago for spiking a fever, and then taken back off yesterday b/c
   there was no clear source. With his dilated, hypokinetic RV on echo,
   another possibility would be poor cardiac output secondary to fluid
   overload causing RV dilatation making him preload dependent, but he did
   not improve with 4 days of aggressive dialysis/ultrafiltration.  No PE
   on CTA.  [**Last Name (un) **] stim test within normal limits.  Cardiology consulted
   yesterday, recommended repeat echo after diuresis but no right heart
   cath for now.  Mr. [**Known lastname 5562**] is frustrated and would like to go home,
   saying he does not believe he can be totally dependent on a medication
   he didn
t take until 12 days ago.  In an attempt to respect his wishes,
   we stopped his vasopressors.  His pressures dropped to 60s/20s and he
   stopped mentating, simply repeating that he was
tired
 and not
   answering questions clearly. This morning, patient
s BP dropped to 60s
   during dialysis and he was confused, but then with an increase in
   pressors his BP went back up to the 90s.
   - Continue on Levophed, wean as tolerated with goal MAP >55.
   - Pressors are higher now during dialysis; plan to wean back down
   post-dialysis. Try to turn off vasopressin, if tolerated.
   - Continue midodrine 15mg daily.
   - s/p 3 days of Albumin 50g
   .
   # ESRD.  On HD Tu/[**Doctor First Name **]/Sat as outpatient, but here we had been dialyzing
   as needed based on fluid and electrolyte status. We will return to his
   usual routine for now.
   - f/u renal recs.
   - patient with forearm cramping, so follow electrolytes closely and
   replete prn, also PT consult and quinine (has been on previously, with
   good results)
   .
   # Leukocytosis:  No known cause, will r/o C. diff with repeat stool
   study though suspicion low.
   - C. diff stool study
   .
   # GIB/anemia. His picture is concerning, with his very elevated INR,
   low fibrinogen, low platelets and low hematocrit.  If he were to bleed,
   he has very little reserve and he has recently had BRBPR.  Likely
   source of that blood was hemorrhoids given rectal pain.  No plan for
   sigmoidoscopy by hepatology for the time being.  Previously we wanted
   to transfuse 1U PRBC
s but he refused.
   - Readdress issue of transfusions with patient.
   - Continue to follow daily Hct. coags, fibrinogen and platelets (do not
   need daily hapto or FDP
   - If acute bleed, needs to go to bleeding scan/try to give
   transfusions.
   .
    # Mental status: Pt was seen to be occasionally confused, saying odd
   things, and sometimes belligerent, making aggressive/rude comments to
   staff, and other times non-compliant, taking off BP cuff, pressing the
   pump buttons, not staying in bed, etc. Could be related to hepatic
   encephalopathy vs personality disorder. This seems to be less of an
   issue lately, with the pt just tired of being in the hospital, but
   still refusing some treatments and meds occasionally.
   - Currently getting PO Lactulose and Rifaximin, but has been
   intermittently refusing.
   .
   # Right heart failure: Patient has right heart failure on echo without
   evidence of extreme pulmonary hypertension.  No PE seen on CTA.  This
   is new from [**2142**].  Possibilities include severe fluid overload (off
   starling curve) or old infarct.  It would be useful to get him drier to
   see if his RV function improves.  This did not seem to help
   - f/u cards recs.
   .
   # Cirrhosis.  LFTs relatively at baseline (bili slightly up compared to
   prior).  Mental status starting to decompensate.  [**Month (only) 60**] have hepatic
   encephalopathyand would be at risk with GIB.
   - monitor mental status
   - Lactulose and rifaximin
   - Hepatology following.
   .
   # Chronic pain
   - oxycodone prn (increase frequency from q6h to q4h)
   - PT consult.
   .
   # Low cortisol
 Pt had gone through short stress-dosed steroids course
   due to low cortisol, with fludrocort and hydrocort but these were
   stopped after they did not make much difference. [**Last Name (un) **] stim test normal.
   .
   # Elevated Troponin
 troponin stabilized.  Was likely demand ischemia,
   pt without current chest pain
   .
   # Social:  Patient requests alternatives and medical records, wishes to
   speak to patient relations.
   - Call patient relations.
   .
   FEN: Regular renal diet, watch lytes.
   Prophylaxis: not on boots due to bilateral leg pain from anasarca; no
   SQ heparin given low platelets/high INR. PO lansoprazole.
   Access:  Subclavian CVL (Multi Lumen - [**2145-12-29**] 02:30 PM)
   Code:  Full Code
   Communication: Patient, sister [**Name (NI) 163**] [**Name (NI) 5464**], Cell number:
   [**Telephone/Fax (1) 10878**], daughter [**Name (NI) 5563**] [**Name (NI) 5564**] [**Telephone/Fax (1) 10920**].
   Disposition: pending weaning levophed and pending patient decision in
   conjunction with palliative care

2146-01-14 12:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man with HCV cirrhosis, ESRD on HD with persistent HOTN without
   clear precpitant.  Patient did not receive methylene blue overnight as
   planned, as patient wanted to go home.  Attempting methylene blue
   infusion to improve BP this morning.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.29 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Phoslo
   Nephrocaps
   Prevacid
   Lactulose
   Rifaxamin
   Mididrine
   Thiamine
   seroquel
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-14**] 12:48 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 109 (99 - 143) bpm
   BP: 105/51(64) {70/33(41) - 134/67(80)} mmHg
   RR: 18 (13 - 23) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.5 kg (admission): 112.5 kg
             Total In:
                                                                  1,315 mL
                                                                    535 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    765 mL
                                                                    535 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,315 mL
                                                                    535 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   58 K/uL
   133 mg/dL
   7.2 mg/dL
   27 mEq/L
   3.5 mEq/L
   24 mg/dL
   96 mEq/L
   140 mEq/L
   28.5 %
   13.9 K/uL
        [image002.jpg]
                            [**2146-1-7**]  05:02 AM
                            [**2146-1-8**]  05:55 AM
                            [**2146-1-8**]  03:29 PM
                            [**2146-1-9**]  03:30 AM
                            [**2146-1-10**]  03:09 AM
                             [**2146-1-11**]  03:43 AM
                             [**2146-1-12**]  04:01 AM
                             [**2146-1-12**]  10:19 PM
                             [**2146-1-13**]  02:51 AM
                             [**2146-1-14**]  05:01 AM
   WBC
   15.4
   13.9
   11.8
   11.6
   13.9
   17.0
   15.3
   16.2
   13.9
   Hct
   24.1
   22.8
   22.6
   21.4
   22.6
   22.1
   25.9
   30.6
   30.7
   28.5
   Plt
   56
   50
   33
   25
   47
   72
   56
   62
   58
   Cr
   10.0
   11.4
   8.6
   10.3
   11.4
   8.5
   10.0
   7.2
   Glucose
   170
   112
   161
   119
   143
   128
   154
   133
   Other labs: PT / PTT / INR:39.9/63.9/4.2, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:44/67, Alk Phos / T Bili:149/14.7,
   Amylase / Lipase:/63, Differential-Neuts:65.1 %, Band:0.0 %, Lymph:22.6
   %, Mono:8.0 %, Eos:4.0 %, D-dimer:5593 ng/mL, Fibrinogen:67 mg/dL,
   Lactic Acid:4.6 mmol/L, Albumin:3.0 g/dL, LDH:322 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 COAGULOPATHY
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 CIRRHOSIS OF LIVER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   HOTN:  given methylene blue infusion.  Will discuss with pharmacy about
   giving an additional dose.
   Start florinef tabs.
   ESRD: had HD yesterday.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent:   35 minutes
   Critically ill

2146-01-15 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - BP 90's-110's on Methylene blue q6h, able to wean pressors to half
   dose. However, dropped BP then dropped to 60's systolic but came back
   up with another dose of methylene blue.
   - Lyrica started
   - Had HD this morning, 1 L removed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Levo
 at 0.26 now
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-15**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.4
   HR: 114 (92 - 140) bpm
   BP: 93/48(58) {70/33(41) - 122/81(85)} mmHg
   RR: 14 (10 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.5 kg (admission): 112.5 kg
             Total In:
                                                                  1,635 mL
                                                                    212 mL
   PO:
                                                                    780 mL
             TF:
   IVF:
                                                                    855 mL
                                                                    212 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,635 mL
                                                                    212 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   GEN: NAD, resting in bed, c/o abdominal pain and chronic pain, no new
   symptoms. Slightly more sleepy than normal (less conversational).
   Eyelids swollen b/l.
   CV: III/VI SEM
   PULM: CTAB.
   ABD: distended
   EXTR: edema 2+ pitting, b/l
   Labs / Radiology
   68 K/uL
   9.4 g/dL
   87 mg/dL
   9.4 mg/dL
   27 mEq/L
   3.7 mEq/L
   28 mg/dL
   97 mEq/L
   138 mEq/L
   28.2 %
   20.3 K/uL
        [image002.jpg]
                            [**2146-1-8**]  05:55 AM
                            [**2146-1-8**]  03:29 PM
                            [**2146-1-9**]  03:30 AM
                            [**2146-1-10**]  03:09 AM
                             [**2146-1-11**]  03:43 AM
                             [**2146-1-12**]  04:01 AM
                             [**2146-1-12**]  10:19 PM
                             [**2146-1-13**]  02:51 AM
                             [**2146-1-14**]  05:01 AM
                             [**2146-1-15**]  04:18 AM
   WBC
   13.9
   11.8
   11.6
   13.9
   17.0
   15.3
   16.2
   13.9
   20.3
   Hct
   22.8
   22.6
   21.4
   22.6
   22.1
   25.9
   30.6
   30.7
   28.5
   28.2
   Plt
   50
   33
   25
   47
   72
   56
   62
   58
   68
   Cr
   11.4
   8.6
   10.3
   11.4
   8.5
   10.0
   7.2
   9.4
   Glucose
   112
   161
   119
   143
   128
   154
   133
   87
   Other labs: PT / PTT / INR:39.9/63.9/4.2, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:44/67, Alk Phos / T Bili:149/14.7,
   Amylase / Lipase:/63, Differential-Neuts:65.1 %, Band:0.0 %, Lymph:22.6
   %, Mono:8.0 %, Eos:4.0 %, D-dimer:5593 ng/mL, Fibrinogen:78 mg/dL,
   Lactic Acid:4.6 mmol/L, Albumin:3.0 g/dL, LDH:322 IU/L, Ca++:10.3
   mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   No new micro; no new imaging.
   Assessment and Plan
 COAGULOPATHY
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 CIRRHOSIS OF LIVER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   57M with Hep C cirrhosis, ESRD on HD, presenting with hypotension and
   shock, elevated lactate, and drop in hematocrit with initial concern
   for LGIB, now seen to have blown RV on echo, SBP with no
   microorganisms, labs concerning for DIC vs hemolysis, multifocal PNA
   on chest CT, and hypotension dependent on pressors.
   .
   #
   Goals of care: Patient wishes to go home; however, he does not want to
   be CMO and does want to be treated. He agrees today to stay and go
   along with treatment plan.
   .
    # Hypotension/shock. Patient now on levophed, vasopressin and
   midodrine, and we are still unable to wean off levophed completely.  We
   do not have a good explanation for his hypotension.  Our initial
   thought was sepsis from a pulmonary source, based on CT scan.  Got
   Vanc/Cefepime/Cipro for PNA and Flagyl to cover colitis on CT scan. He
   finished these courses and was pulled off ABx, only to be restarted 3
   days ago for spiking a fever, and then taken back off yesterday b/c
   there was no clear source. With his dilated, hypokinetic RV on echo,
   another possibility would be poor cardiac output secondary to fluid
   overload causing RV dilatation making him preload dependent, but he did
   not improve with 4 days of aggressive dialysis/ultrafiltration.  No PE
   on CTA.  [**Last Name (un) **] stim test within normal limits.  Cardiology consulted
   yesterday, recommended repeat echo after diuresis but no right heart
   cath for now.  Mr. [**Known lastname 5562**] is frustrated and would like to go home,
   saying he does not believe he can be totally dependent on a medication
   he didn
t take until 12 days ago.  In an attempt to respect his wishes,
   we stopped his vasopressors.  His pressures dropped to 60s/20s and he
   stopped mentating, simply repeating that he was
tired
 and not
   answering questions clearly. This morning, patient
s BP dropped to 60s
   during dialysis and he was confused, but then with an increase in
   pressors his BP went back up to the 90s.
   - Continue on Levophed, wean as tolerated with goal MAP >55
   - Continue Methylene Blue at 6 hour intervals (its first dose was given
   on [**1-14**]), with BP trend assessment before each dose; dose due this
   morning
   - HD today per regular schedule (was earlier this morning)
   - 2^nd pressor of choice, if need to start another, is neo
   - Continue midodrine 15mg daily.
   - s/p 3 days of Albumin 50g, no more today
   - plan to try starting florinef tabs tomorrow, pending response to
   methylene blue, as ?adrenal insufficiency (although negative tests for
   it, refractory hypotension is present)
   .
   # ESRD.  On HD Tu/[**Doctor First Name **]/Sat as outpatient, but here we had been dialyzing
   as needed based on fluid and electrolyte status. We will return to his
   usual routine for now.
   - HD today
   - f/u renal recs.
   - patient with forearm cramping, so follow electrolytes closely and
   replete prn, also PT consult and quinine (has been on previously, with
   good results) and lyrica
   .
   # Leukocytosis:  No known cause, will r/o C. diff with repeat stool
   study though suspicion low
   - send c.diff
   .
   # GIB/anemia. His picture is concerning, with his very elevated INR,
   low fibrinogen, low platelets and low hematocrit.  If he were to bleed,
   he has very little reserve and he has recently had BRBPR.  Likely
   source of that blood was hemorrhoids given rectal pain.  No plan for
   sigmoidoscopy by hepatology for the time being.  Previously we wanted
   to transfuse 1U PRBC
s but he refused.
   - Continue to follow daily Hct. coags, fibrinogen and platelets (do not
   need daily hapto or FDP
s); without evidence of bleeding currently, so
   do not need to treat with cryo/FFP now.
   - If acute bleed, needs to go to bleeding scan/try to give
   transfusions.
   .
    # Mental status: Pt was seen to be occasionally confused, saying odd
   things, and sometimes belligerent, making aggressive/rude comments to
   staff, and other times non-compliant, taking off BP cuff, pressing the
   pump buttons, not staying in bed, etc. Could be related to hepatic
   encephalopathy vs personality disorder. This seems to be less of an
   issue lately, with the pt just tired of being in the hospital, but
   still refusing some treatments and meds occasionally.
   - Currently getting PO Lactulose and Rifaximin
   - Monitor clinically, as seems more sleepy this morning
   .
   # Right heart failure: Patient has right heart failure on echo without
   evidence of extreme pulmonary hypertension.  No PE seen on CTA.  This
   is new from [**2142**].  Possibilities include severe fluid overload (off
   starling curve) or old infarct.  It would be useful to get him drier to
   see if his RV function improves.  This did not seem to help. Cardiology
   does not feel this is real, seems to have been over-called on prior
   echo.
   .
   # Cirrhosis.  LFTs relatively at baseline (bili slightly up compared to
   prior).  Mental status starting to decompensate.  [**Month (only) 60**] have hepatic
   encephalopathy and would be at risk with GIB.  LFT
s stable today.
   - monitor mental status
   - Lactulose and rifaximin
   - Hepatology following, f/u recs
   .
   # Chronic pain
   - oxycodone prn (increase frequency from q6h to q4h)
   - PT consult
   - lyrica started on [**1-14**]
   - simethicone prn for abdominal discomfort today
   .
   # Low cortisol
 Pt had gone through short stress-dosed steroids course
   due to low cortisol, with fludrocort and hydrocort but these were
   stopped after they did not make much difference. [**Last Name (un) **] stim test normal.
   Consider another trial of florinef tabs.
   .
   # Elevated Troponin
 troponin stabilized.  Was likely demand ischemia,
   pt without current chest pain
   .
   # Social:  Patient had been requesting alternatives and medical
   records, wishes to speak to patient relations.
   - Social work consult today
   - Consider psychiatry consult on Monday
   .
   FEN: Regular renal diet, replete lytes prn.
   Prophylaxis: not on boots due to bilateral leg pain from anasarca; no
   SQ heparin given low platelets/high INR. PO lansoprazole.
   Access:  Subclavian CVL (Multi Lumen - [**2145-12-29**] 02:30 PM)
   Code:  Full Code
   Communication: Patient, sister [**Name (NI) 163**] [**Name (NI) 5464**], Cell number:
   [**Telephone/Fax (1) 10878**], daughter [**Name (NI) 5563**] [**Name (NI) 5564**] [**Telephone/Fax (1) 10920**].
   Disposition: pending weaning levophed
   ICU Care
   Lines:
   Multi Lumen - [**2145-12-29**] 02:30 PM

2146-01-15 15:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man with HCV cirrhosis, ESRD on HD with persistent HOTN without
   clear precpitant.
   24 Hour Events:
   Started methylene blue yesterday.
   On levophed 0.6
   HD this AM
   Started lyrica for neuropathy
   Persistently hypotensive, worse during brief interuptions of pressors
   i.e. when changing bags
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.26 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Reviewed - PPI, lactulose, rifax, methy blue, thiamine, quinine,
   lyrica, oxycodone 10 q4h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-15**] 03:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 123 (92 - 126) bpm
   BP: 90/56(63) {68/33(40) - 122/81(85)} mmHg
   RR: 11 (10 - 22) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.5 kg (admission): 112.5 kg
             Total In:
                                                                  1,636 mL
                                                                    508 mL
   PO:
                                                                    780 mL
             TF:
   IVF:
                                                                    856 mL
                                                                    508 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,636 mL
                                                                    508 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   68 K/uL
   87 mg/dL
   9.4 mg/dL
   27 mEq/L
   3.7 mEq/L
   28 mg/dL
   97 mEq/L
   138 mEq/L
   28.2 %
   20.3 K/uL
        [image002.jpg]
                            [**2146-1-8**]  05:55 AM
                            [**2146-1-8**]  03:29 PM
                            [**2146-1-9**]  03:30 AM
                            [**2146-1-10**]  03:09 AM
                             [**2146-1-11**]  03:43 AM
                             [**2146-1-12**]  04:01 AM
                             [**2146-1-12**]  10:19 PM
                             [**2146-1-13**]  02:51 AM
                             [**2146-1-14**]  05:01 AM
                             [**2146-1-15**]  04:18 AM
   WBC
   13.9
   11.8
   11.6
   13.9
   17.0
   15.3
   16.2
   13.9
   20.3
   Hct
   22.8
   22.6
   21.4
   22.6
   22.1
   25.9
   30.6
   30.7
   28.5
   28.2
   Plt
   50
   33
   25
   47
   72
   56
   62
   58
   68
   Cr
   11.4
   8.6
   10.3
   11.4
   8.5
   10.0
   7.2
   9.4
   Glucose
   112
   161
   119
   143
   128
   154
   133
   87
   Other labs: PT / PTT / INR:39.9/63.9/4.2, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:44/67, Alk Phos / T Bili:149/14.7,
   Amylase / Lipase:/63, Differential-Neuts:65.1 %, Band:0.0 %, Lymph:22.6
   %, Mono:8.0 %, Eos:4.0 %, D-dimer:5593 ng/mL, Fibrinogen:78 mg/dL,
   Lactic Acid:4.6 mmol/L, Albumin:3.0 g/dL, LDH:322 IU/L, Ca++:10.3
   mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 COAGULOPATHY
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 CIRRHOSIS OF LIVER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   Persistent hypotension, etiology unclear. Currently on trial of
   methylene blue which may have had some benefit yesterday.
   ESRD
 c/w HD
   ? Adrenal insuff despite negative [**Last Name (un) 45**] stim
fludrocort tomorrow
   Low fibrinogen - ? low grade DIC
   Very complicated personality issues, would recommend psych consult.
   Patient refuses many therapies making treatment difficult at times.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2146-01-16 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2146-1-15**] 09:30 PM
 BLOOD CULTURED - At [**2146-1-15**] 10:05 PM
   Overnight, norepinephrine and phenylephrine were not sustaining
   patient
s blood pressure
 SBP to 70s and MAP to 50s, so once those
   were fully maxed, added vasopression to keep MAP above 60.
   Hypoglycemic
 patient with repeated blood sugars in 40s-70s range.
   Gave amps of D50 first, then started dextrose IV infusion to treat
   hypoglycemia.
   Patient, per nursing, was more somnolent. On my exam, he was tired and
   quiet but responded appropriately to questions.
   Per renal, start 1L NS at 100cc/hour.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-1-15**] 10:45 PM
   Piperacillin - [**2146-1-15**] 11:45 PM
   Infusions:
   Norepinephrine - 0.29 mcg/Kg/min
   Phenylephrine - 5 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Dextrose 50% - [**2146-1-15**] 11:05 PM
   Morphine Sulfate - [**2146-1-16**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-16**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.1
C (100.6
   HR: 119 (116 - 132) bpm
   BP: 80/45(53) {59/29(39) - 106/59(66)} mmHg
   RR: 31 (11 - 31) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.5 kg (admission): 112.5 kg
           Total In:
                                                                  1,574 mL
                                                                    915 mL
   PO:
           TF:
   IVF:
                                                                  1,524 mL
                                                                    649 mL
   Blood products:
   266 mL
   Total out:
                                                                  1,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    574 mL
                                                                    915 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, now with face shovel mask in place
   SpO2: 93%
   ABG: ///13/
   Physical Examination
   GEN: Breathing more quickly so slightly distressed. A&O x3.
   CV: III/VI SEM
   PULM; CTAB
   ABD: Very TTP, more distended.
   EXTR: Edema 2+ b/l.
   Labs / Radiology
   63 K/uL
   9.1 g/dL
   50 mg/dL
   7.5 mg/dL
   13 mEq/L
   4.7 mEq/L
   21 mg/dL
   93 mEq/L
   141 mEq/L
   29.4 %
   15.2 K/uL
        [image002.jpg]
                            [**2146-1-9**]  03:30 AM
                            [**2146-1-10**]  03:09 AM
                             [**2146-1-11**]  03:43 AM
                             [**2146-1-12**]  04:01 AM
                             [**2146-1-12**]  10:19 PM
                             [**2146-1-13**]  02:51 AM
                             [**2146-1-14**]  05:01 AM
                             [**2146-1-15**]  04:18 AM
                             [**2146-1-15**]  09:58 PM
                             [**2146-1-16**]  05:20 AM
   WBC
   11.6
   13.9
   17.0
   15.3
   16.2
   13.9
   20.3
   12.6
   15.2
   Hct
   21.4
   22.6
   22.1
   25.9
   30.6
   30.7
   28.5
   28.2
   30.6
   29.4
   Plt
   25
   47
   72
   56
   62
   58
   68
   62
   63
   Cr
   8.6
   10.3
   11.4
   8.5
   10.0
   7.2
   9.4
   6.6
   7.5
   Glucose
   161
   119
   143
   128
   154
   133
   87
   32
   50
   Other labs: PT / PTT / INR:44.5/74.5/4.8, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:44/67, Alk Phos / T Bili:149/14.7,
   Amylase / Lipase:/63, Differential-Neuts:65.1 %, Band:0.0 %, Lymph:22.6
   %, Mono:8.0 %, Eos:4.0 %, D-dimer:5593 ng/mL, Fibrinogen:101 mg/dL,
   Lactic Acid:17.3 mmol/L, Albumin:3.0 g/dL, LDH:322 IU/L, Ca++:10.4
   mg/dL, Mg++:1.7 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
 HYPOGLYCEMIA
 COAGULOPATHY
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 CIRRHOSIS OF LIVER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   57M with Hep C cirrhosis, ESRD on HD, presenting with hypotension and
   shock, elevated lactate, and drop in hematocrit with initial concern
   for LGIB, now seen to have blown RV on echo, SBP with no
   microorganisms, labs concerning for DIC vs hemolysis, multifocal PNA
   on chest CT, and hypotension dependent on pressors.
   .
   #
   Goals of care: Patient wishes to go home; however, he does not want to
   be CMO and does want to be treated. He agrees today to stay and go
   along with treatment plan.
   .
    # Hypotension/shock. Patient now on levophed, vasopressin and
   midodrine, and we are still unable to wean off levophed completely.  We
   do not have a good explanation for his hypotension.  Our initial
   thought was sepsis from a pulmonary source, based on CT scan.  Got
   Vanc/Cefepime/Cipro for PNA and Flagyl to cover colitis on CT scan. He
   finished these courses and was pulled off ABx, only to be restarted 3
   days ago for spiking a fever, and then taken back off yesterday b/c
   there was no clear source. With his dilated, hypokinetic RV on echo,
   another possibility would be poor cardiac output secondary to fluid
   overload causing RV dilatation making him preload dependent, but he did
   not improve with 4 days of aggressive dialysis/ultrafiltration.  No PE
   on CTA.  [**Last Name (un) **] stim test within normal limits.  Cardiology consulted
   yesterday, recommended repeat echo after diuresis but no right heart
   cath for now.  Mr. [**Known lastname 5562**] is frustrated and would like to go home,
   saying he does not believe he can be totally dependent on a medication
   he didn
t take until 12 days ago.  In an attempt to respect his wishes,
   we stopped his vasopressors.  His pressures dropped to 60s/20s and he
   stopped mentating, simply repeating that he was
tired
 and not
   answering questions clearly. This morning, patient
s BP dropped to 60s
   during dialysis and he was confused, but then with an increase in
   pressors his BP went back up to the 90s. The early morning of [**1-16**],
   patient with hypotension requiring 3 pressors.
   - Continue on Norepinephrine, phenylephrine, and vasopression with goal
   MAP >55
   - Discontinue Methylene Blue as this treatment regimen does not seem to
   have been effective appropriately
   - Continue midodrine 15mg daily.
   - Give 50g albumin today (following paracentesis)
   - Start florinef tabs today (not certain they will be effective given
   his ESRD, but feel potential benefit is worth a try); as ?adrenal
   insufficiency (although negative tests for it, refractory hypotension
   is present)
   - Per renal, 1L NS at 100cc/hour
   - Continue vancomycin, zosyn, as concern sepsis may be contributory;
   CIS
   .
   # Increased work of breathing: Believed due to hypotension, ascites
   fluid pressure on diaphragm, acid/base status (high lactic acid):
   - paracentesis today
   - CXR s/p paracentesis
   - could trend lactic acid
   .
   # Abdominal pain: concern SBP as TTP, febrile
   - paracentesis today
   - continue zosyn
   .
   # Hypoglycemia; believed due to decreased gluconeogenesis in ESLD
   - D10 at 50 per hour, with goal BS >100 and with q30minute fingersticks
   .
   # ESRD.  On HD Tu/[**Doctor First Name **]/Sat as outpatient, but here we had been dialyzing
   as needed based on fluid and electrolyte status. We will return to his
   usual routine for now.
   - f/u renal recs.
   - patient with forearm cramping, so follow electrolytes closely and
   replete prn, also continue lyrica
   - d/c quinine as has side effects of hypotension, tachycardia,
   abdominal pain
   .
   # Leukocytosis:  No known cause, will r/o C. diff with repeat stool
   study though suspicion low
   - f/u c.diff
   .
   # GIB/anemia. His picture is concerning, with his very elevated INR,
   low fibrinogen, low platelets and low hematocrit.  If he were to bleed,
   he has very little reserve and he has recently had BRBPR.  Likely
   source of that blood was hemorrhoids given rectal pain.  No plan for
   sigmoidoscopy by hepatology for the time being.  Previously we wanted
   to transfuse 1U PRBC
s but he refused.
   - Received cryo yesterday for low fibrinogen d/t concern for DIC
   - Continue to follow daily Hct. coags, fibrinogen and platelets (do not
   need daily hapto or FDP
s); without evidence of bleeding currently, so
   do not need to treat with cryo/FFP now
   - Check PM CBC, coags, fibrinogen
 DIC labs to be checked
   - If acute bleed, needs to go to bleeding scan/try to give
   transfusions.
   - Anemia may be part of hypotension picture
   .
    # Mental status: Pt was seen to be occasionally confused, saying odd
   things, and sometimes belligerent, making aggressive/rude comments to
   staff, and other times non-compliant, taking off BP cuff, pressing the
   pump buttons, not staying in bed, etc. Could be related to hepatic
   encephalopathy vs personality disorder. This seems to be less of an
   issue lately, with the pt just tired of being in the hospital, but
   still refusing some treatments and meds occasionally.
   - Currently getting PO Lactulose and Rifaximin
   - Monitor clinically, as seems more sleepy this morning
   .
   # Right heart failure: Patient has right heart failure on echo without
   evidence of extreme pulmonary hypertension.  No PE seen on CTA.  This
   is new from [**2142**].  Possibilities include severe fluid overload (off
   starling curve) or old infarct.  It would be useful to get him drier to
   see if his RV function improves.  This did not seem to help. Cardiology
   does not feel this is real, seems to have been over-called on prior
   echo.
   .
   # Cirrhosis.  LFTs relatively at baseline (bili slightly up compared to
   prior).  Mental status starting to decompensate.  [**Month (only) 60**] have hepatic
   encephalopathy and would be at risk with GIB.  LFT
s stable today.
   - monitor mental status
   - Lactulose and rifaximin
   - Hepatology following, f/u recs
   .
   # Chronic pain:
   - oxycodone prn (increase frequency from q6h to q4h)
   - extra morphine prn
   - PT consult pending (on hold for now)
   - lyrica started on [**1-14**]
   .
   # Low cortisol
 Pt had gone through short stress-dosed steroids course
   due to low cortisol, with fludrocort and hydrocort but these were
   stopped after they did not make much difference. [**Last Name (un) **] stim test normal.
   Today start another florinef trial.
   .
   # Elevated Troponin
 troponin stabilized.  Was likely demand ischemia,
   pt without current chest pain
   .
   # Social:  Patient had been requesting alternatives and medical
   records, wishes to speak to patient relations.
   - Social work consult today
   - Consider psychiatry consult on Monday
   - Offer patient social work and palliative care support as needed
   .
   FEN: Regular renal diet, replete lytes prn, IVF as above.
   Prophylaxis: not on boots due to bilateral leg pain from anasarca; no
   SQ heparin given low platelets/high INR. PO lansoprazole.
   Access:  Subclavian CVL (Multi Lumen - [**2145-12-29**] 02:30 PM)
   Code: DNR, DNI
   Communication: Patient, sister [**Name (NI) 163**] [**Name (NI) 5464**], Cell number:
   [**Telephone/Fax (1) 10878**], daughter [**Name (NI) 5563**] [**Name (NI) 5564**] [**Telephone/Fax (1) 10920**].
   Disposition: pending weaning 3 pressors
   ICU Care
   Lines:
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Code status: DNR / DNI

2146-01-16 10:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2146-1-15**] 09:30 PM
 BLOOD CULTURED - At [**2146-1-15**] 10:05 PM
   Required addition of neo to levophed, but persistent hypotension. Added
   vasopressin this AM with some improvement
   Mentating slightly better this AM
   Hypoglycemic BS 40s - treated with amp of d40, now d10 drip
   Seen by renal, started IV at 100/h
   Made DNR/DNI, family aware
   Started on vanc/zosyn for fever and increasing pressor requirement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-1-15**] 10:45 PM
   Piperacillin - [**2146-1-15**] 11:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-1-16**] 08:00 AM
   Infusions:
   Phenylephrine - 5 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Dextrose 50% - [**2146-1-15**] 11:05 PM
   Morphine Sulfate - [**2146-1-16**] 08:27 AM
   Other medications:
   phosplo, nephrocaps, lactulose/rifax, thiamine, quinine x 2d, lyrica
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-16**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.2
C (100.7
   HR: 122 (117 - 132) bpm
   BP: 78/43(52) {59/29(39) - 106/59(66)} mmHg
   RR: 32 (16 - 32) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.5 kg (admission): 112.5 kg
           Total In:
                                                                  1,574 mL
                                                                  1,572 mL
   PO:
           180 mL
   TF:
   IVF:
                                                                  1,524 mL
                                                                  1,126 mL
   Blood products:
   266 mL
   Total out:
                                                                  1,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    574 mL
                                                                  1,572 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, responsive
   Labs / Radiology
   9.1 g/dL
   63 K/uL
   50 mg/dL
   7.5 mg/dL
   13 mEq/L
   4.7 mEq/L
   21 mg/dL
   93 mEq/L
   141 mEq/L
   29.4 %
   15.2 K/uL
         [image002.jpg]
                            [**2146-1-9**]  03:30 AM
                            [**2146-1-10**]  03:09 AM
                             [**2146-1-11**]  03:43 AM
                             [**2146-1-12**]  04:01 AM
                             [**2146-1-12**]  10:19 PM
                             [**2146-1-13**]  02:51 AM
                             [**2146-1-14**]  05:01 AM
                             [**2146-1-15**]  04:18 AM
                             [**2146-1-15**]  09:58 PM
                             [**2146-1-16**]  05:20 AM
   WBC
   11.6
   13.9
   17.0
   15.3
   16.2
   13.9
   20.3
   12.6
   15.2
   Hct
   21.4
   22.6
   22.1
   25.9
   30.6
   30.7
   28.5
   28.2
   30.6
   29.4
   Plt
   25
   47
   72
   56
   62
   58
   68
   62
   63
   Cr
   8.6
   10.3
   11.4
   8.5
   10.0
   7.2
   9.4
   6.6
   7.5
   Glucose
   161
   119
   143
   128
   154
   133
   87
   32
   50
   Other labs: PT / PTT / INR:44.5/74.5/4.8, CK / CKMB /
   Troponin-T:357/5/0.26, ALT / AST:44/67, Alk Phos / T Bili:149/14.7,
   Amylase / Lipase:/63, Differential-Neuts:65.1 %, Band:0.0 %, Lymph:22.6
   %, Mono:8.0 %, Eos:4.0 %, D-dimer:5593 ng/mL, Fibrinogen:101 mg/dL,
   Lactic Acid:17.3 mmol/L, Albumin:3.0 g/dL, LDH:322 IU/L, Ca++:10.4
   mg/dL, Mg++:1.7 mg/dL, PO4:6.3 mg/dL
   Fluid analysis / Other labs: Lactic acid 7.3
   Assessment and Plan
 HYPOGLYCEMIA
 COAGULOPATHY
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 CIRRHOSIS OF LIVER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   Septic shock, persistent hypotension, etiology unclear. Sepsis vs
   idiopathic vs hemodyn effect of massive ascites vs intravasc volume
   depletion. Currently on trial of methylene blue which does not seem to
   be working (pressor was added during MB yesterday). Will d/c MB today.
   Continue midodrine, start trial of fluorinef tabs today though unlikely
   to be effective.
   Ascites
 will do tx/dx paracentesis today followed by albumin. Will
   send ascites to r/o SBP. CXR post tap
   ESRD
 c/w HD, M-W-F sched
   Low fibrinogen - ? low grade DIC
   DM/Hypoglycemia
 D10 for now
   UE cramps
 d/c quinine, can cause hypotension
   Dispo
 may benefit from palliative care consult
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-12-29**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments: Ex-wife involved. Daughter
   is HCP. [**Name (NI) 549**] were updated
   Code status: DNR / DNI
   Disposition : ICU
   Total time spent: 40
   Patient is critically ill